2143-07-23 07:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-7-23**] 02:40 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Cisatracurium - 0.05 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2143-7-23**] 06:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-23**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 97 (97 - 129) bpm
   BP: 105/53(68) {98/47(7) - 180/90(116)} mmHg
   RR: 26 (18 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             5,682 mL
   PO:
             TF:
   IVF:
   3,682 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    340 mL
   Urine:
   340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: Sao2 < 90%
   PIP: 16 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.25/54/62/22/-4
   Ve: 14.4 L/min
   PaO2 / FiO2: 62
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Oriented (to): , Movement: Not assessed, Sedated,
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   138 K/uL
   156 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   135 mEq/L
   35.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-7-23**]  02:32 AM
                             [**2143-7-23**]  03:23 AM
                             [**2143-7-23**]  03:35 AM
                             [**2143-7-23**]  05:04 AM
                             [**2143-7-23**]  05:18 AM
   WBC
   4.8
   Hct
   35.8
   Plt
   138
   Cr
   1.2
   TCO2
   28
   28
   25
   25
   Glucose
   156
   Other labs: PT / PTT / INR:13.0/31.3/1.1, ALT / AST:45/61, Alk Phos / T
   Bili:214/0.8, Amylase / Lipase:26/16, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Ca++:6.0 mg/dL, Mg++:1.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates and
   now with ARDS
   .
   1. Multifocal pneumonia/Respiratory failure: Has received multiple
   liters of fluid for hypotension and also received additional fluid in
   the ED.  Patient with thin red/[**Location (un) **] secretions consistent with
   gastric fluid and none was aspirated from OGT, concerning for
   aspiration.  Now with clinical picture concerning for ARDS.  Infectious
   etiology as primary insult most likely--primary bacterial pneumonia (S.
   pneumo) vs. viral process with bacterial superinfection vs. atypical
   infection (given resp and GI symptoms).
   --Continue vanc/zosyn and add azithromycin for Legionella coverage.
   --Sputum culture.
   --ARDS net ventilation
   --Currently paralyzed to maintain O2 saturation/synchronize with
   ventilator
   --Requiring high PEEP
   .
   # Hypotension: presented with hypertension (SBP >200) initially and now
   hypotensive.  BP dropped rapidly with sedation, PEEP, intubation, but
   given clinical picture, concerning for sepsis.  Remains fluid
   responsive currently. [**Month (only) 51**] need CVL for now.
   .
   # Hyponatremia: likely hypovolemic hyponatremia vs. SIADH from lung
   process.  Was 132 at ED presentation yesterday.  Will hydrate and
   recheck in am, if not improved, send urine studies
   .
   # Microcytosis: check iron, hematocrit stable, but expect it will
   decrease following hydration. Guaiac stool
   .
   # Leukopenia: Initially leukopenic at admission
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2143-07-23 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-7-23**] 02:40 AM
   > Bronchoscopy for thin red secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Cisatracurium - 0.05 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2143-7-23**] 06:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-23**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 97 (97 - 129) bpm
   BP: 105/53(68) {98/47(7) - 180/90(116)} mmHg
   RR: 26 (18 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             5,682 mL
   PO:
             TF:
   IVF:
   3,682 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    340 mL
   Urine:
   340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: Sao2 < 90%
   PIP: 16 cmH2O
   Plateau: 28 cmH2O
   SpO2: 94%
   ABG: 7.25/54/62/22/-4
   Ve: 14.4 L/min
   PaO2 / FiO2: 62
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Oriented (to): , Movement: Not assessed, Sedated,
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   138 K/uL
   156 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   135 mEq/L
   35.8 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-7-23**]  02:32 AM
                             [**2143-7-23**]  03:23 AM
                             [**2143-7-23**]  03:35 AM
                             [**2143-7-23**]  05:04 AM
                             [**2143-7-23**]  05:18 AM
   WBC
   4.8
   Hct
   35.8
   Plt
   138
   Cr
   1.2
   TCO2
   28
   28
   25
   25
   Glucose
   156
   Other labs: PT / PTT / INR:13.0/31.3/1.1, ALT / AST:45/61, Alk Phos / T
   Bili:214/0.8, Amylase / Lipase:26/16, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6
   mmol/L, Ca++:6.0 mg/dL, Mg++:1.3 mg/dL, PO4:3.6 mg/dL
   CXR [**2143-7-23**]: significant b/l consolidation which has been rapidly
   progressive.
   Assessment and Plan
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with ARDS with high PEEP.
   > Multifocal pneumonia/Respiratory failure: Concerning for large volume
   aspiration followed by ARDS. Unclear if superimposed infectious process
   (viral vs   Infectious etiology as primary insult most likely--primary
   bacterial pneumonia (S. pneumo) vs. viral process with bacterial
   superinfection vs. atypical infection (given resp and GI symptoms).  ?
   cardiogenic component as well. No obvious suggestion of inflammatory
   lung disease (AIP, no eosinophils peripherally to suggest AEP although
   we [**Male First Name (un) **]
t have a BAL fluid cell count.)
   -Continue vanc/CTX/azithromycin for Legionella coverage. As well as
   osaltamivir
   -Sputum culture.
   -ARDS net ventilation, with paralysis. Consider APRV as rescue mode.
   Worsening O2 with high PEEP suggestive of possible conversion to
   increased West Lung zone I. will recheck ABG (may need more volume vs
   lower PEEP)
   - Check TTE with bubble study, cardiac enzymes
   - f/u clx data (add on pneumocystis if possible). Check 1,3 glucan and
   GM.
   Place esophageal balloon
   > Hypotension: presented with hypertension (SBP >200) initially and now
   hypotensive.  BP dropped rapidly with sedation, PEEP, intubation, with
   additional concern for emerging sepsis.  Remains fluid responsive
   currently.
   - CVL today
   > Nausea and vomiting: concern for MW tear Primary etiology unclear
   (related to underlying infection vs primary process: neg lipase,  nl
   bili.). Will d/w with GI.
   - Abd U/S
   - GI consult.
   > Hyponatremia: likely hypovolemic hyponatremia responded well to
   hydration.
   >Microcytosis: check iron, hematocrit stable, but expect it will
   decrease following hydration. Guaiac stool
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:[**Street Address(2) 8217**] CVC
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  39 minutes
   Patient is critically ill

2143-07-24 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2143-7-23**] 10:30 AM
 ULTRASOUND - At [**2143-7-23**] 11:11 AM
   Abdominal  RUQ
 MULTI LUMEN - START [**2143-7-23**] 12:09 PM
 ARTERIAL LINE - START [**2143-7-23**] 07:58 PM
 BLOOD CULTURED - At [**2143-7-24**] 04:00 AM
   BC x 2
 URINE CULTURE - At [**2143-7-24**] 04:00 AM
 FEVER - 103.2
F - [**2143-7-23**] 11:00 AM
   - influenzae A +, legionella negative
   - TTE with bubble negative, mild TR, PA 26, small pericardial effusion
   - Abd U/S with nl gallbladder, no stones, no intraabdominal pathology
   - placed esophageal balloon
   - CVL placed
   - VENT PEEP 22 --> then derecruited and had to increase PEEP to 35 for
   recruitment (x 3) --> PEEP 25 with paO2 60-77 --> PEEP 23 with paO2
   67-72 --> PEEP 21 with 7.18/57/75/22 --> increased RR 28 to 30 -->
   7.16/55/69/21
   - bladder pressure 27 --> 17
   - aflutter/afib in 120-130, gave metoprol 5 mg IV x 1 then 2.5 IV
   overnight
   - renal failure now at 1.8 with no UOP
   - bolused 11.5Ls and started maintenance 250 cc/hour --> started bicarb
   in IVFs for non-AG acidemia <7.2
   - redosed renally cleared meds (vanco d/c with level in AM pending)
   - FeNa 0.25 / FeUrea 21, no eosinophils, UA/culture pending
   - cultured at 3 AM for fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2143-7-23**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-23**] 10:00 AM
   Ceftriaxone - [**2143-7-23**] 04:30 PM
   Vancomycin - [**2143-7-23**] 07:49 PM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2143-7-23**] 08:39 AM
   Pantoprazole (Protonix) - [**2143-7-23**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-24**] 12:00 AM
   Metoprolol - [**2143-7-24**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-24**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.6
C (101.5
   HR: 97 (81 - 115) bpm
   BP: 115/63(79) {86/53(67) - 173/79(109)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 64%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 18 (14 - 24)mmHg
   Bladder pressure: 25 (17 - 27) mmHg
   Mixed Venous O2% Sat: 83 - 86
   Total In:
                                                                 14,414 mL
                                                                  1,967 mL
   PO:
   TF:
   IVF:
                                                                 12,234 mL
                                                                  1,907 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                     25 mL
   Urine:
                                                                    760 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 13,654 mL
                                                                  1,942 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Sao2 < 90%, Neuromusc Block
   PIP: 40 cmH2O
   Plateau: 30 cmH2O
   SpO2: 64%
   ABG: 7.14/69/64/20/-6
   Ve: 15.3 L/min
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: Well nourished, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right, Rhonchorous: left)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   12.2 g/dL
   106 mg/dL
   2.3 mg/dL
   20 mEq/L
   5.3 mEq/L
   22 mg/dL
   105 mEq/L
   132 mEq/L
   38.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2143-7-23**]  05:25 PM
                             [**2143-7-23**]  07:19 PM
                             [**2143-7-23**]  09:57 PM
                             [**2143-7-23**]  10:06 PM
                             [**2143-7-24**]  12:35 AM
                             [**2143-7-24**]  02:33 AM
                             [**2143-7-24**]  02:49 AM
                             [**2143-7-24**]  03:28 AM
                             [**2143-7-24**]  06:00 AM
                             [**2143-7-24**]  06:03 AM
   WBC
   5.5
   6.2
   Hct
   38
   39.8
   38.9
   Plt
   159
   169
   Cr
   1.8
   2.3
   TCO2
   23
   22
   22
   22
   22
   21
   25
   Glucose
   123
   106
   Other labs: PT / PTT / INR:11.9/39.0/1.0, ALT / AST:35/60, Alk Phos / T
   Bili:180/1.0, Amylase / Lipase:26/16, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.1
   mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   .
   1. Multifocal pneumonia/Respiratory failure: Has received multiple
   liters of fluid for hypotension and also received additional fluid in
   the ED.  Patient with thin red/[**Location (un) **] secretions consistent with
   gastric fluid and none was aspirated from OGT, concerning for
   aspiration.  Now with clinical picture concerning for ARDS.  Infectious
   etiology as primary insult most likely--primary bacterial pneumonia (S.
   pneumo) vs. viral process with bacterial superinfection vs. atypical
   infection (given resp and GI symptoms).
   --Continue vanc/zosyn and add azithromycin for Legionella coverage.
   --Sputum culture.
   --ARDS net ventilation
   --Currently paralyzed to maintain O2 saturation/synchronize with
   ventilator
   --Requiring high PEEP
   .
   # Hypotension: presented with hypertension (SBP >200) initially and now
   hypotensive.  BP dropped rapidly with sedation, PEEP, intubation, but
   given clinical picture, concerning for sepsis.  Remains fluid
   responsive currently. [**Month (only) 51**] need CVL for now.
   .
   # Hyponatremia: likely hypovolemic hyponatremia vs. SIADH from lung
   process.  Was 132 at ED presentation yesterday.  Will hydrate and
   recheck in am, if not improved, send urine studies
   .
   # Microcytosis: check iron, hematocrit stable, but expect it will
   decrease following hydration. Guaiac stool
   .
   # Leukopenia: Initially leukopenic at admission
   .
   # FEN: NPO pending stabilization of respiratory status, IVF
   resuscitation, following electrolytes
   .
   #PPx: PPI, HSQ
   .
   # Access: PIV, arterial line, likely to need CVL
   .
   # Communication: wife
   .
   # Code: Full
   .
   # Disposition: ICU.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:  chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-07-24 09:10:00 Physician Attending Progress Note
Chief Complaint: Influenza A,  superimposed pneumonia
   HPI:
   [** 509**], paralyzed
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2143-7-23**] 10:30 AM
 ULTRASOUND - At [**2143-7-23**] 11:11 AM
   Abdominal  RUQ: wnl
 MULTI LUMEN - START [**2143-7-23**] 12:09 PM
 ARTERIAL LINE - START [**2143-7-23**] 07:58 PM
 BLOOD CULTURED - At [**2143-7-24**] 04:00 AM
   BC x 2
 URINE CULTURE - At [**2143-7-24**] 04:00 AM
 FEVER - 103.2
F - [**2143-7-23**] 11:00 AM
   bladder pr 17-25
   Afib, aflutter: metoprolol 5 for rate control
   Cr 2.7, no urine output, bolused 11.5 L
   Fena 0.25, no u eos
   Peep 22, improved with recruitment manouvers, PaO2 60-67
   FiO2 100%
   More acedemic.
   Increasing RR didnt help.
   7.2/56/51 480/30/FiO2 100/peep 21
   TPP 1.9 to 10
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-23**] 10:00 AM
   Ceftriaxone - [**2143-7-23**] 04:30 PM
   Vancomycin - [**2143-7-23**] 07:49 PM
   Azithromycin - [**2143-7-24**] 08:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Cisatracurium - [**2143-7-23**] 08:39 AM
   Metoprolol - [**2143-7-24**] 05:00 AM
   Pantoprazole (Protonix) - [**2143-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-24**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.4
C (101.1
   HR: 104 (81 - 115) bpm
   BP: 97/62(74) {86/57(67) - 148/73(98)} mmHg
   RR: 30 (13 - 32) insp/min
   SpO2: 82%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 19 (14 - 24)mmHg
   Bladder pressure: 25 (17 - 27) mmHg
   Mixed Venous O2% Sat: 83 - 86
   Total In:
                                                                 14,414 mL
                                                                  2,775 mL
   PO:
   TF:
   IVF:
                                                                 12,234 mL
                                                                  2,655 mL
   Blood products:
   Total out:
                                                                    760 mL
                                                                     25 mL
   Urine:
                                                                    760 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 13,654 mL
                                                                  2,753 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Sao2 < 90%, Neuromusc Block
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 82%
   ABG: 7.18/56/54/22/-7
   Ve: 15.3 L/min
   PaO2 / FiO2: 54
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Poor pulses
   Respiratory / Chest: clear anteriorly
   Abdominal: Bowel sounds absent, protuberant, no ascitis
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: paralyzed
   Labs / Radiology
   12.2 g/dL
   169 K/uL
   134 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.8 mEq/L
   24 mg/dL
   103 mEq/L
   132 mEq/L
   38.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2143-7-23**]  07:19 PM
                             [**2143-7-23**]  09:57 PM
                             [**2143-7-23**]  10:06 PM
                             [**2143-7-24**]  12:35 AM
                             [**2143-7-24**]  02:33 AM
                             [**2143-7-24**]  02:49 AM
                             [**2143-7-24**]  03:28 AM
                             [**2143-7-24**]  06:00 AM
                             [**2143-7-24**]  06:03 AM
                             [**2143-7-24**]  07:47 AM
   WBC
   5.5
   6.2
   Hct
   38
   39.8
   38.9
   Plt
   159
   169
   Cr
   1.8
   2.3
   2.7
   TCO2
   22
   22
   22
   22
   21
   25
   22
   Glucose
   123
   106
   134
   Other labs: PT / PTT / INR:11.9/36.3/1.0, ALT / AST:38/70, Alk Phos / T
   Bili:177/0.9, Amylase / Lipase:26/16, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0
   mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.4 mg/dL
   Imaging: TTE: RVSP 38, 2+ TR, CVP 16
   CXR: worseing bilateral infiltrates
   Microbiology: Blood, urine: pend
   spu: no orgms
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Year (4 digits) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with [**Month/Day (2) 509**] with high PEEP.
   Influenza A +, presumed H1N1
   [**Month/Day (2) 509**], aspiration.
   > Multifocal pneumonia/Respiratory failure: Difficult to oxygenate and
   ventilate. More acidotic. Adjusting PEEP to keep PaO2> 55. Follow dead
   space on [**Last Name (un) **] and esophageal baloon TPP. Call renal to help with acid
   base status, CVVH. Order iNO, order sand bags and pronation bed.
   Discuss ECMO with attending. Continue antibiotics. Concerning for large
   volume aspiration followed by [**Last Name (un) 509**].
   -Continue vanc/CTX/azithromycin for Legionella coverage. As well as
   osaltamivir
   -Sputum culture pend
   - Check 1,3 glucan and GM.
   > Renal failure: CVVH
   > Hypotension: tanked up with fluids, start levophed.
   > Aflutter: check TSH, ? anticoagulation
   > Nausea and vomiting: absorbing meds well so far, no bloody returns.
   > Hyponatremia: likely hypovolemic hyponatremia responded well to
   hydration.
   >Microcytosis: check iron, hematocrit stable, but expect it will
   decrease following hydration. Guaiac stool
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: daily touch base
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr. [**Known lastname 3002**] remains incredibly ill without absolutely no reserve. His
   major issue continue to be [**Known lastname 509**], renal failure and shock.
   Exam notable for Tmax: 39.6
C (103.2
F) Tcurrent: 38.4
C (101.1
   HR: 104 (81 - 115) bpm  BP: 97/62(74) {86/57(67) - 148/73(98)} mmHg
   RR: 30 (13 - 32) insp/min  SpO2: unreliable    Heart rhythm: AF (Atrial
   Fibrillation)  CVP: 19 (14 - 24)mmHg
   Bladder pressure: 19 (17 - 27) mmHg  Mixed Venous O2% Sat: 70
   AC 30/480/30/1.0
   Intubated, paralyzed, sedated
   Right IJ
   Rhonchorous BS
   Irreg rhythm
   Abd distended
   Extreme minimal edema
   Labs notable for WBC 6K, HCT 39  , Na 132 , K+ 4.8  , HCO3 22  ,Cr 2.7
   ,lactate 1.0
   7.22/ 51/ 65
   Imaging: CXR bilateral in filtrates
   Problems: [**Name2 (NI) 509**], flu, severe hypoxemia, renal failure, shock, AF
   Agree with plan to continue vent support, abx, start renal replacement,
   change dopa to neo, consider prone positioning, consider cardioversion
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 65 min

2143-07-25 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal u/s w/o hydro
   cardioversion of afib successful
   dialysis catheter placed for CVVH, overnight CVVH no longer working
   likely related to a kink in the dialysis catheter
   Weaned off pressors
   Proning initiated and PaO2 increased, able to wean FiO2 to 40%, PEEP
   maintained at 30
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-23**] 10:00 AM
   Azithromycin - [**2143-7-24**] 08:00 AM
   Vancomycin - [**2143-7-24**] 01:15 PM
   Ceftriaxone - [**2143-7-24**] 04:00 PM
   Piperacillin - [**2143-7-25**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-25**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37
C (98.6
   HR: 102 (83 - 133) bpm
   BP: 123/73(88) {93/55(68) - 141/88(107)} mmHg
   RR: 30 (26 - 32) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 22 (5 - 25)mmHg
   Bladder pressure: 19 (19 - 25) mmHg
   Total In:
                                                                  5,834 mL
                                                                    509 mL
   PO:
   TF:
   IVF:
                                                                  5,714 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                      0 mL
   Urine:
                                                                     49 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,219 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 30 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 47 cmH2O
   Plateau: 36 cmH2O
   SpO2: 85%
   ABG: 7.32/43/156/20/-3
   Ve: 13.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: scattered ronchi diffusely in both lungs
   Extremities: WWP, mild bilat edema, symmetric
   Neurologic: intubated, sedated, paralyzed
   Skin: cool
   Labs / Radiology
   151 K/uL
   10.1 g/dL
   140 mg/dL
   3.2 mg/dL
   20 mEq/L
   4.4 mEq/L
   26 mg/dL
   102 mEq/L
   131 mEq/L
   31.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2143-7-24**]  02:55 PM
                             [**2143-7-24**]  05:22 PM
                             [**2143-7-24**]  05:47 PM
                             [**2143-7-24**]  07:16 PM
                             [**2143-7-24**]  07:36 PM
                             [**2143-7-24**]  08:06 PM
                             [**2143-7-24**]  08:38 PM
                             [**2143-7-24**]  11:50 PM
                             [**2143-7-25**]  02:27 AM
                             [**2143-7-25**]  02:48 AM
   WBC
   5.3
   Hct
   31.0
   Plt
   151
   Cr
   2.8
   3.2
   TCO2
   22
   21
   20
   22
   23
   22
   21
   23
   Glucose
   165
   140
   Other labs: PT / PTT / INR:12.4/35.4/1.0, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   1. Multifocal pneumonia/Respiratory failure:
   -likely H1N1 as Flu A has returned positive
   -f/u sputum culture, may have superinfection or worsened influenza in
   the setting of steroids
   -continue tamiflu, renally dose at 75mg daily
   -ID consult for consideration of other agents
   -difficult obtaining accurate pleth- will need frequent ABGs, increase
   PEEP to 25
   -attempt sandbagging with dialysis bags and nitric oxide, if fails then
   rotation bed and consideration o ECMO
   -calculate dead space and adjust PEEP using this and esophageal balloon
   measurements
   -ARDS net ventilation
   -difficulty controlling his pH- d/w renal CVVH
   -Currently paralyzed to maintain O2 saturation/synchronize with
   ventilator
   -standing tylenol for now, if needs cooling blanket will use
   # Hypotension:
   -start levophed for MAP > 65mmHg
   # ARF: unclear cause, urine lytes c/w pre renal cause
   -renal consult
   -likely needs CVVH
   -Q4hr lytes
   # Hyponatremia:
   -CVVH, renal consult
   # Atrial flutter: relatively well rate controlled
   -typical flutter
   -hold off on anticoagulation for now
   # Leukopenia: Initially leukopenic at admission
   -cannot currently consent patient for HIV testing
   # FEN: NPO pending stabilization of respiratory status, IVF
   resuscitation, following electrolytes
   #PPx: PPI, HSQ
   # Access: PIV, arterial line, likely to need CVL
   # Communication: wife
   # Code: Full
   # Disposition: ICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-24**] 11:01 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-07-25 09:04:00 Physician Attending Progress Note
Chief Complaint: [** 509**]
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2143-7-24**] 11:01 AM
 ULTRASOUND - At [**2143-7-24**] 01:00 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2143-7-24**] 03:20 PM
 FEVER - 101.3
C - [**2143-7-24**] 07:00 AM
   Cardioverted, started CVVH but had to stop overnight because of kinking
   with proning.
   FiO2 down to 40%.
   Dropped SBP this am, started on neo.
   Bicarb drip increased, pH improved.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-23**] 10:00 AM
   Azithromycin - [**2143-7-24**] 08:00 AM
   Vancomycin - [**2143-7-24**] 01:15 PM
   Ceftriaxone - [**2143-7-24**] 04:00 PM
   Piperacillin - [**2143-7-25**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-25**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 88 (83 - 133) bpm
   BP: 134/74(95) {93/55(68) - 141/88(107)} mmHg
   RR: 0 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 25 (5 - 25)mmHg
   Bladder pressure: 12 (12 - 19) mmHg
   Total In:
                                                                  5,834 mL
                                                                    740 mL
   PO:
   TF:
   IVF:
                                                                  5,714 mL
                                                                    740 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                      0 mL
   Urine:
                                                                     49 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,219 mL
                                                                    740 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 30 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 49 cmH2O
   Plateau: 44 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/38/106/20/-3
   Ve: 13.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Face disformed
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Poor pulses
   Respiratory / Chest: clear anteriorly
   Abdominal: Bowel sounds absent, protuberant, no ascitis
   Extremities: anasarca
   Skin:  Warm, punctate leion on R toe
   Neurologic: paralyzed
   Labs / Radiology
   10.1 g/dL
   151 K/uL
   140 mg/dL
   3.2 mg/dL
   20 mEq/L
   4.4 mEq/L
   26 mg/dL
   102 mEq/L
   131 mEq/L
   31.0 %
   5.3 K/uL
        [image002.jpg]
                             [**2143-7-24**]  05:47 PM
                             [**2143-7-24**]  07:16 PM
                             [**2143-7-24**]  07:36 PM
                             [**2143-7-24**]  08:06 PM
                             [**2143-7-24**]  08:38 PM
                             [**2143-7-24**]  11:50 PM
                             [**2143-7-25**]  02:27 AM
                             [**2143-7-25**]  02:48 AM
                             [**2143-7-25**]  05:57 AM
                             [**2143-7-25**]  07:58 AM
   WBC
   5.3
   Hct
   31.0
   Plt
   151
   Cr
   2.8
   3.2
   TCO2
   20
   22
   23
   22
   21
   23
   23
   22
   Glucose
   165
   140
   Other labs: PT / PTT / INR:12.4/35.4/1.0, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: Vanc 21.9
   Imaging: CXR: Improved! ETT high
   Microbiology: All cxs: neg
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Year (4 digits) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with [**Month/Day (2) 509**] with high PEEP.
   Influenza A +, presumed H1N1
   [**Month/Day (2) 509**], aspiration.
   - [**Month/Day (2) 509**]: much improved, FiO2 down to 40%, start weaning peep slowly down
   from 30, hold off on proning unless not improving. Paralysis break
   today. Advance ETT 2 cm.
   - ID: Abx: Continue vanc/zosyn/azithromycin for Legionella coverage. As
   well as osaltamivir. Follow vanc level.
   - Renal: Ventilating ok on CVVH, no UO, renal following. Consider lasix
   later today when off neo vs restart CVVH
   - Hypotension: mild, low dose neo, cardioverted yesterday. Lactate of
   2.3 drawn when he was hypotensive, follow.
   - Hyponatremia: mild, monitor
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-24**] 11:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: wife updated last night
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Dramatic oxygenation improvement with proning. CVVH has been held today
   and unfortunately he remains anuric. He has also required a resumption
   of low-dose pressors. Cardioverted and remains in sinus with
   significant ectopy.
   Exam notable for Tmax: 38
C (100.4
F)   Tcurrent: 37
C (98.6
   HR: 88 (83 - 133) bpm   BP: 134/74(95) {93/55(68) - 141/88(107)} mmHg
   RR: 30 (0 - 30) insp/min  SpO2: 97%  Heart rhythm: ST (Sinus
   Tachycardia)    CVP: 25 (5 - 25)mmHg
   Bladder pressure: 12 (12 - 19) mmHg
   AC 30/480/.[**6-2**]     7.30/ 38/ 81
   Intubated, sedated, paralyzed
   Edematous
   Coarse vented BS
   Tachy
   Abd benign
   Extrem
 less purple, warmer
   Labs today reviewed, recored above
   Imaging:  CXR ETT, and CVL OK, improved infiltrates
   Problems:   [**Name2 (NI) 509**], flu, respiratory failure, ARF, hypotension, increased
   abdominal pressure, AF
   Agree with plan to continue vent support, wean PEEP, prone as needed,
   cont CVVH, wean pressors as tolerated, follow cardiac rhythm
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 49 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2143-7-25**] 13:39 ------

2143-07-26 08:55:00 Physician Attending Progress Note
Chief Complaint: [** 509**]
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [** 509**], ARF on CVVH
   24 Hour Events:
   No proning x 24 hrs
   Peep down to 23 with FiO2 40%
   Paralysis off, on sedation
   CVVH cath malfunctioned
   No UO
   Off pressors this am
   Added Rimantidine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-23**] 10:00 AM
   Vancomycin - [**2143-7-24**] 01:15 PM
   Ceftriaxone - [**2143-7-24**] 04:00 PM
   Azithromycin - [**2143-7-25**] 10:55 AM
   Piperacillin - [**2143-7-26**] 06:01 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-25**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-26**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 89 (84 - 104) bpm
   BP: 116/64(79) {74/54(65) - 139/88(103)} mmHg
   RR: 7 (0 - 30) insp/min
   SpO2: 71%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 21 (16 - 39)mmHg
   Total In:
                                                                  2,459 mL
                                                                    427 mL
   PO:
   TF:
   IVF:
                                                                  2,399 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,459 mL
                                                                    427 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   Compliance: 68.6 cmH2O/mL
   SpO2: 71%
   ABG: 7.34/42/70/20/-2
   Ve: 14.2 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: good pulses
   Respiratory / Chest: clear anteriorly
   Abdominal: Bowel sounds present, protuberant
   Extremities: anasarca
   Skin:  Warm, stable punctate leion on R toe
   Neurologic: Rass - 5
   Labs / Radiology
   8.8 g/dL
   231 K/uL
   144 mg/dL
   5.2 mg/dL
   20 mEq/L
   4.6 mEq/L
   44 mg/dL
   98 mEq/L
   132 mEq/L
   27.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2143-7-25**]  02:06 PM
                             [**2143-7-25**]  03:04 PM
                             [**2143-7-25**]  03:53 PM
                             [**2143-7-25**]  04:06 PM
                             [**2143-7-25**]  06:26 PM
                             [**2143-7-25**]  09:45 PM
                             [**2143-7-26**]  12:48 AM
                             [**2143-7-26**]  03:48 AM
                             [**2143-7-26**]  06:15 AM
                             [**2143-7-26**]  08:01 AM
   WBC
   6.5
   8.0
   Hct
   30.3
   27.5
   Plt
   207
   231
   Cr
   4.4
   5.2
   TCO2
   22
   20
   19
   20
   21
   22
   23
   24
   Glucose
   137
   144
   Other labs: PT / PTT / INR:12.2/30.1/1.0, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Microbiology: No new data. Nothing positive so far
   CXR: improved aeration in L lung, R stable infiltrates, ETT high
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Year (4 digits) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with [**Month/Day (2) 509**] with high PEEP.
   Influenza A +, presumed H1N1
   [**Month/Day (2) 509**], aspiration.
   - [**Month/Day (2) 509**]: much improved, FiO2 down to 40%, peep down to 23, PaO2 70,
   hopefully will improve with CVVH. Advance ETT 2 cm when peep lower.
   Consider sedation holiday tomorrow.
   - ID: Abx: Continue vanc/zosyn/azithromycin/tamiflu/rimantidine. Follow
   vanc level. Will ID flu strain today. Check quantitative IgG level.
   - Renal: Needs new HD/CVVH line. Likely causing AG acidosis.
   - Hypotension: resolved.
   - Hyponatremia: mild, monitor
   - Afib: resolved
   ICU Care
   Nutrition:
   Comments: NPO for now, tube feeds later today or tomorrow
   Glycemic Control:  riss
   Lines:
   18 Gauge - [**2143-7-23**] 01:55 AM
   20 Gauge - [**2143-7-23**] 06:54 AM
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-24**] 11:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up c/i today, will assess
   tomorrow
   Comments:
   Communication:  Comments: wife updated last night
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Some futher signs of improvement from a resp standpoint. His PEEP is
   being weaned. Afebrile now for 48 hours. Remains anuric however. Off of
   pressors this morning.
   Exam notable for Tmax: 37.5
C (99.5
F)  Tcurrent: 37.5
C (99.5
   HR: 89 (84 - 104) bpm   BP: 116/64(79) {74/54(65) - 139/88(103)}
   mmHg    RR: 7 (0 - 30) insp/min   SpO2: 71%   Heart rhythm: SR (Sinus
   Rhythm)
    CVP: 21 (16 - 39)mmHg    fluid Balance:    2,459 mL    427 mL
    CMV 30/480/23/0.4      PIP: 37 cmH2O    Plateau: 34 cmH2O
   Compliance: 68.6 cmH2O/mL
   ABG: 7.34/42/70/20/-2       Ve: 14.2 L/min    PaO2 / FiO2: 175
   Intubated sedated, unresponsive
   Lung coarse
   Hrt rrr
   Abd mildly distended
   Extrem edema
   Labs reviewed, recorded above
   Imaging:  CXR stable bilateral infiltrates
   Problems: [**Name2 (NI) 509**], flu, respiratory failure, ARF
   Resolved problems: a-fib, shock
   Agree with plan to continue antibiotics, wean vent as tolerated,
   replace CVVH line
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2143-7-26**] 12:44 ------

2143-07-27 08:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2143-7-26**] 06:20 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-24**] 01:15 PM
   Ceftriaxone - [**2143-7-24**] 04:00 PM
   Azithromycin - [**2143-7-26**] 09:38 AM
   Piperacillin - [**2143-7-27**] 02:04 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-26**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-27**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 80 (75 - 107) bpm
   BP: 107/61(73) {90/51(64) - 137/109(112)} mmHg
   RR: 30 (23 - 30) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 24 (11 - 24)mmHg
   Total In:
                                                                  2,545 mL
                                                                  2,551 mL
   PO:
   TF:
                                                                     86 mL
   IVF:
                                                                  2,485 mL
                                                                  2,465 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                  2,647 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,432 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 40%
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 91%
   ABG: 7.40/37/62/24/0
   Ve: 18 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: good pulses
   Respiratory / Chest: clear anteriorly
   Abdominal: Bowel sounds present, protuberant
   Extremities: anasarca
   Skin:  Warm, stable punctate leion on R toe
   Neurologic: Rass - 5
   Labs / Radiology
   7.9 g/dL
   202 K/uL
   132 mg/dL
   4.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   42 mg/dL
   97 mEq/L
   133 mEq/L
   23.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2143-7-26**]  08:59 AM
                             [**2143-7-26**]  12:21 PM
                             [**2143-7-26**]  05:07 PM
                             [**2143-7-26**]  05:19 PM
                             [**2143-7-26**]  06:46 PM
                             [**2143-7-26**]  10:11 PM
                             [**2143-7-26**]  10:19 PM
                             [**2143-7-27**]  03:58 AM
                             [**2143-7-27**]  04:04 AM
                             [**2143-7-27**]  06:16 AM
   WBC
   7.8
   7.0
   Hct
   24.7
   23.9
   Plt
   219
   202
   Cr
   6.3
   5.3
   4.7
   TCO2
   22
   22
   24
   25
   24
   26
   24
   Glucose
   131
   137
   132
   Other labs: PT / PTT / INR:12.4/27.9/1.0, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with ARDS with high PEEP.
   Influenza A +, presumed H1N1
   ARDS, aspiration.
   - ARDS: much improved, FiO2 down to 40%, peep down to 23, PaO2 70,
   hopefully will improve with CVVH. Advance ETT 2 cm when peep lower.
   Consider sedation holiday tomorrow.
   - ID: Abx: Continue vanc/zosyn/azithromycin/tamiflu/rimantidine. Follow
   vanc level. Will ID flu strain today. Check quantitative IgG level.
   - Renal: Needs new HD/CVVH line. Likely causing AG acidosis.
   - Hypotension: resolved.
   - Hyponatremia: mild, monitor
   - Afib: resolved
   ICU Care
   Nutrition:
   Comments: NPO for now, tube feeds later today or tomorrow
   Glycemic Control:  riss
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up c/i today, will assess
   tomorrow
   Comments:
   Communication:  Comments: wife updated last night
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2143-07-27 11:04:00 Physician Attending Progress Note
Chief Complaint: [** 509**]
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [** 509**]
   24 Hour Events:
 DIALYSIS CATHETER - START [**2143-7-26**] 06:20 PM
   Peep 23, FiO2 40%
   Started back on CVVH
   HiNi will be back tomorrow.
   TF started
   Back in aflutter
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2143-7-24**] 04:00 PM
   Azithromycin - [**2143-7-26**] 09:38 AM
   Piperacillin - [**2143-7-27**] 08:00 AM
   Vancomycin - [**2143-7-27**] 08:30 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-27**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 80 (75 - 107) bpm
   BP: 113/61(75) {90/52(64) - 137/109(112)} mmHg
   RR: 34 (23 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 20 (11 - 24)mmHg
   Total In:
                                                                  2,545 mL
                                                                  3,503 mL
   PO:
   TF:
                                                                    108 mL
   IVF:
                                                                  2,485 mL
                                                                  3,395 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                  3,816 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,432 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 23 cmH2O
   FiO2: 40%
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/42/101/25/1
   Ve: 18 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: good pulses
   Respiratory / Chest: clear anteriorly
   Abdominal: Bowel sounds present, protuberant
   Extremities: anasarca
   Skin:  Warm, stable punctate leion on R toe
   Neurologic: Rass - 3
   Labs / Radiology
   7.9 g/dL
   202 K/uL
   175 mg/dL
   4.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   42 mg/dL
   97 mEq/L
   133 mEq/L
   23.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2143-7-26**]  05:19 PM
                             [**2143-7-26**]  06:46 PM
                             [**2143-7-26**]  10:11 PM
                             [**2143-7-26**]  10:19 PM
                             [**2143-7-27**]  03:58 AM
                             [**2143-7-27**]  04:04 AM
                             [**2143-7-27**]  06:16 AM
                             [**2143-7-27**]  08:44 AM
                             [**2143-7-27**]  09:50 AM
                             [**2143-7-27**]  10:04 AM
   WBC
   7.0
   Hct
   23.9
   Plt
   202
   Cr
   5.3
   4.7
   TCO2
   24
   25
   24
   26
   24
   28
   28
   Glucose
   137
   132
   175
   Other labs: PT / PTT / INR:12.4/27.9/1.0, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   IvIg: 476
   Imaging: CXR: ETT high but stable
   OG tube needs to b advanced
   Microbiology: Nothing new
   Assessment and Plan
 [**Year (4 digits) **], HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME ([**Year (4 digits) 509**], ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT [**Doctor Last Name **])
   65 year old male with hypox resp failure [**3-11**] multifocal infiltrates
   (?aspiration) and now with [**Month/Day (2) 509**] with high PEEP.
   Influenza A +, presumed H1N1
   [**Month/Day (2) 509**], aspiration.
   - [**Month/Day (2) 509**]: much improved, FiO2 down to 40%, peep down to 23, PaO2 101,
   hopefully will improve more with CVVH. Wean peep today. Advance ETT 2
   cm when peep lower. Consider sedation holiday tomorrow once Peep lower
   - ID: Abx: Continue vanc/zosyn/azithromycin/tamiflu (x 5 d)/rimantidine
   x 8 days. Follow vanc level, 13.6 today. Will ID flu strain tomorrow.
   Quantitative IgG level 476, give one dose.
   - Renal: ATN with sepsis. Goal neg on CVVH.
   - Afib: recurred. Cardioversion vs heparinization.
   - GI: needs bowel regimen
   ICU Care
   Nutrition: tolerating TF, advance as tolerated
   Glycemic Control:  riss
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: wife updated last night
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Exam notable for Tmax: 37.5
C (99.5
F)  Tcurrent: 37.5
C (99.5
   HR: 70-100 bpm   BP: 90-140/60-90   RR: 30
    CVP: 21 (16 - 39)mmHg    fluid Balance:    2,459 mL    427 mL
    CMV 480x 30 /23/0.4
   ABG: 7.41/42/101/20
   Intubated sedated, unresponsive except does cough when stim.
   Lung coarse
   Hrt rrr
   Abd mildly distended
   Extrem $+ edema
   Labs reviewed, recorded above
   Problems: [**Name2 (NI) 509**], flu, respiratory failure, ARF, aflutter
   Resolved problems: [**Name2 (NI) 281**]
   Agree with plan to
   1.       Resp Failure: continue try to wean PEEP, ongoing antibiotics,
   and CVVH to diuresis
   2.       Recurrent afluitter: start heparin if does not convert
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 90**] [**Last Name (NamePattern1) 385**], MD
   on:[**2143-7-27**] 14:42 ------

2143-07-29 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2143-7-28**] 02:35 PM
   -Paralytics discontinued at 10 am, but had hiccups unresponsive to
   sedation. Reparalyzed at 4:30 am.
   -PEEP decreased to 19 but sats dropped, so increased to 21. Desats with
   turning and dysynchrony
   -Has breakdown on coccyx and lesions on heels--? deep tissue injury
   -150-200 cc/hr fluid removal
   -Had BMs
   -ID recs: d/c rimantidine, Swine flu not seasonal, last day of
   Azithromycin. Case reports of low Ig level in setting of influenza, if
   sicker, can consider IVIg
   -Renal recs: goal negative 3L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-7-27**] 02:00 PM
   Vancomycin - [**2143-7-28**] 08:45 AM
   Azithromycin - [**2143-7-28**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-29**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 6.9 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Fentanyl - 300 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-29**] 12:08 AM
   Fentanyl - [**2143-7-29**] 03:03 AM
   Midazolam (Versed) - [**2143-7-29**] 03:24 AM
   Cisatracurium - [**2143-7-29**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-29**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 83 (66 - 103) bpm
   BP: 99/55(68) {94/50(63) - 170/99(110)} mmHg
   RR: 30 (12 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (12 - 20)mmHg
   Total In:
                                                                  8,040 mL
                                                                  2,244 mL
   PO:
   TF:
                                                                    470 mL
                                                                    120 mL
   IVF:
                                                                  7,510 mL
                                                                  2,094 mL
   Blood products:
   Total out:
                                                                 13,134 mL
                                                                  3,409 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,094 mL
                                                                 -1,165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 35 cmH2O
   Compliance: 34.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/42/114/25/3
   Ve: 13.9 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress, edematous
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   274 K/uL
   9.1 g/dL
   125 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   19 mg/dL
   95 mEq/L
   135 mEq/L
   27.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2143-7-28**]  10:39 AM
                             [**2143-7-28**]  12:29 PM
                             [**2143-7-28**]  04:05 PM
                             [**2143-7-28**]  04:30 PM
                             [**2143-7-28**]  06:09 PM
                             [**2143-7-28**]  10:01 PM
                             [**2143-7-28**]  10:11 PM
                             [**2143-7-29**]  03:51 AM
                             [**2143-7-29**]  04:01 AM
                             [**2143-7-29**]  06:10 AM
   WBC
   5.7
   7.8
   Hct
   25.0
   27.1
   Plt
   198
   274
   Cr
   3.1
   2.9
   2.7
   TCO2
   29
   29
   28
   30
   35
   30
   29
   Glucose
   129
   138
   125
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1
   -Intermittently requires paralytics to sync with vent and maintain
   oxygenation
   -when desyncs with vent, BP will increase and will
   flash
sedation/paralytics as necessary
   -aggressive diuresis has not stabilized oxygen requirement
   -continue sedation, attempt to hold paralysis
   -attempt to wean PEEP w/ goal PaO2 65-70
   -continue treatment for influenza A with ramantidine as well as for
   H1NI with tamiflu x 10 days
   -continue vanc / zosyn for total 10 day course
   -ARDS net ventilation
   # ARF: ATN
   -tolerating CVVH and taking off fluid aggressively. If CVVH machine
   goes down, consider transition to HD
   -appreciate renal recs
   # Atrial fibrillation / atrial flutter:
   -is now in sinus rhythm, monitor on tele
   # FEN: -tube feeds
   -tid lytes, start tube feedings later today or tomorrow, follow
   residuals
   #PPx: PPI, HSQ
   # Access: PIV, arterial line, CVL, HD catheter
   # Communication: wife
   # Code: Full
   ICU Care
   Nutrition:  TF
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-07-29 09:54:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo mans with influenza A H1N1, multifocal PNA, ARDS, on high PEEP.
   Course c/b ATN due to sepsis on CVVH.  Also intermittently on
   paralytics, was proned for 1 day.  Was off paralytics, but began having
   dysynchrony and hiccuping.  Starting desating and hypertensive and
   tachycardic, despite sedation boluses and required paralysis.
   24 Hour Events:
   Starting having BMs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-7-27**] 02:00 PM
   Vancomycin - [**2143-7-28**] 08:45 AM
   Azithromycin - [**2143-7-28**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-29**] 09:03 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Midazolam (Versed) - 7 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2143-7-29**] 03:03 AM
   Cisatracurium - [**2143-7-29**] 04:16 AM
   Midazolam (Versed) - [**2143-7-29**] 09:02 AM
   Pantoprazole (Protonix) - [**2143-7-29**] 09:03 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-29**] 09:03 AM
   Other medications:
   heparin
   tamiflu
   SSI
   senna/colace
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-29**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (66 - 103) bpm
   BP: 108/89(98) {99/55(68) - 170/99(110)} mmHg
   RR: 30 (19 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 18 (12 - 20)mmHg
   Total In:
                                                                  8,276 mL
                                                                  3,447 mL
   PO:
   TF:
                                                                    470 mL
                                                                    120 mL
   IVF:
                                                                  7,746 mL
                                                                  3,267 mL
   Blood products:
   Total out:
                                                                 13,134 mL
                                                                  4,885 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,858 mL
                                                                 -1,438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/42/114/25/3
   Ve: 14.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: redness on heels and coccyx, extremitis cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   274 K/uL
   125 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   19 mg/dL
   95 mEq/L
   135 mEq/L
   27.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2143-7-28**]  10:39 AM
                             [**2143-7-28**]  12:29 PM
                             [**2143-7-28**]  04:05 PM
                             [**2143-7-28**]  04:30 PM
                             [**2143-7-28**]  06:09 PM
                             [**2143-7-28**]  10:01 PM
                             [**2143-7-28**]  10:11 PM
                             [**2143-7-29**]  03:51 AM
                             [**2143-7-29**]  04:01 AM
                             [**2143-7-29**]  06:10 AM
   WBC
   5.7
   7.8
   Hct
   25.0
   27.1
   Plt
   198
   274
   Cr
   3.1
   2.9
   2.7
   TCO2
   29
   29
   28
   30
   35
   30
   29
   Glucose
   129
   138
   125
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   Microbiology: [**7-23**] and [**7-24**] NGTD
   Assessment and Plan
   Respiratory failure:  H1N1 flu with ARDS.  Will try to stop paralytics
   again and see if he tolerates.  Try just bolus of cisatracurium if
   needed.
   Decrease PEEP
   Renal failure:  will stop CVVH and try intermittent hemodialysis.
   Continue to try and remove fluid.
   restart TF
   PNA: 10 day course of antibiiotics
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-07-30 05:22:00 Physician Resident Progress Note
24 Hour Events:
   - bolused paralytics and remained off paralytics
   - decreased PEEP 16, RR 26
   - c. diff +, started po vancomycin
   - renal: start HD, vanco 500 mg IV x 1 since vanc level low
   - ID: vanc/zosyn/oseltamavir x 10 days, po vanc x 14 days
   - ETT advanced
   - TF re-started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-7-27**] 02:00 PM
   Azithromycin - [**2143-7-28**] 10:45 AM
   Vancomycin - [**2143-7-29**] 02:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-30**] 02:45 AM
   Infusions:
   Midazolam (Versed) - 9 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-7-29**] 09:02 AM
   Pantoprazole (Protonix) - [**2143-7-29**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-30**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 77 (72 - 90) bpm
   BP: 123/64(83) {99/52(67) - 157/94(107)} mmHg
   RR: 31 (22 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 16 (8 - 21)mmHg
   Total In:
                                                                  5,091 mL
                                                                    344 mL
   PO:
   TF:
                                                                    180 mL
                                                                    161 mL
   IVF:
                                                                  4,731 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  6,272 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,181 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/40/85.[**Numeric Identifier 126**]/24/4
   Ve: 14.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress, edematous though improved
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube,
   does not track
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, though
   improved
   Extremities: Right: 2+, Left: 2+, mottling improved
   Skin:  bruising on heels
   Neurologic: does not follow commands, sedated
   Labs / Radiology
   274 K/uL
   9.1 g/dL
   124 mg/dL
   2.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   94 mEq/L
   133 mEq/L
   27.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2143-7-29**]  03:51 AM
                             [**2143-7-29**]  04:01 AM
                             [**2143-7-29**]  06:10 AM
                             [**2143-7-29**]  09:52 AM
                             [**2143-7-29**]  10:04 AM
                             [**2143-7-29**]  12:44 PM
                             [**2143-7-29**]  03:34 PM
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  05:17 AM
   WBC
   7.8
   Hct
   27.1
   Plt
   274
   Cr
   2.7
   2.6
   TCO2
   30
   29
   30
   30
   30
   29
   29
   30
   Glucose
   125
   124
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1
   -Intermittently requires paralytics to sync with vent and maintain
   oxygenation
but tolerates this well
   -when desyncs with vent, BP will increase and will
   flash
sedation/paralytics as necessary
   -aggressive diuresis as remains 14L positive
being transitioned to HD
   -attempt to wean PEEP/FiO2 w/ goal PaO2 65-70
   -continue treatment for H1N1 with tamiflu x 10 days
   -continue vanc / zosyn for total 10 day course
   -decreased resp rate following ABGs
   # ARF: ATN
   -transitioning to HD today, CVVH stopped yesterday. Renal following,
   appreciate recommendations.
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor
   # C.difficle colitis: on po vancomycin for plan 14 day course.
   # FEN:
   -on tube feeds, having stool, following lytes on CVVH
   #PPx: PPI, HSQ
   # Access: PIV, arterial line, CVL, HD catheter
   # Communication: wife
   # Code: Full
   ICU Care
   Nutrition:
   Nutren 2.0 ([**2-8**]) - [**2143-7-29**] 06:00 PM 30 mL/hour
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2143-07-30 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with Influenza PNA, ARDS, ARF.
   24 Hour Events:
   Required boluses of paralytic overnight for periodic dysynchrony with
   ventilator
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-7-27**] 02:00 PM
   Azithromycin - [**2143-7-28**] 10:45 AM
   Vancomycin - [**2143-7-29**] 02:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-30**] 02:45 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-29**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-30**] 12:00 AM
   Other medications:
   tamiflu
   acetaminophen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-30**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 81 (72 - 90) bpm
   BP: 126/67(87) {102/52(67) - 157/94(107)} mmHg
   RR: 33 (22 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 16 (8 - 21)mmHg
   Total In:
                                                                  5,091 mL
                                                                    541 mL
   PO:
   TF:
                                                                    180 mL
                                                                    276 mL
   IVF:
                                                                  4,731 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  6,272 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,181 mL
                                                                    541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 75%
   PIP: 28 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/40/85.[**Numeric Identifier 126**]/26/4
   Ve: 13.1 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed, opens eyes with stimulation
   Labs / Radiology
   7.6 g/dL
   242 K/uL
   117 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   32 mg/dL
   96 mEq/L
   133 mEq/L
   23.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2143-7-29**]  04:01 AM
                             [**2143-7-29**]  06:10 AM
                             [**2143-7-29**]  09:52 AM
                             [**2143-7-29**]  10:04 AM
                             [**2143-7-29**]  12:44 PM
                             [**2143-7-29**]  03:34 PM
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
   WBC
   5.7
   Hct
   23.0
   Plt
   242
   Cr
   2.6
   4.2
   TCO2
   30
   29
   30
   30
   30
   29
   29
   30
   Glucose
   124
   117
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure/ARDS/Influenza PNA:  slow but steady progression.
   Continue to wean Peep as tolerated.  Continue tamiflu and antibiotics
   as per ID
   renal failure:  Transitioned to HD
   AF/flutter:  No HD compromise.  Continue lopressor
   C. diff:  on PO vanco
   anemia:  Hct drop today
   ICU Care
   Nutrition:
   Nutren 2.0 ([**2-8**]) - [**2143-7-29**] 06:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-7-23**] 12:09 PM
   Arterial Line - [**2143-7-23**] 07:58 PM
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-07-31 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2143-7-30**] 07:19 PM
 MULTI LUMEN - STOP [**2143-7-30**] 08:00 PM
 BLOOD CULTURED - At [**2143-7-30**] 08:00 PM
   BC x 2 (R IJ TLC & PERIPHERAL)
 FEVER - 101.3
F - [**2143-7-30**] 04:00 PM
   -continued to wean PEEP to 15, attempted 13 but sats dropped to 88%
   -T 100.3 axillary, R IJ w/ patient's drool on it, discontinued R IJ and
   A line, cuff pressures correlate, sat probe working well.  3 x PIV,
   plan for PICC tomorrow, cultures sent
   -vanc level high so vanc not dosed, recheck w/ next HD
   -3L net fluid removal w/ HD
   -zosyn dosing changed as pt now on HD
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2143-7-28**] 10:45 AM
   Vancomycin - [**2143-7-31**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-31**] 04:00 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2143-7-31**] 12:00 AM
   Fentanyl - [**2143-7-31**] 04:00 AM
   Midazolam (Versed) - [**2143-7-31**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-31**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 91 (78 - 102) bpm
   BP: 125/55(73) {97/45(57) - 134/72(84)} mmHg
   RR: 22 (17 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (4 - 17)mmHg
   Total In:
                                                                  1,683 mL
                                                                    542 mL
   PO:
   TF:
                                                                    762 mL
                                                                    224 mL
   IVF:
                                                                    832 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 27 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 92%
   ABG: 7.43/41/104/25/2
   Ve: 13.6 L/min
   PaO2 / FiO2: 189
   Physical Examination
   General Appearance: No acute distress, edematous though improved
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube,
   does not track
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, though
   improved
   Extremities: Right: 2+, Left: 2+, mottling improved
   Skin:  bruising on heels
   Neurologic: does not follow commands, sedated
   Labs / Radiology
   300 K/uL
   8.1 g/dL
   124 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2143-7-29**]  12:44 PM
                             [**2143-7-29**]  03:34 PM
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
   WBC
   5.7
   5.5
   Hct
   23.0
   24.6
   25.1
   Plt
   242
   300
   Cr
   4.2
   5.7
   TCO2
   30
   30
   29
   29
   30
   26
   28
   Glucose
   117
   124
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1
   -Intermittently requires paralytics to sync with vent and maintain
   oxygenation
but tolerates this well
   -when desyncs with vent, BP will increase and will
   flash
sedation/paralytics as necessary
   -aggressive diuresis as remains positive, tolerated HD yesterday.
   -attempt to wean PEEP/FiO2 w/ goal PaO2 65-70
down to PEEP of 14 and
   FIO2 of 55%--follow pleth as A-line removed
   -continue treatment for H1N1 with tamiflu x 10 days (last dose 6/25)
   -continue vanc / zosyn for total 10 day course (last dose 6/25)
   -d/c standing tylenol
   # ARF: ATN with continued no urine output
   -transitioned to HD yesterday. Renal following, appreciate
   recommendations. Plan for HD per renal
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor, remains hemodynamically stable
   # C.difficle colitis: on po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   -stool output is stabilizing , may need to increase dose of po
   vancomycin
   # Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy.
   -transfusion threshold <21
   # FEN:  on tube feeds, stooling d/t C. diff, lytes by HD.
   #PPx: PPI, HSQ
   # Access: a-line, CVL removed and cultured. Plan for PICC placement
   today.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**2-8**]) - [**2143-7-31**] 12:59 AM 45 mL/hour
   Glycemic Control:  RISS
   Lines:
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   20 Gauge - [**2143-7-30**] 07:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2143-07-31 08:55:00 Physician Attending Progress Note
Chief Complaint: HiNi flu, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2143-7-30**] 09:00 AM
 EKG - At [**2143-7-30**] 10:41 AM
 ARTERIAL LINE - STOP [**2143-7-30**] 07:19 PM
 MULTI LUMEN - STOP [**2143-7-30**] 08:00 PM
 BLOOD CULTURED - At [**2143-7-30**] 08:00 PM
   BC x 2 (R IJ TLC & PERIPHERAL)
 FEVER - 101.3
F - [**2143-7-30**] 04:00 PM: pancx, lines removed. Good
   peripherals, picc today
   Peep down to 14, FiO2 55%
   Vanc HD dosed
   3L fluid removed at HD yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2143-7-28**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-31**] 04:00 AM
   Vancomycin - [**2143-7-31**] 06:21 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Fentanyl - [**2143-7-31**] 04:00 AM
   Midazolam (Versed) - [**2143-7-31**] 04:13 AM
   Pantoprazole (Protonix) - [**2143-7-31**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-31**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-7-31**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 93 (78 - 102) bpm
   BP: 140/71(89) {97/45(57) - 146/72(89)} mmHg
   RR: 24 (17 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 15 (4 - 17)mmHg
   Total In:
                                                                  1,683 mL
                                                                    838 mL
   PO:
   TF:
                                                                    762 mL
                                                                    332 mL
   IVF:
                                                                    832 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,317 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 14 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   SpO2: 94%
   ABG: 7.43/41/104/25/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 189
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, R toe mottled, stable
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   300 K/uL
   124 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2143-7-29**]  12:44 PM
                             [**2143-7-29**]  03:34 PM
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
   WBC
   5.7
   5.5
   Hct
   23.0
   24.6
   25.1
   Plt
   242
   300
   Cr
   4.2
   5.7
   TCO2
   30
   30
   29
   29
   30
   26
   28
   Glucose
   117
   124
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1
   - Tolerating vent wean well, decrease FiO2 before Peep today, did not
   require paralysis overnight
   - continue HD to take fluid off
   -continue treatment for H1N1 with tamiflu x 10 days
   -continue vanc / zosyn for total 10 day course, follow vanc levels
   # ARF: ATN
   - on HD, no sign of kidney improvement.
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor
   # C.difficle colitis: on po vancomycin for plan 14 day course after end
   of antibiotics
   # Fever: all lines d/ced yesterday, no fever since. d/c standing
   tylenol. Picc line today. F/u cultures.
   # FEN:
   -on tube feeds at goal, having  fair stool output, following daily
   lytes
   #PPx: PPI, HSQ
   # Access: PIV, HD catheter, for picc today
   # Communication: wife
   # Code: Full
   ICU Care
   Nutrition:
   Nutren 2.0 ([**2-8**]) - [**2143-7-31**] 12:59 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   20 Gauge - [**2143-7-30**] 07:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 691**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize: 65 yo man
   with H1N1 flu, c/b ARDS, ARF.  Slow improvement.  Continue to wean down
   on PEEP and sedation.
   O/E:  Sedated.  TM 101.3
   Unresponsive
   Lungs: b/l rhonchi
   CV:  RRR, S1, S2
   Abd:  Soft
   Ext: 2+ Edema
   A/P:
   ARDS/H1N1:  complete antibiotics course, continue to wean FiO2 and
   remove fluid
   ARF:  To get HD today.  Get fluid off as tolerated
   C. diff:  Continue vanco
   Fever:  spike yesterday.  Lines d/ced.  No further temp spikes.
   CC 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2143-7-31**] 11:52 ------

2143-08-01 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PEEP down to 14, then trial of 12/50%
   -PICC placed
   -ID recs: no new
   -Renal: U/F today for 3 kg removal. If we want fluid off more
   aggressively will need to restart CVVHD.  Weight pending, need to zero
   bed.  HD catheter not working well, tPA ordered.
   -Temp to 101.2 at 9 pm, cultured
   -wakes aggressively, started seroquel, will need to discuss sedation
   plan as we wake patient up
   -Rash noted in groin and on back
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-31**] 06:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-31**] 04:02 PM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-7-31**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2143-7-31**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-1**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.1
C (100.5
   HR: 88 (83 - 105) bpm
   BP: 120/52(68) {94/48(58) - 154/77(94)} mmHg
   RR: 24 (23 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,121 mL
                                                                    709 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    312 mL
   IVF:
                                                                    799 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,179 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 11 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 53.3 cmH2O/mL
   SpO2: 97%
   ABG: ///23/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   7.9 g/dL
   147 mg/dL
   7.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   52 mg/dL
   100 mEq/L
   139 mEq/L
   24.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
   WBC
   5.7
   5.5
   6.5
   Hct
   23.0
   24.6
   25.1
   24.4
   Plt
   [**Telephone/Fax (3) 8405**]
   Cr
   4.2
   5.7
   6.6
   7.6
   TCO2
   29
   29
   30
   26
   28
   Glucose
   117
   124
   153
   147
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1
   -Intermittently requires paralytics to sync with vent and maintain
   oxygenation
but tolerates this well
   -when desyncs with vent, BP will increase and will
   flash
sedation/paralytics as necessary
   -aggressive diuresis as remains positive, tolerated HD yesterday.
   -attempt to wean PEEP/FiO2 w/ goal PaO2 65-70
down to PEEP of 14 and
   FIO2 of 55%--follow pleth as A-line removed
   -continue treatment for H1N1 with tamiflu x 10 days (last dose 6/25)
   -continue vanc / zosyn for total 10 day course (last dose 6/25)
   -d/c standing tylenol
   # ARF: ATN with continued no urine output
   -transitioned to HD yesterday. Renal following, appreciate
   recommendations. Plan for HD per renal
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor, remains hemodynamically stable
   # C.difficle colitis: on po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   -stool output is stabilizing , may need to increase dose of po
   vancomycin
   # Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy.
   -transfusion threshold <21
   # FEN:  on tube feeds, stooling d/t C. diff, lytes by HD.
   #PPx: PPI, HSQ
   # Access: a-line, CVL removed and cultured. Plan for PICC placement
   today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-1**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   20 Gauge - [**2143-7-30**] 07:26 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-01 11:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with influenza PNA, ARDS.
   Continuing to wean PEEP
   24 Hour Events:
 PICC LINE - START [**2143-7-31**] 10:45 AM
 FEVER - 101.2
F - [**2143-7-31**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-7-31**] 06:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-7-31**] 04:02 PM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-1**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 108 (83 - 108) bpm
   BP: 147/59(80) {94/47(58) - 154/69(87)} mmHg
   RR: 28 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,121 mL
                                                                  1,073 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    495 mL
   IVF:
                                                                    799 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,179 mL
                                                                  1,073 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 701 (701 - 701) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 53.3 cmH2O/mL
   SpO2: 97%
   ABG: ///23/
   Ve: 12 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: over flanks, groin folds
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   275 K/uL
   147 mg/dL
   7.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   52 mg/dL
   100 mEq/L
   139 mEq/L
   24.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-7-29**]  06:44 PM
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
   WBC
   5.7
   5.5
   6.5
   Hct
   23.0
   24.6
   25.1
   24.4
   Plt
   [**Telephone/Fax (3) 8405**]
   Cr
   4.2
   5.7
   6.6
   7.6
   TCO2
   29
   29
   30
   26
   28
   Glucose
   117
   124
   153
   147
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:64.5 %,
   Band:0.0 %, Lymph:33.3 %, Mono:1.2 %, Eos:0.6 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Respiratory failure:  H1N1 influenza ARDS.  Try PSV ventilation.
   Acute renal failure:  HD catheter clogged, may need change will
   Rash:  Could be drug rash, but is in areas of mechanical stress so will
   ill try antifungal in groin area and just watch for now.
   Sedation:  Try seroquel to control agitation.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-1**] 12:00 AM 45.[**Telephone/Fax (3) 8411**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-7-26**] 06:20 PM
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-08-02 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-8-1**] 08:00 AM
 DIALYSIS CATHETER - STOP [**2143-8-1**] 05:00 PM
 DIALYSIS CATHETER - START [**2143-8-1**] 05:45 PM
 BLOOD CULTURED - At [**2143-8-2**] 12:29 AM
 FEVER - 101.7
F - [**2143-8-1**] 10:00 PM
   - PEEP up to 12, FiO2 60% after IR procedure
   - Increased seroquel
   - ID recs: d/c vancomycin (done), d/c all other abx today on [**8-2**],
   continue po vanco x 14 days
   - decreased fentanyl, started methadone cross-over, will need to start
   weaning down versed in 24-48 days
   - Went to IR and had HD temp catheter changed over with tip culture
   pending
   - cultured overnight for 101.2
   - SBP in high 80s-low 90s --> likely med effect as still on fentanyl,
   versed, got methadone load and seroquel --> bolused 250 cc with BP back
   to 110s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 188 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-2**] 12:08 AM
   Methadone Hydrochloride - [**2143-8-2**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-2**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.5
   HR: 95 (90 - 108) bpm
   BP: 98/53(64) {86/38(50) - 158/67(85)} mmHg
   RR: 19 (16 - 33) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,004 mL
                                                                    550 mL
   PO:
             TF:
                                                                    882 mL
                                                                    266 mL
   IVF:
                                                                    502 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,304 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 480) mL
   Vt (Spontaneous): 675 (600 - 709) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 27
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 91%
   ABG: ///24/
   Ve: 13.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   7.5 g/dL
   144 mg/dL
   9.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   66 mg/dL
   101 mEq/L
   140 mEq/L
   24.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
   WBC
   5.7
   5.5
   6.5
   7.6
   Hct
   23.0
   24.6
   25.1
   24.4
   24.3
   Plt
   [**Telephone/Fax (3) 8421**]91
   Cr
   4.2
   5.7
   6.6
   7.6
   9.8
   TCO2
   29
   30
   26
   28
   Glucose
   117
   124
   153
   147
   144
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure: has H1N1.
   -finish last doses of abx today and d/c in a.m.
   -f/u ID recs
   -HD for ARF and fluid removal
   -culture if spikes
   -fevers likely drug reaction given diffuse maculopapular rash and time
   course, continue to f/u cultures and add abx is hemodynamically
   unstable
   # ARF: ATN with continued no urine output
   -transitioned to HD. Renal following, appreciate recommendations. Plan
   for HD per renal
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor, remains hemodynamically stable
   # C.difficle colitis: on po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   -stool output is stabilizing , may need to increase dose of po
   vancomycin
   # Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy.
   -transfusion threshold <21
   # FEN:  on tube feeds, stooling d/t C. diff, lytes by HD.
   # Sedation:
   -wean fentanyl and versed quickly as transition onto methadone and
   ativan to avoid withdrawal
   #PPx: PPI, HSQ
   # Access  PICC
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-2**] 02:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-02 10:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with Influenza PNA, ARDS, ARF.  Had HD catheter changed
   yesterday.  Required increase in Peep.
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-8-1**] 08:00 AM
 DIALYSIS CATHETER - STOP [**2143-8-1**] 05:00 PM
 DIALYSIS CATHETER - START [**2143-8-1**] 05:45 PM
 BLOOD CULTURED - At [**2143-8-2**] 12:29 AM
 FEVER - 101.7
F - [**2143-8-1**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 140 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2143-8-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-8-2**] 08:00 AM
   Methadone Hydrochloride - [**2143-8-2**] 08:00 AM
   Other medications:
   seroquel
   hep s/q
   chlorhex
   tamiflu
   SSI
   lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-2**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 101 (90 - 108) bpm
   BP: 108/56(69) {86/38(50) - 158/67(85)} mmHg
   RR: 17 (16 - 33) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 70 Inch
             Total In:
                                                                  2,004 mL
                                                                    881 mL
   PO:
             TF:
                                                                    882 mL
                                                                    446 mL
   IVF:
                                                                    502 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,304 mL
                                                                    881 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 480) mL
   Vt (Spontaneous): 677 (600 - 709) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 92%
   ABG: ///24/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: over flanks and now over belly
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   291 K/uL
   144 mg/dL
   9.8 mg/dL
   24 mEq/L
   4.4 mEq/L
   66 mg/dL
   101 mEq/L
   140 mEq/L
   24.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-7-29**]  09:50 PM
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
   WBC
   5.7
   5.5
   6.5
   7.6
   Hct
   23.0
   24.6
   25.1
   24.4
   24.3
   Plt
   [**Telephone/Fax (3) 8421**]91
   Cr
   4.2
   5.7
   6.6
   7.6
   9.8
   TCO2
   29
   30
   26
   28
   Glucose
   117
   124
   153
   147
   144
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure:  continue to wean peep
   Fever:  with evidence of drug rash will top all antibiotics
   renal failure:  to get HD today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-2**] 02:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-03 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.5
F - [**2143-8-2**] 08:00 PM
   -dialyzed- 3.2 liters removed, limited by low SBPs in the 80s to 90s
   during dialysis
   -sedation stopped, only on standing methadone, methadone dose weaned to
   10mg po q6hrs
   -foley discontinued w/ plan for straight cath q12 hours
   -PEEP weaned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2143-8-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-8-3**] 12:00 AM
   Methadone Hydrochloride - [**2143-8-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-3**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.9
C (100.3
   HR: 104 (92 - 114) bpm
   BP: 132/59(76) {95/45(58) - 139/64(89)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 84.5 kg
   Height: 70 Inch
    Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  1,785 mL
                                                                    484 mL
   PO:
   TF:
                                                                  1,083 mL
                                                                    281 mL
   IVF:
                                                                    452 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      7 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 699 (677 - 772) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 23 cmH2O
   SpO2: 90%
   ABG: ///25/
   Ve: 16.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   8.5 g/dL
   151 mg/dL
   9.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   62 mg/dL
   102 mEq/L
   140 mEq/L
   27.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
   WBC
   5.7
   5.5
   6.5
   7.6
   8.9
   Hct
   23.0
   24.6
   25.1
   24.4
   24.3
   27.0
   Plt
   [**Telephone/Fax (3) 8421**]91
   301
   Cr
   4.2
   5.7
   6.6
   7.6
   9.8
   9.0
   TCO2
   30
   26
   28
   Glucose
   117
   124
   153
   147
   144
   151
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure.
   #. Multifocal pneumonia/Respiratory failure/Fever: has H1N1 off
   oseltamivir and off all antibiotics.
   -f/u ID recs--? Signficance of mold in sputum and ongoing fevers
   -HD for ARF and fluid removal
removed 3.2 liters yesterday
   -continuing to culture with spikes, but no positive cx to date except
   C.difficle, all lines have been removed/changed and no growth from tip.
   -fevers possibly due drug reaction given diffuse maculopapular rash and
   time course, continue to f/u cultures and add abx is hemodynamically
   unstable-off antibiotics except po vancomycin.
   -VBG
   -Check LFTs
   # ARF: ATN with continued no urine output
   -transitioned to HD. Renal following, appreciate recommendations. Plan
   for HD/UF per renal
   -Foley removed, straight cath q12 hours
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor, remains hemodynamically stable
   # C.difficle colitis: on po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   -stool output is stabilized
   # Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy.
   -transfusion threshold <21
   # FEN:  on tube feeds
hold TF at midnight for consideration of
   extubation, stooling d/t C. diff, lytes by HD.
   # Sedation:  on methadone only for now, bolus fentanyl/versed as
   necessary .
   -remains very sedated, d/c methadone and use presedex/propofol as
   necessary in order to wake pt.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-3**] 12:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-03 08:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Fever 102.5
F - [**2143-8-2**] 08:00 PM
   - PEEP weaned from 12 to 7
   - S/p HD with 3.2 L removed (now at admission weight)
   - Off sedation, weaning standing methadone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-3**] 12:00 AM
   Methadone Hydrochloride - [**2143-8-3**] 04:00 AM
   Midazolam (Versed) - [**2143-8-3**] 08:38 AM
   Fentanyl - [**2143-8-3**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-3**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.5
C (101.3
   HR: 93 (92 - 114) bpm
   BP: 131/62(79) {95/45(58) - 139/64(89)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.3 kg (admission): 84.5 kg
   Height: 70 Inch
   Mixed Venous O2% Sat: 62 - 62
   Total In:
                                                                  1,785 mL
                                                                    743 mL
   PO:
   TF:
                                                                  1,083 mL
                                                                    396 mL
   IVF:
                                                                    452 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                      7 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                    737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (541 - 772) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///25/
   Ve: 19.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: Diffuse maculopapular
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Opens eyes, but not following commands
   Labs / Radiology
   8.5 g/dL
   301 K/uL
   151 mg/dL
   9.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   62 mg/dL
   102 mEq/L
   140 mEq/L
   27.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2143-7-30**]  04:01 AM
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
   WBC
   5.7
   5.5
   6.5
   7.6
   8.9
   Hct
   23.0
   24.6
   25.1
   24.4
   24.3
   27.0
   Plt
   [**Telephone/Fax (3) 8421**]91
   301
   Cr
   4.2
   5.7
   6.6
   7.6
   9.8
   9.0
   TCO2
   30
   26
   28
   Glucose
   117
   124
   153
   147
   144
   151
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:25/46, Alk Phos / T
   Bili:133/0.4, Amylase / Lipase:26/16, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Microbiology: No new culture data.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure [**3-11**] H1N1.
   #. Multifocal pneumonia/Respiratory failure:
   -S/p antibiotics/osetalmivir
   -S/p IHD for fluid removal with weaning of PEEP, will try to get more
   fluid off today rather than waiting until Monday
   -Continue to wean peep as tolerated
   #Fevers
   -ID following (foley and picc changed)
   -Fevers likely drug reaction (zosyn?) given diffuse maculopapular rash
   and time course, continue to f/u cultures and add abx if
   hemodynamically unstable
   -Will screen for other causes of fever with LFTs
consider
   imaging/further work-up if remains persistent febrile
   # ARF: ATN with continued no urine output
   -Started CVVHD [**7-24**], now transitioned to HD. Renal following,
   appreciate recommendations.
   -Next HD scheduled Monday, but will try to get again today
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -continue lopressor, remains hemodynamically stable
   # C.difficle colitis:
   -po vancomycin x 14 days (last dose [**2143-8-11**])
   # Sedation:
   -off versed/fentanyl given not responding to commands
   -d/c methadone and try precedex if agitated
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-3**] 12:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-08-04 05:56:00 Physician Resident Progress Note
24 Hour Events:
 BLOOD CULTURED - At [**2143-8-3**] 09:41 AM
   from PICC
 BLOOD CULTURED - At [**2143-8-3**] 12:06 PM
   from PICC
 ULTRASOUND - At [**2143-8-3**] 03:27 PM
 FEVER - 101.3
F - [**2143-8-3**] 12:00 PM
   -Ultrafiltration: 1.5L removed, some issues with hypotension initially,
   which resolved with slower fluid removal
   -Methadone discontinued, precedex started--became hypotensive,
   bradycardic, RR to 30-50 frequently, difficult to control. 9 pm changed
   to methadone 5 mg tid, propofol gtt, versed/fentanyl boluses.
   -O2 saturation 91-95%. Try to decrease vent
   -High fever, LFTs with elev AP/TB. RUQ ultrasound done vs. ongoing C.
   diff vs. ongoing drug fever.
   -Sputum sample with mold (? chronic colonization now exposed due to
   antibacterial therapy) vs. other. Recheck galactomannan/beta glucan, CT
   chest
   -A flutter with slow ventricular response to 40s/50s. D/c metoprolol
   -RR increased and difficult to recover
   -Large volume of tube feeds aspirated from mouth in setting of O2 to
   83%. ? Aspiration. TF held.
   -RUQ ultrasound with sludge, no cholecystitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2143-8-3**] 06:24 PM
   Heparin Sodium (Prophylaxis) - [**2143-8-4**] 12:00 AM
   Midazolam (Versed) - [**2143-8-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-4**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (98.9
   HR: 88 (74 - 100) bpm
   BP: 107/46(60) {84/46(57) - 161/76(96)} mmHg
   RR: 32 (21 - 39) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,958 mL
                                                                    201 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                     15 mL
   IVF:
                                                                    381 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,512 mL
                                                                     20 mL
   Urine:
                                                                     12 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    446 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (428 - 596) mL
   PS : 12 cmH2O
   RR (Spontaneous): 39
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ///22/
   Ve: 20.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Respiratory / Chest: bilatateral rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  R big toe  with purpuric lesion
   Neurologic: sedated
   Labs / Radiology
   348 K/uL
   8.5 g/dL
   116 mg/dL
   11.2 mg/dL
   22 mEq/L
   4.8 mEq/L
   83 mg/dL
   98 mEq/L
   133 mEq/L
   22.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   Hct
   24.6
   25.1
   24.4
   24.3
   27.0
   22.0
   Plt
   300
   275
   291
   301
   348
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   TCO2
   30
   26
   28
   Glucose
   124
   153
   147
   144
   151
   116
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:35/38, Alk Phos / T
   Bili:371/1.2, Amylase / Lipase:26/62, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.5 mg/dL
[**2143-8-1**] 8:00 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2143-8-1**]):
      [**12-1**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
      MOLD.    SPARSE GROWTH.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):
      YEAST.
[**2143-8-2**] 8:35 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2143-8-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
      MOLD.    SPARSE GROWTH.
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 276-1304R
         ([**2143-8-1**]).
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure c/b ARDS.
   #. Multifocal pneumonia/Respiratory failure/Fever: has H1N1 off
   oseltamivir and off all antibiotics. CXR worsened this morning with
   mold in sputum culture. All lines have been removed/changed and no
   growth from tip.
   - f/u ID recs
   - CT torso today
   - f/u cultures (ID to ask about speciation)
   - continue current abx (po vanco)
   - f/u RUQ U/S final read
   - attempt to go down on PS today
   - CIS / follow fever curve, if continues to be febrile, consider occult
   DVT
   - no HD today, but likely tomorrow
   - consider trach if no imminent plan for extubation
   # Sedation: on propofol gtt and methadone, attempted precedex but
   tachypnea
   - continue methadone 10 po QID
   - continue propofol gtt
   - need to readdress sedation every day
 consider versed/fentanyl
   # ARF: ATN with continued no urine output
   -f/u renal recs
 HD tomorrow
   -Foley removed, straight cath q12 hours
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR.  Likely slow ventricular response compounded by
   Precedex
   - restart BB today
   # C.difficle colitis: on po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   # Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy.
   -transfusion threshold <21
   # FEN:  hold TF until after CT torso, replete lytes prn, no fluids
   needed
   ICU Care
   Nutrition:  TF restart after CT torso
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
 will change and replace
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:  HOB, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-04 08:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 year old male without clear PMH presenting with multifocal pneumonia
   and now with respiratory failure [**3-11**] H1N1.
   24 Hour Events:
   Ultrafiltration done yesterday to aid fluid removal and resp status. ID
   consulted re: fevers. Febrile yesterday afternoon and this morning.
   Last night episode of desat w/ tube feeds suctioned both from mouth and
   from ETT. Sedation changed yesterday morning to Percedex for possible
   extubation- pt did not tolerate well and pt resumed on methadone and
   propofol gtt. Slow a flutter (rate 40s)- metoprolol held and now rate
   normalized.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2143-8-1**] 05:45 PM
   Vancomycin - [**2143-8-2**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2143-8-3**] 06:24 PM
   Heparin Sodium (Prophylaxis) - [**2143-8-4**] 12:00 AM
   Midazolam (Versed) - [**2143-8-4**] 12:00 AM
   Other medications:
   vancomycin PO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-4**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.2
C (98.9
   HR: 89 (74 - 100) bpm
   BP: 110/48(62) {84/46(57) - 161/76(96)} mmHg
   RR: 30 (21 - 39) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,960 mL
                                                                    513 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                     15 mL
   IVF:
                                                                    383 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,512 mL
                                                                     20 mL
   Urine:
                                                                     12 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (428 - 596) mL
   PS : 12 cmH2O
   RR (Spontaneous): 39
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%, RR >35
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: VBG 7.43 / 36/ 61
   Ve: 20.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   B axillae, Rhonchorous: R ant field)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ anasarca, RLE great toe ischemic appearing area stable
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   348 K/uL
   116 mg/dL
   11.2 mg/dL
   22 mEq/L
   4.8 mEq/L
   83 mg/dL
   98 mEq/L
   133 mEq/L
   22.0 %
   8.7 K/uL
        [image002.jpg]
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   Hct
   24.6
   25.1
   24.4
   24.3
   27.0
   22.0
   Plt
   300
   275
   291
   301
   348
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   TCO2
   30
   26
   28
   Glucose
   124
   153
   147
   144
   151
   116
   Other labs: PT / PTT / INR:13.3/26.0/1.1, ALT / AST:35/38, Alk Phos / T
   Bili:371/1.2, Amylase / Lipase:26/62, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Imaging: RUQ U/S ([**8-3**])- (prelim) sludging, no cholecystitis
   CXR ([**8-4**])- RUL consolidation, LLL iinfiltrate; largely unchanged
   Microbiology: [**8-1**] and [**8-2**] Sputum Cx- mold and yeast
   Assessment and Plan
   #Fevers
   -to get CT torso today to further evaluate
   -ID following (foley and picc changed)
   -poss empiric antifungal tx
   -Alk Phos and T bili elevated
 RUQ w/ sludging -- trend
   #Multifocal pneumonia/Respiratory failure:
   -mold from [**8-1**] and [**8-2**] sputum, ID assisting and awaiting speciation
   -S/p antibiotics/osetalmivir
   -Continue to wean PSV as tolerated
   -poss further fluid removal tomorrow per Renal
   # ARF: ATN with continued no urine output
   -Started CVVHD [**7-24**], now transitioned to HD. Renal following,
   appreciate recommendations.
   -Next HD scheduled Monday
   # Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR
   -bradycardic yesterday perhaps related to Percedex, metoprolol held
   yesterday -- can resume today
   # C.difficle colitis:
   -po vancomycin x 14 days (last dose [**2143-8-11**])
   # Sedation:
   -did not tolerate Percedex
   -back on propofol and methadone, will need to re-address
   ICU Care
   Nutrition:
   Comments: tube feeds held overnight due to possible aspiration, will
   resume today after CT scan
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2143-7-30**] 07:25 PM
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2143-08-05 05:18:00 Physician Resident Progress Note
24 Hour Events:
 BLOOD CULTURED - At [**2143-8-4**] 12:00 PM
   from PICC.
 BLOOD CULTURED - At [**2143-8-4**] 04:30 PM
   veinipuncture.
 ULTRASOUND - At [**2143-8-4**] 06:00 PM
   At the bedside for ? dvt in b/l le.
 FEVER - 101.5
F - [**2143-8-4**] 12:00 PM
   - Renal: HD tomorrow
   - ID: CIS, continue c. diff treatment, consider resiting HD line,
   consider bronch
   - restarted metoprolol 12.5 mg po BID
   - Spiked 101 --> cultured
   - CT chest/abd/pelvis: bronchopneumonia (multifocal), ? filling defect
   in RLL segmental artery per rads, also ? tiny filling defect in R
   common femoral vein. rads recommended bilateral LENIs. High probability
   of segmental PE --> started heparin gtt
   - TF restarted after CT
   - Bilateral LENIs negative
   - - dropped PEEP 8 but desat to 87% --> increased back to 10
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2143-8-4**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2143-8-4**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-5**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 88 (83 - 90) bpm
   BP: 126/65(78) {98/45(59) - 132/65(78)} mmHg
   RR: 21 (20 - 33) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 99.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,741 mL
                                                                    604 mL
   PO:
             TF:
                                                                    353 mL
                                                                    237 mL
   IVF:
                                                                    949 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                    700 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 633 (603 - 696) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 23 cmH2O
   SpO2: 92%
   ABG: ////
   Ve: 17.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Respiratory / Chest: bilatateral rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  R big toe  with purpuric lesion
   Neurologic: sedated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   395 K/uL
   6.7 g/dL
   101 mg/dL
   12.5 mg/dL
   21 mEq/L
   6          mEq/L
   100 mg/dL
   95 mEq/L
   135 mEq/L
   21.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-7-30**]  05:17 AM
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   Hct
   24.6
   25.1
   24.4
   24.3
   27.0
   22.0
   Plt
   300
   275
   291
   301
   348
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   TCO2
   30
   26
   28
   Glucose
   124
   153
   147
   144
   151
   116
   Other labs: PT / PTT / INR:12.4/32.6/1.0, Ca++:9.3 mg/dL, Mg++3 mg/dL,
   PO4:5.1 mg/dL
   Micro:
   [**2143-8-3**], [**2143-8-4**]
 blood culture NGTD
RESPIRATORY CULTURE (Final [**2143-8-4**]):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
      MOLD.    SPARSE GROWTH.
   Imaging:
   CT Chest/Abd/Pelvis w/ Contrast (wet read): Multifocal
   bronchopneumonia. Possible pulmonary artery filling defect in the right
   lower lobe. Fluid throughout colon with no definite wall thickening.
   B/l LENIs (wet read): No DVT [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 1680**] and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Fevers:  Patient has been persistently febrile with unclear etiology.
   Blood, urine, sputum cultures negative.  C.diff positive being treated
   with PO vancomycin.  .  Concern on CT scan for small segmental
   pulmonary embolism but unclear if this could be the cause of his
   fevers.  Drug fever is always a possibility and we will try limit
   medications as much as possible.  CT torso yesterday final read
   pending.
   - follow up final read of CT scan
   - follow RUQ ultrasound
   - follow cultures
   - follow ID recs
   - continue vancomycin for c.diff
   - continue heparin for pulmonary embolism
    Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS and fluid overload.
   - f/u final CT torso read
   - cont heparin gtt for segmental pulmonary embolism
   - now off antibiotics for his pneumonia
   - CIS / follow fever curve
   - plan for hemodialysis today
   - consider trach if no imminent plan for extubation
   ? Segmental Pulmonary Embolus:  Seen on CT scan but not protocoled for
   pulmonary embolism.
   - will discuss case with radiology
   - continue heparin gtt for now
   Sedation: on propofol gtt and methadone, attempted precedex but
   hypotension and bradycardia.  Will start haldol for agitated delirium
   and attempt to wean methadone further today.
   - continue methadone 10 po BID
   - continue propofol gtt
   - will start haldol today and titrate up for agitated delirium
   - need to readdress sedation daily
   Acute Renal Failure:  ATN with no urine output still.  Was not dialyzed
   over the weekend and has worsening volume overload today.
   - follow up renal recommendations
   - hemodialysis today
   - straight cath every 12 hours instead of standing foley
   Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR.  Likely slow ventricular response compounded by
   Precedex
   - continue low dose beta blocker and titrate up as tolerated
   C.difficle colitis: on po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
    Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure and chronic illness. Blood counts
   down today to 21.4 today.
   - transfusion threshold <21
   - will send anemia workup today to evaluate further
   FEN:  Continue tube feeds, replete lytes prn, no fluids needed
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-5**] 03:21 AM 45 mL/hour
   Glycemic Control:
   Lines: Dialysis line, PICC, peripheral
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: lansoprazole
   VAP:  head of bed elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-05 10:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with influenza PNA, ARDS, renal failure.  Has been slowly
   improving.  Slowly improving overall.  Recent fevers.  Had full body CT
   scan with ?filling defects.
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-4**] 12:00 PM
   from PICC.
 BLOOD CULTURED - At [**2143-8-4**] 04:30 PM
   veinipuncture.
 ULTRASOUND - At [**2143-8-4**] 06:00 PM
   At the bedside for ? dvt in RLE.
 EKG - At [**2143-8-5**] 06:54 AM
 FEVER - 101.5
F - [**2143-8-4**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-4**] 04:00 PM
   Other medications:
   chlorhex
   lansoprazole
   SSI
   vanco PO
   methadone
   lopressor
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-5**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.2
C (100.7
   HR: 74 (74 - 92) bpm
   BP: 120/50(67) {98/45(59) - 135/65(78)} mmHg
   RR: 27 (20 - 33) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,741 mL
                                                                  1,174 mL
   PO:
             TF:
                                                                    353 mL
                                                                    434 mL
   IVF:
                                                                    949 mL
                                                                    470 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                    715 mL
   Urine:
                                                                     20 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (590 - 696) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   SpO2: 90%
   ABG: ///21/
   Ve: 19 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   395 K/uL
   101 mg/dL
   12.5 mg/dL
   21 mEq/L
   6.0 mEq/L
   100 mg/dL
   95 mEq/L
   135 mEq/L
   21.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-7-30**]  10:37 AM
                             [**2143-7-30**]  01:26 PM
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
                             [**2143-8-5**]  05:08 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   9.8
   Hct
   24.6
   25.1
   24.4
   24.3
   27.0
   22.0
   21.4
   Plt
   300
   275
   291
   [**Telephone/Fax (3) 8476**]
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   12.5
   TCO2
   26
   28
   Glucose
   124
   153
   147
   144
   151
   116
   101
   Other labs: PT / PTT / INR:12.4/32.6/1.0, ALT / AST:35/38, Alk Phos / T
   Bili:416/1.2, Amylase / Lipase:26/62, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:2.4 g/dL, LDH:414 IU/L, Ca++:9.3 mg/dL,
   Mg++:3.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Respiratory failure:  need to continue weaning peep and FiO2.  Is still
   13L positive net length of stay
   sedation:  on methadone and propofol.  Wean propofol as tolerated.
   Had bradycardia and HOTN with presidex.
   C. diff:  continue flagyl
   Acute renal failure:  minimal urine output
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-5**] 03:21 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-06 05:55:00 Physician Resident Progress Note
Chief Complaint:
   - Patient received intermittent HD in morning with removal of 2.5
   liters of ultrafiltrate but there was concern that his electrolytes and
   fluid balance have not been managed adequately since transitioning to
   intermittent HD.  He was switched back to CVVH this evening.
   - methadone weaned to 10 mg [**Hospital1 7**]
   - started on low dose haldol PRN
   - CT torso significant for a segmental pulmonary embolism and he was
   started on heparin gtt.
   - Anemia labs notable for low iron, elevated ferritin, low reticulocyte
   count.  Iron/TIBC < 10% concerning for iron deficiency, started on
   iron.
   - Febrile to 101 degrees overnight
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-5**] 09:40 AM
   HD line
 FEVER - 101.8
F - [**2143-8-5**] 08:00 AM
   Patient unable to provide history: Sedated
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-6**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.2
C (100.8
   HR: 80 (74 - 94) bpm
   BP: 156/61(80) {87/45(57) - 156/77(97)} mmHg
   RR: 32 (20 - 36) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,472 mL
                                                                    632 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                     69 mL
   IVF:
                                                                  1,031 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                    299 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -743 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (575 - 750) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 60
   PIP: 19 cmH2O
   SpO2: 93%
   ABG: ///23/
   Ve: 19.3 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   334 K/uL
   8.9 g/dL
   120 mg/dL
   7.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   53 mg/dL
   93 mEq/L
   130 mEq/L
   26.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-7-30**]  08:11 PM
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
                             [**2143-8-5**]  05:08 AM
                             [**2143-8-5**]  06:52 PM
                             [**2143-8-6**]  04:41 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   9.8
   7.6
   7.6
   Hct
   24.6
   25.1
   24.4
   24.3
   27.0
   22.0
   21.4
   30.9
   26.4
   Plt
   300
   275
   291
   [**Telephone/Fax (3) 8476**]
   366
   334
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   12.5
   9.3
   7.4
   Glucose
   124
   153
   147
   144
   151
   116
   101
   154
   120
   Other labs: PT / PTT / INR:12.6/41.8/1.1, ALT / AST:49/56, Alk Phos / T
   Bili:435/1.7, Amylase / Lipase:26/62, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Imaging: AP Chest XRAY [**2143-8-5**]: Single AP chest radiograph compared to
   [**2143-8-4**], shows multifocal
   airspace consolidation, slightly worse in the left upper and right
   lower lung.
   The cardiomediastinal contour is poorly assessed. There is no
   pneumothorax or large pleural effusion. ET tube terminates 2.3 cm above
   the carina. Left IJ central venous catheter terminates at the superior
   cavoatrial junction. There is no pneumothorax.
   Bilateral Lower Extremity Ultrasounds [**2143-8-4**]: negative for DVT
   CT Torso [**2143-8-4**]: 1. Widespread severe multifocal bronchopneumonia.
   2. Pulmonary arterial filling defect, not optimally demonstrated, but
   representing a high probability for pulmonary embolism. 3. Fluid
   throughout the colon, which is abnormal and can be seen with C. diff.
   colitis, but which is non-specific.
   Microbiology: Blood cultures [**2143-8-2**], [**2143-8-3**], [**2143-8-4**], [**2143-8-5**] - no
   growth to date
   Urine culture [**2143-8-2**] - no growth
   Stool [**2143-7-28**] - positive for c. diff
    RESPIRATORY CULTURE (Final [**2143-8-4**]):
         OROPHARYNGEAL FLORA ABSENT.
         YEAST.    SPARSE GROWTH.
         MOLD.    SPARSE GROWTH.
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Fevers:  Patient has been persistently febrile with unclear etiology.
   Blood, urine, sputum cultures negative.  C.diff positive being treated
   with PO vancomycin.  .  Concern on CT scan for small segmental
   pulmonary embolism but unclear if this could be the cause of his
   fevers.  Drug fever is always a possibility and we will try limit
   medications as much as possible.  CT torso yesterday final read
   pending.
   - follow up final read of CT scan
   - follow RUQ ultrasound
   - follow cultures
   - follow ID recs
   - continue vancomycin for c.diff
   - continue heparin for pulmonary embolism
    Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS and fluid overload.
   - f/u final CT torso read
   - cont heparin gtt for segmental pulmonary embolism
   - now off antibiotics for his pneumonia
   - CIS / follow fever curve
   - plan for hemodialysis today
   - consider trach if no imminent plan for extubation
   ? Segmental Pulmonary Embolus:  Seen on CT scan but not protocoled for
   pulmonary embolism.
   - will discuss case with radiology
   - continue heparin gtt for now
   Sedation: on propofol gtt and methadone, attempted precedex but
   hypotension and bradycardia.  Will start haldol for agitated delirium
   and attempt to wean methadone further today.
   - continue methadone 10 po BID
   - continue propofol gtt
   - will start haldol today and titrate up for agitated delirium
   - need to readdress sedation daily
   Acute Renal Failure:  ATN with no urine output still.  Was not dialyzed
   over the weekend and has worsening volume overload today.
   - follow up renal recommendations
   - hemodialysis today
   - straight cath every 12 hours instead of standing foley
   Atrial fibrillation / atrial flutter:  having frequent PACs and flips
   in and out of AF/NSR.  Likely slow ventricular response compounded by
   Precedex
   - continue low dose beta blocker and titrate up as tolerated
   C.difficle colitis: on po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
    Anemia: continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure and chronic illness. Blood counts
   down today to 21.4 today.
   - transfusion threshold <21
   - will send anemia workup today to evaluate further
   FEN:  Continue tube feeds, replete lytes prn, no fluids needed
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2143-08-06 09:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with influenza PNA and ARDS, acute renal failure.  Continued
   fevers overnight.
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-5**] 09:40 AM
   HD line
 FEVER - 101.8
F - [**2143-8-5**] 08:00 AM
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 1,900 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-6**] 08:00 AM
   Other medications:
   chlorhexidine
   SSI
   atrovent
   po vanco
   methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-6**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 104 (74 - 104) bpm
   BP: 152/69(84) {87/47(57) - 157/90(97)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,471 mL
                                                                  1,748 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    422 mL
   IVF:
                                                                  1,031 mL
                                                                  1,017 mL
   Blood products:
   Total out:
                                                                  3,215 mL
                                                                  1,741 mL
   Urine:
                                                                     15 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -744 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 765 (575 - 765) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 60
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.41/40/69/23/0
   Ve: 15.7 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   334 K/uL
   120 mg/dL
   7.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   53 mg/dL
   93 mEq/L
   130 mEq/L
   26.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2143-7-31**]  03:52 AM
                             [**2143-7-31**]  02:45 PM
                             [**2143-8-1**]  04:01 AM
                             [**2143-8-2**]  01:41 AM
                             [**2143-8-3**]  03:32 AM
                             [**2143-8-4**]  03:24 AM
                             [**2143-8-5**]  05:08 AM
                             [**2143-8-5**]  06:52 PM
                             [**2143-8-6**]  04:41 AM
                             [**2143-8-6**]  06:42 AM
   WBC
   5.5
   6.5
   7.6
   8.9
   8.7
   9.8
   7.6
   7.6
   Hct
   25.1
   24.4
   24.3
   27.0
   22.0
   21.4
   30.9
   26.4
   Plt
   300
   275
   291
   [**Telephone/Fax (3) 8476**]
   366
   334
   Cr
   5.7
   6.6
   7.6
   9.8
   9.0
   11.2
   12.5
   9.3
   7.4
   TCO2
   26
   Glucose
   124
   153
   147
   144
   151
   116
   101
   154
   120
   Other labs: PT / PTT / INR:12.6/41.8/1.1, ALT / AST:49/56, Alk Phos / T
   Bili:435/1.7, Amylase / Lipase:26/62, Differential-Neuts:65.0 %,
   Band:4.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:331 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Respiratory failure:  Steady improvement, continue to wean as
   tolerated.  Fluid and mental status likely limiting factors.
   influenza PNA
   elevated liver enzymes:  consistent with cholestatic picture - will
   check again with RUQ U/S
   Fever:  PE, drug fever.  No clear infectious source.
   Mental status:  continue methadone, haldol, propofol for sedation.
   PE:  on heparin
   Will need to discuss with family about trach and peg
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-6**] 01:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-07 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2143-8-6**] 10:22 AM
   - RUQ U/S unchanged from prior per prelim report.
   - Renal: Lytes/BUN improving on CVVH and tolerating UF so would
   continue.
   - Put on standing dose of seroquel 25 mg [**Hospital1 7**].
   - Weaned down on vent settings throughout the day.
   - Discussed possibility of trach with family but hopeful will not need.
   - Remained afebrile overnight, on CVVH.
   - Agitated and desatting to 85 early in AM 7/1so bolused propafol with
   good effect.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 2,350 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-6**] 05:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-7**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 93 (77 - 104) bpm
   BP: 163/61(137) {79/45(52) - 163/71(137)} mmHg
   RR: 29 (22 - 39) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,291 mL
                                                                  1,237 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    292 mL
   IVF:
                                                                  2,729 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  7,953 mL
                                                                  1,559 mL
   Urine:
                                                                     12 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,662 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (0 - 480) mL
   Vt (Spontaneous): 699 (533 - 765) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.41/40/69/23/0
   Ve: 18.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.
   Labs / Radiology
   394 K/uL
   9.0 g/dL
   157 mg/dL
   4.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   42 mg/dL
   94 mEq/L
   130 mEq/L
   27.7 %
   6.4 K/uL
         [image002.jpg]
                             [**2143-8-4**]  03:24 AM
                             [**2143-8-5**]  05:08 AM
                             [**2143-8-5**]  06:52 PM
                             [**2143-8-6**]  04:41 AM
                             [**2143-8-6**]  06:42 AM
                             [**2143-8-6**]  10:07 AM
                             [**2143-8-6**]  03:54 PM
                             [**2143-8-6**]  04:08 PM
                             [**2143-8-6**]  11:37 PM
                             [**2143-8-7**]  05:17 AM
   WBC
   8.7
   9.8
   7.6
   7.6
   9.1
   6.4
   Hct
   22.0
   21.4
   30.9
   26.4
   23.3
   25.5
   27.7
   Plt
   348
   395
   366
   [**Telephone/Fax (3) 8520**]
   Cr
   11.2
   12.5
   9.3
   7.4
   6.8
   5.3
   4.6
   TCO2
   26
   Glucose
   116
   101
   154
   120
   151
   134
   136
   157
   Other labs: PT / PTT / INR:12.9/56.9/1.1, ALT / AST:59/55, Alk Phos / T
   Bili:454/2.0, Lactic Acid:1.6 mmol/L, LDH:297 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Micro: All blood cx NGTD
[**2143-8-1**] 8:00 am SPUTUM      Source: Endotracheal.
   FUNGAL CULTURE (Preliminary):
      YEAST.
      ASPERGILLUS FUMIGATUS.
Imaging:
   RUQ u/s The gallbladder is similar in appearance to the ultrasound of
   [**2143-8-3**] as it is moderately distended and contains some sludge.
   There is no pericholecystic fluid, and the gallbladder does not appear
   hypervascular on color Doppler imaging. Slight wall edema is noted but
   in the setting of low albumin, this is a non-specific finding. There is
   no biliary dilatation and the common duct measures 0.6 cm. IMPRESSION:
   Unchanged moderately distended gallbladder containing sludge. No
   son[**Name (NI) 351**] evidence of cholecystitis; however, if clinical suspicion
   remains high, a radionuclide HIDA scan should be considered.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Fevers:  Pt had been spiking nightly fevers but afebrile last night.
   This may represent suppression on CVVH v. continued improvement in
   fever curve with possible etiology drug fever to Zosyn, now
   discontinued. WBC/diff unremarkable. Has vesicles on left buttock
   concerning for HSV/HZV. Sputum cx growing aspergillus which may be
   colonizer. Blood, urine cx neg. C.diff being treated with PO
   vancomycin. On heparin gtt for RLL segmental PE. LFTs still rising but
   still without son[**Name (NI) 351**] evidence of cholecystisis.
   - cont to trend fever curve and WBC
   - culture vesicles per ID recs
   - follow cultures, beta glucan and galactomannan
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - Will get HIDA scan today and consider surgery consult
   - consider changing lines if respikes or clinical worsening
   - appreciate ID recs; will continue to follow
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s.
   - Get HIDA scan today
    Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.
   - off antibiotics for pneumonia
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism; bridge to coumadin
   if no upcoming plan for procedure
   - wean PS settings and sedation as able
   - possibility of trach discussed with family.  Will plan for pursuing
   trach if no improvement by Monday.  Will discuss with interventional
   pulmonary today
   Sedation: On propofol gtt and methadone, attempting to wean as possible
   although still with occasional episodes of agitation.
   - Wean methadone to 5 po BID
   - Fentanyl boluses PRN prior to care for likely pain
   - wean propofol gtt as tolerated
   - will d/c PRN seroquel and continue only standing at 25 mg [**Hospital1 7**]
   - haldol prn, to titrate up for agitated delirium
   - need to readdress sedation daily
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also affected by fluid shifts as Hct
   improved back to baseline after HD yesterday.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-6**] 11:39 PM 45 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-07 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with influenza PNA and ARDS.  RUQ yesterday unchanged.
   afebrile overnight.
   24 Hour Events:
 ULTRASOUND - At [**2143-8-6**] 10:22 AM
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-4**] 06:00 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 2,450 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-6**] 05:44 PM
   Other medications:
   chlorhex
   albuterol
   lansoprazole
   miconazole
   SSI
   vanco po
   lopressor
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-7**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 85 (77 - 104) bpm
   BP: 116/66(78) {79/45(52) - 163/70(137)} mmHg
   RR: 22 (22 - 39) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,291 mL
                                                                  1,803 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    450 mL
   IVF:
                                                                  2,729 mL
                                                                  1,053 mL
   Blood products:
   Total out:
                                                                  7,953 mL
                                                                  2,083 mL
   Urine:
                                                                     12 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,662 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 654 (533 - 699) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.40/34/63/23/-2
   Ve: 17.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: right side,
   Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, follows some commands
   Labs / Radiology
   9.0 g/dL
   394 K/uL
   157 mg/dL
   4.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   42 mg/dL
   94 mEq/L
   130 mEq/L
   27.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2143-8-5**]  05:08 AM
                             [**2143-8-5**]  06:52 PM
                             [**2143-8-6**]  04:41 AM
                             [**2143-8-6**]  06:42 AM
                             [**2143-8-6**]  10:07 AM
                             [**2143-8-6**]  03:54 PM
                             [**2143-8-6**]  04:08 PM
                             [**2143-8-6**]  11:37 PM
                             [**2143-8-7**]  05:17 AM
                             [**2143-8-7**]  06:46 AM
   WBC
   9.8
   7.6
   7.6
   9.1
   6.4
   Hct
   21.4
   30.9
   26.4
   23.3
   25.5
   27.7
   Plt
   395
   366
   334
   405
   394
   Cr
   12.5
   9.3
   7.4
   6.8
   5.3
   4.6
   TCO2
   26
   22
   Glucose
   101
   154
   120
   151
   134
   136
   157
   Other labs: PT / PTT / INR:12.9/56.9/1.1, ALT / AST:59/55, Alk Phos / T
   Bili:454/2.0, Amylase / Lipase:26/62, Differential-Neuts:60.0 %,
   Band:4.0 %, Lymph:31.3 %, Mono:5.2 %, Eos:3.2 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:297 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory failure:  much improved doing well on miminal pressure
   support.  If not extubatable by [**Last Name (LF) 1088**], [**First Name3 (LF) **] opt for trach.
   LFTs:  milding increasing.  no clear cause.  will get HIDA scan to
   confirm that no acalculous cholecystitis
   sedation:  will try to wean methadone further and fentanyl as needed
   for pain
   Is profoundly weak with minimal motion
   acute renal failure:  on CVVH
   C. diff colitis: on PO Vanco
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-6**] 11:39 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-08 04:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2143-8-7**] 01:30 PM
   - Cont prn haldol but d/c'd prn seroquel
   - Left buttock vesicular lesions cultured for HSV/HZV and DAT positive
   for HSV-2.
   - ID: Complete 14-day vanco po on [**8-10**]. No need to treat HSV-2. Would
   recommend resiting 11-day old LIJ HD cath and sending tip for cx.
   Signing off but call if beta glucan/galactomannan positive. Would
   repeat CT in 1 week for aspergillus in sputum; can reconsult if
   concerning for fungal process.
   - HIDA scan done: No evidence of acute cholecystitis
   - Renal: Cont CVVH
   - IP agreeable to potential trach on Tuesday if no improvement. Wife
   aware.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Heparin Sodium - 2,700 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-8**] 01:00 AM
   Fentanyl - [**2143-8-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-8**] 04:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 89 (75 - 93) bpm
   BP: 122/60(73) {89/42(53) - 172/81(137)} mmHg
   RR: 26 (20 - 39) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 94.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,563 mL
                                                                    774 mL
   PO:
             TF:
                                                                    800 mL
                                                                    185 mL
   IVF:
                                                                  2,243 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  5,728 mL
                                                                  1,196 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,165 mL
                                                                   -422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 543 (438 - 690) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.40/34/63/19/-2
   NIF: -42 cmH2O
   Ve: 13.2 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.
   Labs / Radiology
        [image002.jpg]
                             [**2143-8-6**]  06:42 AM
                             [**2143-8-6**]  10:07 AM
                             [**2143-8-6**]  03:54 PM
                             [**2143-8-6**]  04:08 PM
                             [**2143-8-6**]  11:37 PM
                             [**2143-8-7**]  05:17 AM
                             [**2143-8-7**]  06:46 AM
                             [**2143-8-7**]  10:00 AM
                             [**2143-8-7**]  04:19 PM
                             [**2143-8-7**]  09:51 PM
   WBC
   9.1
   6.4
   7.9
   Hct
   23.3
   25.5
   27.7
   24.7
   Plt
   [**Telephone/Fax (3) 8538**]
   Cr
   6.8
   5.3
   4.6
   4.7
   TCO2
   26
   22
   Glucose
   151
   134
   136
   157
   157
   130
   144
   Other labs: PT / PTT / INR:12.1/66.0/1.0, ALT / AST:59/55, Alk Phos / T
   Bili:454/2.0, Amylase / Lipase:26/62, Differential-Neuts:60.0 %,
   Band:4.0 %, Lymph:31.3 %, Mono:5.2 %, Eos:3.2 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:297 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Skin scrapings: Positive for Herpes Simplex Virus Type 2 by direct
   antigen staining..
   HIDA: No evidence of acute cholecystitis
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory Distress/Bradycardia:  Patient with respiratory distress,
   bradycardia, likely vagal mediated.  Bronchoscopy this morning with
   significant thick secretions, unable to pass bronchoscopy.  O2 sat
   unable to
   - anesthesia to exchange ET tube
   - will place a line for frequent ABGs and to monitor blood pressure
   during these episodes of bradycardia
   Fevers:   Now improved.  Afebrile for two days although may represent
   suppression on CVVH v. continued improvement in fever curve with
   possible etiology drug fever to Zosyn, now discontinued. WBC/diff
   unremarkable. Has vesicles on left buttock concerning for HSV/HZV.
   Sputum cx growing aspergillus which may be colonizer. Blood, urine cx
   neg. C.diff being treated with PO vancomycin. On heparin gtt for RLL
   segmental PE. LFTs still rising but still without son[**Name (NI) 351**] evidence
   of cholecystisis, HIDA scan negative.  Vesicles positive for HSV 2 but
   no plans to treat.
   - cont to trend fever curve and WBC
   - follow cultures, beta glucan and galactomannan
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - consider changing lines if respikes or clinical worsening
   - appreciate ID recs; will continue to follow
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s. HIDA scan
   negative.  Triglycerides are also high.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   - given elevated triglycerides will switch from propofol to fentanly
   and versed
   - will recheck pancreatic enzymes
    Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.
   - off antibiotics for pneumonia
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism; bridge to coumadin
   if no upcoming plan for procedure
   - wean PS settings and sedation as able
   - possibility of trach discussed with family.  Will plan for pursuing
   trach if no improvement by Monday.  Will discuss with interventional
   pulmonary today
   Hyponatremia:  Likely in part due to CVVH.  Also may be falsely low
   secondary to hypertriglyceridemia.  Also concern that may be related to
   propofol.
   - switch to versed with methadone and Fentanyl boluses
   - continue to monitor sodium
   Sedation: On propofol gtt and methadone, attempting to wean as possible
   although still with occasional episodes of agitation.
   - Will switch to versed given hypertriglyceridemia
   - continue methadone with Fentanyl boluses
   - continue standing seroquel
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Altered mental status:  Patient has not woken up since decreasing
   sedation.  Toxic metabolic encephalopathy is likely.  Also of concern
   that he is on heparin gtt and may have intracranial pathology.
   - if no improvement will get CT head and consider EEG
   - will see if improved with ET tube exchange
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also affected by fluid shifts as Hct
   improved back to baseline after HD yesterday.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-08 18:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2143-08-09 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient was noted to have worsening respiratory status with
   bradycardia.  Bronchoscopy performed revealed crusted secretions in
   endotracheal tube.  Tube was switched and his respiratory status
   rapidly improved.
   - patient switched from propofol to versed given elevated LFTs and
   triglycerides
   - patient noted to be hyponatremic, likely falsely low secondary to
   hypertriglyceridemia
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Heparin Sodium - 2,700 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-8**] 06:00 AM
   Propofol - [**2143-8-8**] 11:40 AM
   Atropine - [**2143-8-8**] 11:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-9**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 80 (35 - 106) bpm
   BP: 119/65(76) {89/47(59) - 199/123(139)} mmHg
   RR: 30 (11 - 36) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
    Mixed Venous O2% Sat: 50 - 50
   Total In:
                                                                  4,189 mL
                                                                    965 mL
   PO:
   TF:
                                                                  1,144 mL
                                                                    255 mL
   IVF:
                                                                  2,665 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  5,994 mL
                                                                    737 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,805 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 660 (509 - 899) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/39/40/24/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.
   Labs / Radiology
   429 K/uL
   9.1 g/dL
   150 mg/dL
   3.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   38 mg/dL
   94 mEq/L
   133 mEq/L
   28.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-8-7**]  04:19 PM
                             [**2143-8-7**]  09:51 PM
                             [**2143-8-8**]  04:05 AM
                             [**2143-8-8**]  08:06 AM
                             [**2143-8-8**]  10:11 AM
                             [**2143-8-8**]  03:33 PM
                             [**2143-8-8**]  05:40 PM
                             [**2143-8-8**]  11:01 PM
                             [**2143-8-8**]  11:14 PM
                             [**2143-8-9**]  04:57 AM
   WBC
   7.9
   10.1
   9.8
   Hct
   24.7
   27
   25.1
   28.9
   Plt
   [**Telephone/Fax (3) 8554**]
   Cr
   4.7
   3.7
   3.2
   3.0
   TCO2
   24
   26
   27
   Glucose
   130
   144
   144
   177
   144
   150
   Other labs: PT / PTT / INR:12.8/69.0/1.1, ALT / AST:59/55, Alk Phos / T
   Bili:454/2.0, Amylase / Lipase:78/60, Differential-Neuts:60.0 %,
   Band:4.0 %, Lymph:31.3 %, Mono:5.2 %, Eos:3.2 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:297 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR Portable [**2143-8-8**]: Widespread parenchymal opacities most
   confluent in right upper lobe
   appear slightly worse within both lower lungs and minimally improved in
   the
   right upper lobe. Observed findings are in keeping with a history of
   multifocal pneumonia, but there may be a secondary superimposed process
   such as a hydrostatic edema or evolving ARDS.
   Microbiology: No new culture data
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory Distress/Bradycardia:  Patient with respiratory distress,
   bradycardia, likely vagal mediated.  Bronchoscopy this morning with
   significant thick secretions, unable to pass bronchoscopy.  O2 sat
   unable to
   - anesthesia to exchange ET tube
   - will place a line for frequent ABGs and to monitor blood pressure
   during these episodes of bradycardia
   Fevers:   Now improved.  Afebrile for two days although may represent
   suppression on CVVH v. continued improvement in fever curve with
   possible etiology drug fever to Zosyn, now discontinued. WBC/diff
   unremarkable. Has vesicles on left buttock concerning for HSV/HZV.
   Sputum cx growing aspergillus which may be colonizer. Blood, urine cx
   neg. C.diff being treated with PO vancomycin. On heparin gtt for RLL
   segmental PE. LFTs still rising but still without son[**Name (NI) 351**] evidence
   of cholecystisis, HIDA scan negative.  Vesicles positive for HSV 2 but
   no plans to treat.
   - cont to trend fever curve and WBC
   - follow cultures, beta glucan and galactomannan
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - consider changing lines if respikes or clinical worsening
   - appreciate ID recs; will continue to follow
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s. HIDA scan
   negative.  Triglycerides are also high.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   - given elevated triglycerides will switch from propofol to fentanly
   and versed
   - will recheck pancreatic enzymes
    Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.
   - off antibiotics for pneumonia
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism; bridge to coumadin
   if no upcoming plan for procedure
   - wean PS settings and sedation as able
   - possibility of trach discussed with family.  Will plan for pursuing
   trach if no improvement by Monday.  Will discuss with interventional
   pulmonary today
   Hyponatremia:  Likely in part due to CVVH.  Also may be falsely low
   secondary to hypertriglyceridemia.  Also concern that may be related to
   propofol.
   - switch to versed with methadone and Fentanyl boluses
   - continue to monitor sodium
   Sedation: On propofol gtt and methadone, attempting to wean as possible
   although still with occasional episodes of agitation.
   - Will switch to versed given hypertriglyceridemia
   - continue methadone with Fentanyl boluses
   - continue standing seroquel
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Altered mental status:  Patient has not woken up since decreasing
   sedation.  Toxic metabolic encephalopathy is likely.  Also of concern
   that he is on heparin gtt and may have intracranial pathology.
   - if no improvement will get CT head and consider EEG
   - will see if improved with ET tube exchange
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also affected by fluid shifts as Hct
   improved back to baseline after HD yesterday.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   20 Gauge - [**2143-8-4**] 09:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-09 08:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Bradycardic to 35
   - ET tube change for plugging
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 2,700 units/hour
   Other ICU medications:
   Propofol - [**2143-8-8**] 11:40 AM
   Atropine - [**2143-8-8**] 11:40 AM
   Fentanyl - [**2143-8-8**] 11:30 PM
   Haloperidol (Haldol) - [**2143-8-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-9**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 81 (35 - 104) bpm
   BP: 111/62(73) {89/47(59) - 199/123(139)} mmHg
   RR: 20 (11 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
   Mixed Venous O2% Sat: 50 - 50
   Total In:
                                                                  4,165 mL
                                                                  1,537 mL
   PO:
   TF:
                                                                  1,144 mL
                                                                    395 mL
   IVF:
                                                                  2,641 mL
                                                                    958 mL
   Blood products:
   Total out:
                                                                  5,994 mL
                                                                  1,657 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,829 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 632 (509 - 899) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/39/40/23/1
   Ve: 14.5 L/min
   PaO2 / FiO2: 80
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: maculopapular
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   429 K/uL
   148 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.1 mEq/L
   36 mg/dL
   94 mEq/L
   129 mEq/L
   28.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2143-8-7**]  04:19 PM
                             [**2143-8-7**]  09:51 PM
                             [**2143-8-8**]  04:05 AM
                             [**2143-8-8**]  08:06 AM
                             [**2143-8-8**]  10:11 AM
                             [**2143-8-8**]  03:33 PM
                             [**2143-8-8**]  05:40 PM
                             [**2143-8-8**]  11:01 PM
                             [**2143-8-8**]  11:14 PM
                             [**2143-8-9**]  04:57 AM
   WBC
   7.9
   10.1
   9.8
   Hct
   24.7
   27
   25.1
   28.9
   Plt
   [**Telephone/Fax (3) 8554**]
   Cr
   4.7
   3.7
   3.2
   3.0
   2.9
   TCO2
   24
   26
   27
   Glucose
   130
   144
   144
   177
   144
   150
   148
   Other labs: PT / PTT / INR:13.0/74.7/1.1, ALT / AST:59/55, Alk Phos / T
   Bili:454/2.0, Amylase / Lipase:78/60, Differential-Neuts:60.0 %,
   Band:4.0 %, Lymph:31.3 %, Mono:5.2 %, Eos:3.2 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:297 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Fespiratory distress with vagal episodes
   likely secondary to crusting of ETT; improved with change of tube.
   - wean PS settings and sedation as able
   - off antibiotics for pneumonia
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism; bridge to coumadin
   if no upcoming plan for procedure
   - possibility of trach discussed with family.  Will plan for pursuing
   trach if no improvement by Tuesday.
   Sedation: On propofol gtt and methadone, attempting to wean as possible
   although still with occasional episodes of agitation.
   - Will switch to versed given hypertriglyceridemia
   - continue methadone with Fentanyl boluses
   - continue standing seroquel
   Fevers:  Now improved.  Afebrile for three days although may represent
   suppression on CVVH v. continued improvement in fever curve with
   possible etiology drug fever to Zosyn, now discontinued. WBC/diff
   unremarkable. Sputum cx growing aspergillus but beta
   glucan/galactomannan unremarkable. Vesicles positive for HSV 2 but no
   plans to treat. Blood, urine cx neg. C.diff being treated with PO
   vancomycin. On heparin gtt for RLL segmental PE. LFTs still rising but
   still without son[**Name (NI) 351**] evidence of cholecystisis, HIDA scan
   negative.
   - cont to trend fever curve and WBC
   - follow cultures
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - consider resiting LIJ if respikes or clinical worsening
   - consider CT chest in 1 week ([**8-11**]) to reevaluate and r/o fungal
   infection given aspergillus in sputum
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s. HIDA scan
   negative.  Triglycerides are also high.
   - Continue to trend
   - given elevated triglycerides will switch from propofol to fentanly
   and versed
   - limit medications that cause cholestasis as much as possible
   - will recheck pancreatic enzymes
    Hyponatremia:  Likely due to CVVH and falsely low secondary to
   hypertriglyceridemia.  Also concern that may be related to propofol.
   - switch to versed with methadone and Fentanyl boluses
   - continue to monitor sodium
   Altered mental status:  Patient has not woken up since decreasing
   sedation.  Toxic metabolic encephalopathy is likely.  Also of concern
   that he is on heparin gtt and may have intracranial pathology.
   - monitor for improvement now that ET tube exchange
   - if no improvement will get CT head and consider EEG
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also affected by fluid shifts as Hct
   improved back to baseline after HD yesterday.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-9**] 12:48 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2143-08-10 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2143-8-9**] 09:33 AM
 EKG - At [**2143-8-10**] 02:06 AM
   - Renal recommended continue with CVVH and will likely try to
   transition to HD early next week.
   - LFTs still trending up, but T bili has come down slightly -> just
   transitioned off propafol on [**2143-8-8**]
   - continued to do well with new ET tube -> IP plans for Trach on Tues.
   - Titrating down versed
   - Much more comfortable and breathing well on the vent AM of [**8-10**]
   - Noted to be responding to command
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 2,700 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2143-8-9**] 08:00 AM
   Midazolam (Versed) - [**2143-8-9**] 10:50 AM
   Fentanyl - [**2143-8-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-10**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 83 (80 - 89) bpm
   BP: 113/59(72) {103/56(68) - 135/82(91)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,176 mL
                                                                  1,024 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    252 mL
   IVF:
                                                                  2,751 mL
                                                                    702 mL
   Blood products:
   Total out:
                                                                  7,024 mL
                                                                  1,358 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,848 mL
                                                                   -334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (526 - 690) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/33/137/34/1
   Ve: 16.5 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.  Alert and follows simple
   commands.
   Labs / Radiology
   523 K/uL
   8.6 g/dL
   186 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.2 mEq/L
   38 mg/dL
   95 mEq/L
   131 mEq/L
   27.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2143-8-8**]  03:33 PM
                             [**2143-8-8**]  05:40 PM
                             [**2143-8-8**]  11:01 PM
                             [**2143-8-8**]  11:14 PM
                             [**2143-8-9**]  04:57 AM
                             [**2143-8-9**]  10:40 AM
                             [**2143-8-9**]  05:12 PM
                             [**2143-8-9**]  11:07 PM
                             [**2143-8-9**]  11:23 PM
                             [**2143-8-10**]  04:00 AM
   WBC
   10.1
   9.8
   13.4
   Hct
   25.1
   28.9
   27.7
   Plt
   [**Telephone/Fax (3) 8566**]
   Cr
   3.0
   2.9
   2.7
   2.8
   2.8
   TCO2
   26
   27
   24
   Glucose
   144
   150
   148
   163
   168
   169
   186
   Other labs: PT / PTT / INR:13.6/74.0/1.2, ALT / AST:89/65, Alk Phos / T
   Bili:699/1.2, Amylase / Lipase:123/104, LDH:386 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   [**2143-8-9**] 5:16 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2143-8-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**Date range (1) 8567**] Blood cultures pending
   [**2143-8-9**] Urine culture pending
   [**2143-8-9**] CXR: No significant interval change.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Fevers:  Resolved.  Afebrile since [**8-6**]. [**Month (only) 51**] have been secondary to
   resolved drug fever to Zosyn although fever possibly masked by CVVH
   given new leukocytosis. [**2143-8-9**] sputum cx with GPC on gram stain. Past
   workup revealed C. diff diarrhea, pulmonary embolism, aspergillus
   colonization.  HIDA scan negative for cholecystitis athough continued
   rise in LFTs and now pancreatic enzymes concerning.
   - cont to trend fever curve and WBC
   - add diff
   - surveillance blood cx
   - f/u pending sputum, urine, and blood cx
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - consider CT chest at 1 week ([**8-11**]) to reevaluate and r/o fungal
   infection given aspergillus in sputum
   - HD catheter is day 14 and could be source of fevers/leukocytosis ->
   consider re-siting next week with more permanent HD catheter.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Respiratory distress with vagal episodes
   likely secondary to crusting of ETT; improved with change of tube.
   Sputum gram stain with GPCs, cx pending.
   - off antibiotics for pneumonia; will hold off treating for now given
   clinical stability pending sputum cx data
   - wean PS settings and sedation as tolerated
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism
   - currently planning for trach on Tuesday, but will continue to assess
   respiratory function over weekend with daily wakeups, SBT and RSBI
   - If wakes up, would favor trial of extubation.
   Sedation: Switched from propofol to midazolam with standing methadone
   and prn fentanyl secondary to rising LFTs and triglycerides. Appears
   comfortable and more alert. Will try to wean sedation further today.
   - wean versed as tolerated
   - decrease use of fentanyl boluses as tolerated, try haldol prn instead
   - continue standing methadone and seroquel
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s and HIDA scan
   negative. New rise in amylase and lipase may represent passing stone v.
   delayed response to propofol although triglycerides now trending down
   off propofol.
   - continue to trend
   - hold further use of propofol
   - limit medications that cause cholestasis as much as possible
   - Likely repeat CT Abd/Pelv when repeating CT chest
   Altered mental status: Toxic metabolic encephalopathy is possible and
   also concern for intracranial pathology on heparin gtt, but increased
   alertness yesterday encouraging.
   - cont to monitor for improvement
   - if no improvement, will get CT head and consider EEG
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-9**] 11:06 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-10 08:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Titrated versed
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-10**] 05:42 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 2,700 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2143-8-10**] 05:15 AM
   Midazolam (Versed) - [**2143-8-10**] 06:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-10**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 100 (80 - 107) bpm
   BP: 134/76(92) {103/59(70) - 149/82(92)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  4,176 mL
                                                                  1,491 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    374 mL
   IVF:
                                                                  2,751 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                  7,024 mL
                                                                  1,911 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -2,848 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (526 - 690) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.46/33/137/34/1
   Ve: 16.5 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: Improving
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   523 K/uL
   186 mg/dL
   2.8 mg/dL
   34 mEq/L
   4.2 mEq/L
   38 mg/dL
   95 mEq/L
   131 mEq/L
   27.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2143-8-8**]  03:33 PM
                             [**2143-8-8**]  05:40 PM
                             [**2143-8-8**]  11:01 PM
                             [**2143-8-8**]  11:14 PM
                             [**2143-8-9**]  04:57 AM
                             [**2143-8-9**]  10:40 AM
                             [**2143-8-9**]  05:12 PM
                             [**2143-8-9**]  11:07 PM
                             [**2143-8-9**]  11:23 PM
                             [**2143-8-10**]  04:00 AM
   WBC
   10.1
   9.8
   13.4
   Hct
   25.1
   28.9
   27.7
   Plt
   [**Telephone/Fax (3) 8566**]
   Cr
   3.0
   2.9
   2.7
   2.8
   2.8
   TCO2
   26
   27
   24
   Glucose
   144
   150
   148
   163
   168
   169
   186
   Other labs: PT / PTT / INR:13.6/74.0/1.2, ALT / AST:89/65, Alk Phos / T
   Bili:699/1.2, Amylase / Lipase:123/104, Differential-Neuts:60.0 %,
   Band:4.0 %, Lymph:31.3 %, Mono:5.2 %, Eos:3.2 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:386 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A/H1N1 now with respiratory failure
   c/b ARDS, PE, ARF and c. diff infection.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.  Now s/p antibiotic/antiviral course.
   Main barrier to extubation at this time is mental status/sedation.
   - Wean PS settings and sedation as able
   - Cont CVVH for goal net negative fluid balacne
   - Cont heparin gtt for segmental pulmonary embolism
   - Possibility of trach Tuesday discussed with family, but would attempt
   extubation prior to commiting to trach.
   Altered mental status /Sedation: On versed gtt, methadone and
   seroquel.  Toxic metabolic encephalopathy is likely.  Also of concern
   that he is on heparin gtt and may have intracranial pathology.
   Following commands this morning, which is an improvement.
   - Wean sedatives as appropriate
   - Trend hypertriglyceridemia off propofol
   - if no improvement will get CT head and consider EEG
   Fevers:  Afebrile for three. Sputum cx growing aspergillus but beta
   glucan/galactomannan unremarkable. Vesicles positive for HSV 2 but no
   plans to treat. C.diff being treated with PO vancomycin. On heparin gtt
   for RLL segmental PE. LFTs still rising but still without son[**Name (NI) 351**]
   evidence of cholecystisis, HIDA scan negative.
   - Cont to trend fever curve and WBC/bands
   - Follow cultures
   - Consider resiting LIJ if respikes or clinical worsening
   - Consider CT chest in 1 week ([**8-11**]) to reevaluate and r/o fungal
   infection given aspergillus in sputum
    - ID has signed off
   Elevated LFTs: Unclear source. Increasing Tbili, alk phos, GGT suggests
   a cholestatic picture although no son[**Name (NI) 351**] e/o cholecystitis on
   repeat RUQ u/s. HIDA scan negative.  Triglycerides are also high,
   likely [**3-11**] propofol, now trending down.  New elevation of amylase and
   lipase.
   - Continue to trend
   - Consider repeat abd CT if not improving (can combine with Chest and
   Head tomorrow)
    Hyponatremia:  Likely due to CVVH and falsely low secondary to
   hypertriglyceridemia.  Also concern that may be related to propofol.
   - Continue to monitor sodium
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes
   balance. Plan to transition to intermittent HD early next week.
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - Continue low dose beta blocker and titrate up as tolerated
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-9**] 11:06 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Stable on minimal vent settings, becomes tachypneic and agitated with
   less sedation
   Exam notable for Tmax: 37.2
C (98.9
F), Tcurrent: 36.7
C (98.1
   HR: 100 (80 - 107) bpm, BP: 134/76(92) {103/59(70) - 149/82(92)} mmHg,
   RR: 24 (17 - 35) insp/min, SpO2: 97%   on PSV 5/5/.4
   intubated sedated, following simple commands
   Hrt RRR
   lungs Rhonchorous
   Abdominal: Soft, active bs's
   Extremities: Right: 1+, Left: 1+edema
   Labs reviewed and recorded above
   Problems: pneumonia, respiratory failure, altered mental status, ARF,
   rising LFTs and pancreatitic enzymes, Cdiff, PE, AF
   Agree with plan to wean sedation
 extubate once more awake, cont CVVH,
   follow LFT
s and pancreatic enzymes
 consider repeat CT, continue
   anti-coagulation
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-10**] 12:54 ------

2143-08-11 05:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2143-8-10**] 03:48 PM
 EKG - At [**2143-8-10**] 05:07 PM
   - WBC elevated to 13.4. Diff N:48 Band:1 L:35 M:6 E:5 Bas:2 Atyps:1
   Metas:1 Myelos:1. Afebrile and HD stable. Resp gram stain with 2+ gpc,
   cx pending. Urine cx no growth. Will trend for now.
   - LFTs still trending up with new elevation in pancreatic enzymes.
   - Extubated to face mask
   - Transient episode of LUE and LLE mottling after turned over at 5pm.
   O2 nl by the time pleth placed, pulses 2+ in all extremities. LUE BP
   equal bilaterally. 6pm ABG 7.45/31/172 -> 11pm ABG 7.43/34/120.
   - C/o back pain; received fentanyl boluses. Also given lidoderm patch.
   - Received several doses of haldol throughout day for agitation.
   - Metoprolol increased to 12.5mg tid -> 25mg tid for persistent
   aflutter with HR in 100-120s
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-10**] 11:53 AM
   Infusions:
   Heparin Sodium - 2,550 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2143-8-10**] 06:44 AM
   Metoprolol - [**2143-8-10**] 05:45 PM
   Fentanyl - [**2143-8-11**] 03:00 AM
   Haloperidol (Haldol) - [**2143-8-11**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-11**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 80 (78 - 125) bpm
   BP: 119/72(83) {96/59(66) - 151/119(124)} mmHg
   RR: 18 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,530 mL
                                                                    436 mL
   PO:
             TF:
                                                                    593 mL
   IVF:
                                                                  2,647 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  5,917 mL
                                                                    756 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,387 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (679 - 711) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/36/168/20/0
   Ve: 16.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, no acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.  Alert and follows simple
   commands. Speech mostly unintelligible.
   Labs / Radiology
   729 K/uL
   10.3 g/dL
   188 mg/dL
   2.8 mg/dL
   20 mEq/L
   4.9 mEq/L
   45 mg/dL
   94 mEq/L
   132 mEq/L
   32.3 %
   20.1 K/uL
        [image002.jpg]
                             [**2143-8-9**]  10:40 AM
                             [**2143-8-9**]  05:12 PM
                             [**2143-8-9**]  11:07 PM
                             [**2143-8-9**]  11:23 PM
                             [**2143-8-10**]  04:00 AM
                             [**2143-8-10**]  10:25 AM
                             [**2143-8-10**]  05:02 PM
                             [**2143-8-10**]  06:13 PM
                             [**2143-8-10**]  10:56 PM
                             [**2143-8-11**]  04:30 AM
   WBC
   13.4
   20.1
   Hct
   27.7
   32.3
   Plt
   523
   729
   Cr
   2.7
   2.8
   2.8
   2.8
   2.9
   2.8
   TCO2
   24
   22
   24
   Glucose
   163
   168
   169
   186
   212
   181
   188
   Other labs: PT / PTT / INR:16.0/108.7/1.4, ALT / AST:94/48, Alk Phos /
   T Bili:684/1.4, Amylase / Lipase:177/110, Differential-Neuts:50.0 %,
   Band:2.0 %, Lymph:34.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:386 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
[**2143-8-9**] 5:16 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2143-8-9**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):    CULTURE TOO YOUNG TO EVALUATE.
[**2143-8-9**] 8:30 am URINE      Source: Catheter.
                            **FINAL REPORT [**2143-8-10**]**
      URINE CULTURE (Final [**2143-8-10**]):    NO GROWTH.
   [**2143-8-10**] Stool C. diff pending.
   [**Date range (1) 8585**] Blood cultures: NGTD.
   [**2143-8-10**] CXR (wet read): NGT seen within stomach but the tip is
   excluded from view. Interval removal of ETT. Bilateral patchy opacities
   at the bases are grossly unchanged.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Fevers:  Resolved.  Afebrile since [**8-6**]. [**Month (only) 51**] have been secondary to
   resolved drug fever to Zosyn although fever possibly masked by CVVH
   given new leukocytosis. [**2143-8-9**] sputum cx with GPC on gram stain. Past
   workup revealed C. diff diarrhea, pulmonary embolism, aspergillus
   colonization.  HIDA scan negative for cholecystitis athough continued
   rise in LFTs and now pancreatic enzymes concerning.
   - cont to trend fever curve and WBC
   - add diff
   - surveillance blood cx
   - f/u pending sputum, urine, and blood cx
   - complete vancomycin po course for c.diff
   - continue heparin gtt for pulmonary embolism (PTT still mildly
   subtherapeutic)
   - limit medications as much as possible
   - consider CT chest at 1 week ([**8-11**]) to reevaluate and r/o fungal
   infection given aspergillus in sputum
   - HD catheter is day 14 and could be source of fevers/leukocytosis ->
   consider re-siting next week with more permanent HD catheter.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Respiratory distress with vagal episodes
   likely secondary to crusting of ETT; improved with change of tube.
   Sputum gram stain with GPCs, cx pending.
   - off antibiotics for pneumonia; will hold off treating for now given
   clinical stability pending sputum cx data
   - wean PS settings and sedation as tolerated
   - cont CVVH for goal net negative fluid balacne
   - cont heparin gtt for segmental pulmonary embolism
   - currently planning for trach on Tuesday, but will continue to assess
   respiratory function over weekend with daily wakeups, SBT and RSBI
   - If wakes up, would favor trial of extubation.
   Sedation: Switched from propofol to midazolam with standing methadone
   and prn fentanyl secondary to rising LFTs and triglycerides. Appears
   comfortable and more alert. Will try to wean sedation further today.
   - wean versed as tolerated
   - decrease use of fentanyl boluses as tolerated, try haldol prn instead
   - continue standing methadone and seroquel
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s and HIDA scan
   negative. New rise in amylase and lipase may represent passing stone v.
   delayed response to propofol although triglycerides now trending down
   off propofol.
   - continue to trend
   - hold further use of propofol
   - limit medications that cause cholestasis as much as possible
   - Likely repeat CT Abd/Pelv when repeating CT chest
   Altered mental status: Toxic metabolic encephalopathy is possible and
   also concern for intracranial pathology on heparin gtt, but increased
   alertness yesterday encouraging.
   - cont to monitor for improvement
   - if no improvement, will get CT head and consider EEG
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**])
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Remaining in sinus currently.
   - continue low dose beta blocker and titrate up as tolerated
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-11 08:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Sedation weaned down
   - Extubated yesterday pm
   - Stable on face tent
   - A flutter overnight - BB titrated up
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-10**] 11:53 AM
   Infusions:
   Calcium Gluconate (CRRT) - 0.6 grams/hour
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Metoprolol - [**2143-8-10**] 05:45 PM
   Haloperidol (Haldol) - [**2143-8-11**] 03:00 AM
   Fentanyl - [**2143-8-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-11**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 95 (78 - 125) bpm
   BP: 124/76(85) {96/57(66) - 151/119(124)} mmHg
   RR: 22 (18 - 43) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,530 mL
                                                                  1,116 mL
   PO:
             TF:
                                                                    593 mL
                                                                     95 mL
   IVF:
                                                                  2,647 mL
                                                                    781 mL
   Blood products:
   Total out:
                                                                  5,917 mL
                                                                  1,522 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,387 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (679 - 679) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/36/168/21/0
   Ve: 16.1 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: Improving
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   729 K/uL
   176 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   49 mg/dL
   93 mEq/L
   133 mEq/L
   32.3 %
   20.1 K/uL
        [image002.jpg]
                             [**2143-8-9**]  11:07 PM
                             [**2143-8-9**]  11:23 PM
                             [**2143-8-10**]  04:00 AM
                             [**2143-8-10**]  10:25 AM
                             [**2143-8-10**]  05:02 PM
                             [**2143-8-10**]  06:13 PM
                             [**2143-8-10**]  10:56 PM
                             [**2143-8-11**]  04:30 AM
                             [**2143-8-11**]  04:39 AM
                             [**2143-8-11**]  07:26 AM
   WBC
   13.4
   20.1
   Hct
   27.7
   32.3
   Plt
   523
   729
   Cr
   2.8
   2.8
   2.9
   2.8
   3.0
   TCO2
   24
   22
   24
   Glucose
   169
   186
   212
   181
   188
   182
   176
   Other labs: PT / PTT / INR:16.0/86.4/1.4, ALT / AST:94/48, Alk Phos / T
   Bili:684/1.4, Amylase / Lipase:177/110, Differential-Neuts:50.0 %,
   Band:2.0 %, Lymph:34.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:386 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Microbiology: Sputum gram stain
 GPC; C diff negative; blood culture
   NGTD
   Radiology: CXR with increased RUL opacity ?atelectasis; Rounded LLL
   opacity
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A/H1N1 now with respiratory failure
   c/b ARDS, PE, ARF and c. diff infection.  Extubated [**8-10**].
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.  Now s/p antibiotic/antiviral course.
   Now extubated.  On heparin gtt for RLL segmental PE.
   - Cont CVVH for goal net negative fluid balacne
   - Cont heparin gtt for segmental pulmonary embolism.
   - Wean O2 as necessary
   Leukocytosis:  Afebrile. Sputum cx growing aspergillus but beta
   glucan/galactomannan unremarkable.  Current sputum GS with GPC,
   speication pending.  C.diff being treated with PO vancomycin.. LFTs
   still rising but still without son[**Name (NI) 351**] evidence of cholecystisis,
   HIDA scan negative.  ID has signed off
   - Cont to trend fever curve and WBC/bands
   - Follow surveillance cultures and sputum culture speciation
   - C.difficile colitis: On po vancomycin for plan 14 day course (last
   dose [**2143-8-11**])
   - Repeat CT chest today per ID to reevaluate and r/o fungal infection
   given aspergillus in sputum; also will help to evaluate for VAP
   Elevated LFTs: Unclear source. Increasing Tbili, alk phos, GGT suggests
   a cholestatic picture although no son[**Name (NI) 351**] e/o cholecystitis on
   repeat RUQ u/s. HIDA scan negative.  Triglycerides are also high,
   likely [**3-11**] propofol, now trending down.  New elevation of amylase and
   lipase over last couple days.
   - Continue to trend
   - Repeat abd/pelvis CT today
   Altered mental status /Sedation: On haldol, methadone and seroquel with
   prn fentanyl.  Toxic metabolic encephalopathy is likely.  Exam
   minimally improved off versed gtt.
   - Wean sedatives as appropriate
   - D/c methadone/fentanyl and add morphine prn
   - Add ativan for h/o anxiety
   - Head CT head today
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes
   balance. Plan to transition to intermittent HD early next week.
   - Appearing dry with mild hypotension
 will run even today
   - Will need long term HD access
   Atrial fibrillation / atrial flutter: Had h/o frequent PACs and flips
   in and out of AF/NSR, likely related to slow ventricular response
   compounded by Precedex. Flipped back into a.flutter last pm.
   - Continue low dose beta blocker and titrate up as tolerated
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-11**] 06:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Critical Care
   Present for the key portions of the fellow
s history and exam. Agree
   substantially with assessment and plan as outlined. Doing well post
   extubation. Still receiving CCV to remove fluid but would convert to HD
   tomorrow.
   Time spent 25 min

2143-08-12 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-11**] 09:08 AM
   left sc HD line and right DL picc
   - WBC count elevated to 20.  Differential with 50% polys, 2% bands.
   - Had CT torso which showed thickening of the distal sigmoid colon and
   improvement in multifocal pneumonia
   - CT head without acute process
   - Continued on PO vancomycin for c. diff given increased stool output
   - CVVH was discontinued with plans for intermittent hemodialysis
   - Received trial of ativan and morphine for discomfort but was noted to
   have periods of apnea, particularly with ativan so this was
   discontinued
   - Methadone was discontinued
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-11**] 11:56 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2143-8-11**] 09:25 AM
   Heparin Sodium - [**2143-8-12**] 01:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-12**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 91 (72 - 104) bpm
   BP: 140/74(86) {74/47(53) - 151/79(97)} mmHg
   RR: 28 (18 - 35) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,283 mL
                                                                    432 mL
   PO:
             TF:
                                                                    568 mL
                                                                    286 mL
   IVF:
                                                                  1,524 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  3,875 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  2,050 mL
   Drains:
   Balance:
                                                                   -592 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.44/28/99.[**Numeric Identifier 126**]/21/-3
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Well nourished, no acute distress, no longer
   intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.  Alert and follows simple
   commands. Speech partly intelligible.
   Labs / Radiology
   729 K/uL
   10.3 g/dL
   176 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.7 mEq/L
   49 mg/dL
   93 mEq/L
   133 mEq/L
   32.3 %
   20.1 K/uL
        [image002.jpg]
                             [**2143-8-9**]  11:23 PM
                             [**2143-8-10**]  04:00 AM
                             [**2143-8-10**]  10:25 AM
                             [**2143-8-10**]  05:02 PM
                             [**2143-8-10**]  06:13 PM
                             [**2143-8-10**]  10:56 PM
                             [**2143-8-11**]  04:30 AM
                             [**2143-8-11**]  04:39 AM
                             [**2143-8-11**]  07:26 AM
                             [**2143-8-11**]  01:00 PM
   WBC
   20.1
   Hct
   32.3
   Plt
   729
   Cr
   2.8
   2.9
   2.8
   3.0
   TCO2
   24
   22
   24
   20
   Glucose
   186
   212
   181
   188
   182
   176
   Other labs: PT / PTT / INR:18.8/46.0/1.7, ALT / AST:94/48, Alk Phos / T
   Bili:684/1.4, Amylase / Lipase:177/110, Differential-Neuts:50.0 %,
   Band:2.0 %, Lymph:34.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:386 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Microbiology:
   Clostridium difficle [**2143-8-9**], [**2143-8-10**]
 negative
   Blood cultures [**2143-8-11**] x 2
 no growth to date
GRAM STAIN (Final [**2143-8-9**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    SPARSE GROWTH.
      ASPERGILLUS SPECIES.    RARE GROWTH.
   Imaging:
   CT Torso [**2143-8-11**]: Compared to CT torso, multifocal airspace
   consolidation and interstitial thickening involving all pulmonary lobes
   persist but have improved.  Pleural effusions have resolved.  Multiple
   mediastinal lymph nodes have slightly decreased in size.  There remains
   liquid stool within and wall thickening of the distal sigmoid colon in
   this patient previously found to have c. diff colitis.
   CT head [**2143-8-11**]: No acute intracranial pathological process.  AFL in the
   sphenoid sinus.  Mucosal thickening in the maxillary sinuses.
   Assessment and Plan
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Respiratory distress with vagal episodes
   likely secondary to crusting of ETT; resolved with tube change. Mental
   status improving and extubated successfully [**8-10**]. [**8-9**] sputum gram stain
   with GPCs, cx pending.
   - off antibiotics for pneumonia; consider starting abx pending sputum
   cx data
   - wean face mask as tolerated
   - cont CVVH; likely near euvolemia
   - cont heparin gtt for segmental pulmonary embolism
   - hold on tracheostomy for now
   Back Pain:  Unclear etiology.  Appears musculoskeletal.  Likely from
   immobilization.  Improved overnight with Fentanyl boluses and lidocaine
   patch.
   - continue lidocaine patch
   - low dose morphine for pain
   Fevers/leukocytosis:  Afebrile since [**8-6**] but now with rising WBC
   count.  Initial fevers may have been secondary to medications versus
   related to pulmonary embolism.  Now concerned for new infection giving
   rapidly rising WBC count and bandemia.  Fevers may be masked by CVVH.
   Sputum gram stain with GPC, cx pending. Aspergillus in sputum likely
   contaminant. Continued rise in LFTs/pancreatic enzymes although HIDA
   scan negative for cholecystitis. Urine cx neg.
   - cont to trend fever curve and WBC
   - surveillance blood cx
   - f/u pending sputum and blood cx
   - complete vancomycin po course for c.diff.  Last day planned for today
   but given rising leukocytosis and increased stool output will continue
   for now
   - continue heparin gtt for pulmonary embolism
   - pan-scan: CT chest to r/o new pneumonia (including fungal),
   abd/pelvis to r/o cholestatic or pancreatic process
   - consider re-siting HD line (placed [**2143-7-26**])
   - limit medications as much as possible
   Elevated LFTs: Unclear source. Congestive hepatopathy possible but
   increasing Tbili, alk phos, GGT suggests a cholestatic picture although
   no son[**Name (NI) 351**] e/o cholecystitis on repeat RUQ u/s and HIDA scan
   negative. Still rising with continued rise in amylase and lipase, which
   makes delayed reaction to propofol less likely.
   - continue to trend
   - CT abd/pelvis as above
   - limit medications that cause cholestasis as much as possible
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Ddx includes infectious v. intracranial pathology on
   heparin gtt. However, overall alertness improving with weaning of
   sedation, now s/p extubation.
   - will use ativan and morphine for pain and anxiety
   - discontinue methadone
   - continue seroquel and haldol for agitation
   - cont to monitor for improvement
   - if no improvement, will get CT head and consider EEG
   Acute Renal Failure: On CVVH to optimize fluid and electrolytes balance
   - cont CVVH with goal of running net negative as able
   - follow up renal recommendations
   - given minimal UOP, with decrease straight cath to 2x/weekly
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**]) but will continue given rising WBC count
   Atrial fibrillation / atrial flutter: Cont to be in aflutter with rates
   in 100s.
   - continue beta blocker and titrate up as tolerated
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Disposition:

2143-08-12 10:08:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-11**] 09:08 AM
   left sc HD line and right DL picc
   WBC down to 10
   CT torso yest: distal sigmoid colon thickening, improved multifocal pna
   - continues on po vanc
   CT head: nothing acute
   Off CVVH, plan for HD today per renal recs
   History obtained from Patient
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-11**] 11:56 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2143-8-12**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-12**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 78 (73 - 104) bpm
   BP: 113/52(66) {87/49(60) - 151/79(97)} mmHg
   RR: 31 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,283 mL
                                                                    663 mL
   PO:
             TF:
                                                                    568 mL
                                                                    436 mL
   IVF:
                                                                  1,524 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,875 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  2,050 mL
   Drains:
   Balance:
                                                                   -592 mL
                                                                    663 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.44/28/99.[**Numeric Identifier 126**]/16/-3
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: Improving
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   660 K/uL
   217 mg/dL
   6.4 mg/dL
   16 mEq/L
   5.4 mEq/L
   101 mg/dL
   92 mEq/L
   136 mEq/L
   30.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2143-8-10**]  04:00 AM
                             [**2143-8-10**]  10:25 AM
                             [**2143-8-10**]  05:02 PM
                             [**2143-8-10**]  06:13 PM
                             [**2143-8-10**]  10:56 PM
                             [**2143-8-11**]  04:30 AM
                             [**2143-8-11**]  04:39 AM
                             [**2143-8-11**]  07:26 AM
                             [**2143-8-11**]  01:00 PM
                             [**2143-8-12**]  06:21 AM
   WBC
   20.1
   10.3
   Hct
   32.3
   30.1
   Plt
   729
   660
   Cr
   2.8
   2.9
   2.8
   3.0
   6.4
   TCO2
   22
   24
   20
   Glucose
   186
   212
   181
   188
   182
   176
   217
   Other labs: PT / PTT / INR:14.1/44.2/1.2, ALT / AST:64/23, Alk Phos / T
   Bili:592/1.1, Amylase / Lipase:150/139, Differential-Neuts:50.0 %,
   Band:2.0 %, Lymph:34.0 %, Mono:10.0 %, Eos:1.0 %, Fibrinogen:489 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:386 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:9.0 mg/dL
   Imaging: CT torso yest: distal sigmoid colon thickening, improved
   multifocal pna
   Microbiology: Repeat cdiff: neg
   Blood cxs [**8-11**]: no growth so far
   Spu: aspergillus: contamination
   Assessment and Plan
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**].
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE.  Now s/p antibiotic/antiviral course.
   Now extubated.  On heparin gtt for RLL segmental PE. Stable on FiO2
   36%. Aspergillus contaminant in sputum.
   Leukocytosis:  Afebrile. Sputum cx growing aspergillus but beta
   glucan/galactomannan unremarkable.  Current sputum GS with GPC,
   speication pending.  C.diff being treated with PO vancomycin.. LFTs
   still rising but still without son[**Name (NI) 351**] evidence of cholecystisis,
   HIDA scan negative.  ID has signed off. Ct torso unremarkable. F/u
   cultures when spikes.
   Elevated LFTs: Unclear source. Increasing Tbili, alk phos, GGT suggests
   a cholestatic picture although no son[**Name (NI) 351**] e/o cholecystitis on
   repeat RUQ u/s. HIDA scan negative.  Triglycerides are also high,
   likely [**3-11**] propofol, now trending down.  New elevation of amylase and
   lipase over last couple days. CT torso unremarkable.
   Altered mental status /severe NM weakness: Ct head without
   abnormalities. Uremic today, will f/u after HD. ICU neuropathy as well.
   Stop morphine and seroquel. Use prn haldol and morphine sparingly.
   Acute Renal Failure: HD today. Will need long term HD access: IR
   guided.
   Cdiff colitis: 2L stool output yesterday. Check repeat cdiff. Consider
   stool binder. Continue po Vanc.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2143-8-11**] 06:02 AM 45 mL/hour
   Will get nutrition consult
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have seen and examined Mr [**Known lastname 3002**] and Dr [**Last Name (STitle) 691**]
s note reflects my
   thoughts. He is more awake today but severely debilitated and
   profoundly weak after his long illness with ARDS. He will need IR
   guided placement of his HD line and optimization of nutritional
   support. We will check a CPK and possible EMG/ NCS if his weakness does
   not improve over the next few days with HD. I suspect his recovery will
   be long and protracted given his current clinical exam.  He will need
   ICU level care for now till respiratory status has improved
   significantly. We will minimize sedation even during procedures and
   daily care.
   Critical care time: 35 mins
   [**First Name8 (NamePattern2) 3093**] [**Doctor Last Name **], M.D
   Division of Pulmonary and Critical Care Medicine,
   [**Hospital1 19**], [**Location (un) 5176**], [**Location (un) 23**], [**Numeric Identifier 960**].
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2143-8-12**] 01:06 PM ------

2143-08-13 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2143-8-12**] 01:58 PM
 PAN CULTURE - At [**2143-8-12**] 04:23 PM
 ARTERIAL LINE - START [**2143-8-13**] 12:15 AM
 FEVER - 102.0
F - [**2143-8-12**] 06:00 PM
   - D/c'ed morphine and seroquel given altered mental status.  Tried
   fentanyl/haldol for agitation/pain.
   - Required re-intubation for tachypnea and hypoxic respiratory
   distress.
   - EMG ordered for profound weakness.
   - Hypotensive post-intubation with lactate of 3.3 requiring 3 L NS.
   - Fever to 102 -> Pan cultured and started on Vanc/[**Last Name (un) **] (zosyn allergy)
   - A-line placed for hemodynamic monitoring
   - Renal: started HD, but stopped early due to respiratory distress and
   need for intubation.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-12**] 04:00 PM
   Meropenem - [**2143-8-12**] 05:17 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2143-8-12**] 08:26 AM
   Fentanyl - [**2143-8-12**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-13**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.6
   HR: 102 (78 - 108) bpm
   BP: 96/46(62) {81/45(55) - 96/53(66)} mmHg
   RR: 27 (20 - 47) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  5,116 mL
                                                                    196 mL
   PO:
             TF:
                                                                    608 mL
   IVF:
                                                                  4,508 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,106 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.35/36/131/18/-4
   Ve: 14.3 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ET and NG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.  Alert and follows simple
   commands. Speech partly intelligible.
   Labs / Radiology
   379 K/uL
   7.7 g/dL
   136 mg/dL
   5.2 mg/dL
   18 mEq/L
   5.4 mEq/L
   65 mg/dL
   104 mEq/L
   139 mEq/L
   24.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2143-8-11**]  04:39 AM
                             [**2143-8-11**]  07:26 AM
                             [**2143-8-11**]  01:00 PM
                             [**2143-8-12**]  06:21 AM
                             [**2143-8-12**]  01:29 PM
                             [**2143-8-12**]  01:33 PM
                             [**2143-8-12**]  02:20 PM
                             [**2143-8-13**]  12:58 AM
                             [**2143-8-13**]  04:23 AM
                             [**2143-8-13**]  04:43 AM
   WBC
   10.3
   9.1
   Hct
   30.1
   28.6
   24.3
   Plt
   660
   379
   Cr
   3.0
   6.4
   5.2
   TCO2
   20
   26
   25
   22
   21
   Glucose
   182
   176
   217
   136
   Other labs: PT / PTT / INR:14.9/48.7/1.3, ALT / AST:46/35, Alk Phos / T
   Bili:359/1.7, Lactic Acid:1.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:8.3 mg/dL
   C. diff neg x 3
   [**8-12**] sputum cx: contaminated
   [**8-12**] urine cx: NGTD
   [**Date range (1) 8627**] blood cx: NGTD
   CT C/A/P: Persistent but improved airspace consolidation and reticular
   interstitial thickening involving all pulmonary lobes. It is difficult
   to determine how much is explained by post- infectious scarring versus
   residual infection.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Had respiratory distress relieved by ETT
   change and subsequently extubated [**8-10**] but required reintubation
   yesterday for tachypnea and hypoxemic resp distress; may be [**3-11**] to
   mucous plugging in the setting of profound weakness. Repeat XRAY
   unchanged from priors.  ET tube in good position.  Sputum sample
   yesterday contaminated.   Currently on [**6-11**] at 40% FiO2 with repeat ABG
   improving. Unclear what precipitated this event.
   - Currently on vanc/meropenem (plan on 8 day course of ventilator
   associated pneumonia versus HAP)
   - On versed and fentanyl for sedation; wean down as tolerated
   - will continue to reassess need for trach and PEG, currently on
   schedule for tomorrow
   - Cont heparin gtt for segmental pilmonary embolism
 will need to hold
   in AM for planned procedure
   Hypotension/Shock: Concern for sepsis given fever to 102; now stable of
   vanc and [**Last Name (un) 614**]. Hypovolemia possible in setting of volume shifts with
   HD, may have been exacerbated by sedation needed for reintubation,
   reponded to fluid boluses.
   - Cont vanc and [**Last Name (un) 614**] pending further micro data (if negative will plan
   for 8 day course for VAP vs. HAP)
   - Discuss restarting CVVH with Renal with goal net even
   - Fluid boluses or levophed prn to maintain goal MAP >55
   Fevers:  Previous sources include C. diff, medications, PE. New fever
   to 102 which may have been masked past few days by CVVH. Pan-scan
   unremarkable. Micro only with sparse Aspergillus in sputum, likely
   colonizer. LFTs/pancreatic enzymes stable to improved with neg HIDA
   scan. Urine cx neg.
   - vanc and meropenem pending further micro data
   - continue vancomycin po for c.diff for now as restarted on broad
   antibiotics
   - cont to trend fever curve and WBC
   - continue heparin gtt for pulmonary embolism
   - plan to resite HD line (placed [**2143-7-26**])
   - limit medications as much as possible
   Elevated LFTs: Unclear source. Bump in Tbili today but otherwise slowly
   trending down.  [**Month (only) 51**] have been related to cholestatic medications.  No
   son[**Name (NI) 351**] evidence of cholecytsitis.  CT abdomen and pelvis without
   clear etiology. Does have subcentimeter post right hepatic lobe
   hypodensity thought to be hemangioma on prior imaging.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   C.difficile colitis: On po vancomycin for plan 14 day course (last dose
   [**2143-8-11**]) but will continue given restarting of broad abx
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p reintubation and sedated.
   - On versed and fentanyl; wean down as tolerated (able to wean off
   propofol overnight)
   - Consider EEG if no improvement noted over time off sedatives
   Weakness: [**Month (only) 51**] be secondary to critical illness myopathy versus central
   process.
   - EMG to evaluate
   Back Pain:  Unclear etiology.  Appears musculoskeletal.  Likely from
   immobilization.  Improved initially with Fentanyl boluses and lidocaine
   patch.   Was given morphine and ativan but this made him apneic.
   - continue lidocaine patch
   - currently on fentanyl gtt
   Acute Renal Failure: Now off CVVH  and plan for HD today.
   - discuss restarting CVVH with Renal
   - given minimal UOP, straight cath 2x/weekly
   - aluminum hydroxide for hyperphophatemia
   - unable to pursue tunneled line today because of new fevers, will
   continue to monitor cultures
   Atrial fibrillation / atrial flutter: Aflutter with rates in 100s.
   - holding beta blocker for now given hypotension
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-13 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ARDS, Respiratory Failure
   24 Hour Events:
   reintubated for work of breathing yesterday. febrile to 102 and
   hypotensive with elevated lactate. ABX resumed.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-12**] 04:00 PM
   Meropenem - [**2143-8-12**] 05:17 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,350 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2143-8-12**] 12:30 PM
   Lansoprazole (Prevacid) - [**2143-8-13**] 08:00 AM
   Other medications:
   RISS, Vancomycin, FeSO4, Lidocaine patch, Lopressor (held), propofol
   off, Versed 2m/g hr, Fentanyl 100 mcg/hr, meropenem, Peridex, Renagel,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-13**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.5
   HR: 117 (81 - 117) bpm
   BP: 92/50(64) {81/45(55) - 96/53(66)} mmHg
   RR: 18 (17 - 47) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  5,116 mL
                                                                    473 mL
   PO:
             TF:
                                                                    608 mL
   IVF:
                                                                  4,508 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,106 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 651 (651 - 651) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.31 / 37 / 125
   Ve: 11 L/min
   PaO2 / FiO2: 412
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   379 K/uL
   136 mg/dL
   5.2 mg/dL
   18 mEq/L
   5.4 mEq/L
   65 mg/dL
   104 mEq/L
   139 mEq/L
   24.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2143-8-11**]  01:00 PM
                             [**2143-8-12**]  06:21 AM
                             [**2143-8-12**]  01:29 PM
                             [**2143-8-12**]  01:33 PM
                             [**2143-8-12**]  02:20 PM
                             [**2143-8-13**]  12:58 AM
                             [**2143-8-13**]  04:23 AM
                             [**2143-8-13**]  04:43 AM
                             [**2143-8-13**]  09:09 AM
                             [**2143-8-13**]  10:31 AM
   WBC
   10.3
   9.1
   Hct
   30.1
   28.6
   24.3
   Plt
   660
   379
   Cr
   6.4
   5.2
   TCO2
   20
   26
   25
   22
   21
   21
   20
   Glucose
   217
   136
   Other labs: PT / PTT / INR:14.9/47.6/1.3, CK / CKMB / Troponin-T:26//,
   ALT / AST:46/35, Alk Phos / T Bili:359/1.7, Amylase / Lipase:150/139,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:8.3 mg/dL
   Imaging: [**8-13**] CXR- elevated R hemidiaphragm, bilat perihilar infiltrate
   [**8-11**] CT c/a/p- slow resolution of panlobar interstital changes
   Microbiology: [**8-12**] pan-culture- pending
   [**8-12**] C.diff- negative
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**].
   Hypoxemic respiratory failure- reintubated [**8-12**] for work of breathing
   and hypoxemia. Presuming either new sepsis perhaps due to a new pulm
   infection?
   -covering w/ vanco + meropenem (day 2 of 8) empiric course for VAP vs
   HAP
   -f/u culture data, chronically colonized w/ Aspergillus
   -may be looking at a trach/PEG given prolonged vent dependence and
   tenuous status off. Will help us wean sedation and plan for disposition
   -cont heparin gtt for RLL segmental PE
   Transaminitis- now resolving and without a clear source. Were
   considering propofol gtt as a cause and this is now held
   -[**8-11**] CT torso unremarkable
   -continue to trend
   Altered mental status- minimize sedatives and monitor
   Renal failure- HD today, consider re-siting HD line with a more
   permanent line once fevers resolved
   Cdiff colitis: does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-14 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2143-8-13**] 02:00 PM
 FEVER - 102.0
F - [**2143-8-13**] 04:00 PM
   - Transitioned from AC back to PS
   - Presumed VAP v. HAP. Plan for 8-day course abx: vanc/cefepime/tobra
   per ID
   - IP: Plan for trach/PEG in PM. Tube feeds held after MN.
   - Neuromusc: EMG without clear evidence for ICU neuropathy but limited
   by positioning/cooperation.
   - Renal: Reassess HD v. CVVH tmrw. Consider nl bicarb for fluid
   boluses.
   - Noted to have grossly guaiac positive brown stool. Heparin gtt
   stopped. Hct decreased to 21.8. Hapto 392. Transfused 1 unit pRBC. AM
   Hct 24.1
   - Given worsening met acidosis and lower running BP, given 500 cc nl
   bicarb.
   - AM K 6.2 with small peaked T waves. Given calcium gluconate, insulin,
   dextrose, and kayexalate.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Meropenem - [**2143-8-12**] 05:17 PM
   Tobramycin - [**2143-8-13**] 04:50 PM
   Cefipime - [**2143-8-13**] 05:25 PM
   Vancomycin - [**2143-8-14**] 12:56 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2143-8-13**] 08:00 AM
   Heparin Sodium - [**2143-8-13**] 12:45 PM
   Pantoprazole (Protonix) - [**2143-8-13**] 10:13 PM
   Dextrose 50% - [**2143-8-14**] 05:35 AM
   Insulin - Regular - [**2143-8-14**] 05:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-14**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.3
   HR: 111 (96 - 118) bpm
   BP: 98/48(63) {87/45(59) - 108/58(74)} mmHg
   RR: 13 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83 kg (admission): 84.5 kg
   Height: 70 Inch
           Total In:
                                                                  1,481 mL
                                                                    734 mL
   PO:
           TF:
                                                                    133 mL
                                                                     19 mL
   IVF:
                                                                  1,018 mL
                                                                    135 mL
   Blood products:
                                                                     60 mL
                                                                    290 mL
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,131 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 744 (625 - 756) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.26/39/120/15/-8
   Ve: 10.6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ET and NG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.
   Labs / Radiology
   401 K/uL
   7.7 g/dL
   123 mg/dL
   7.7 mg/dL
   15 mEq/L
   6.2 mEq/L
   99 mg/dL
   101 mEq/L
   136 mEq/L
   24.1 %
   10.7 K/uL
                             [**2143-8-13**]  04:23 AM
                             [**2143-8-13**]  04:43 AM
                             [**2143-8-13**]  09:09 AM
                             [**2143-8-13**]  10:31 AM
                             [**2143-8-13**]  11:46 AM
                             [**2143-8-13**]  02:08 PM
                             [**2143-8-13**]  07:50 PM
                             [**2143-8-13**]  08:15 PM
                             [**2143-8-14**]  03:31 AM
                             [**2143-8-14**]  03:51 AM
   WBC
   9.1
   10.7
   Hct
   24.3
   21.8
   24.1
   Plt
   379
   401
   Cr
   5.2
   7.7
   TCO2
   21
   21
   20
   20
   19
   18
   18
   Glucose
   136
   123
   Other labs: PT / PTT / INR:13.0/25.1/1.1, CK / CKMB / Troponin-T:26//,
   ALT / AST:36/23, Alk Phos / T Bili:285/1.8, Amylase / Lipase:123/52,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:11.2 mg/dL
   ALT: 36
   AP: 285
   Tbili: 1.8
   Alb:
   AST: 23
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 354**]: 123
   Lip: 52
   Ca: 9.0 Mg: 2.5 P: 11.2
   PT: 13.0
   PTT: 25.1
   INR: 1.1
[**2143-8-13**] SPUTUM CX: GRAM STAIN (Final [**2143-8-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
URINE CULTURE (Final [**2143-8-13**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   C diff
 negative on [**2143-8-12**]
   Assessment and Plan 65 year old male without clear PMH presenting with
   multifocal pneumonia secondary initially to influenza A now with
   respiratory failure c/b ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Had respiratory distress relieved by ETT
   change and subsequently extubated [**8-10**] but required reintubation [**2143-8-11**]
   for tachypnea and hypoxemic resp distress; may be [**3-11**] to mucous
   plugging in the setting of profound weakness. Repeat XRAY unchanged
   from priors.  ET tube in good position.  Sputum sample without
   microorganisms.   Currently on [**6-11**] at 40% FiO2 with repeat ABG
   improving. Unclear what precipitated this event.
   - Currently on vanc, tobramycin, cefepime (plan on 8 day course to end
   on [**2143-8-19**] for ventilator associated pneumonia versus HAP)
   - tobramycin and vanc levels today given starting CVVH
   - On versed and fentanyl for sedation; wean down as tolerated
   - scheduled for trach/PEG today
   - Hold heparin gtt for falling Hct and plan for trach/PEG.
   Hypotension/Shock: Improved.  Likely related to infection versus
   medication related in the setting of intubation.
   - Cont vanc, tobramycin, cefepime pending further micro data (if
   negative will plan for 8 day course for VAP vs. HAP)
   - Will restart CVVH with net goal even
   Fevers:  Afebrile overnight.  Previous sources include C. diff,
   medications, PE. New fever to 102 which may have been masked past few
   days by CVVH. Pan-scan unremarkable. Micro only with sparse Aspergillus
   in sputum, likely colonizer. LFTs/pancreatic enzymes stable to improved
   with neg HIDA scan. Urine cx neg.
   - vanc, tobramycin, cefepime per infectious disease pending further
   micro data
   - continue vancomycin po for c.diff for now as restarted on broad
   antibiotics
   - cont to trend fever curve and WBC
   - plan to resite HD line (placed [**2143-7-26**]) when he is afebrile for > 48
   hr
   - limit medications as much as possible
   Anion Gap Metabolic Acidosis:  Likely related to uremia.
   - CVVH today
   Elevated LFTs: Unclear source.   Slowly trending down.  [**Month (only) 51**] have been
   related to cholestatic medications.  No son[**Name (NI) 351**] evidence of
   cholecytsitis.  CT abdomen and pelvis without clear etiology. Does have
   subcentimeter post right hepatic lobe hypodensity thought to be
   hemangioma on prior imaging.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - will continue given restarting of broad abx
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt currently on hold for procedure and for falling Hct in
   setting of grossly guaiac positive stool.
   - will recheck hct now
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p reintubation and sedated.
   - On versed and fentanyl; wean down as tolerated
   - Consider EEG if no improvement noted over time off sedatives
   Weakness: [**Month (only) 51**] be secondary to critical illness myopathy versus central
   process.  EMG prelim read without clear evidence for ICU neuropathy but
   limited by positioning/cooperation
   - f/u EMG final read
   Back Pain:  Unclear etiology.  Appears musculoskeletal.  Likely from
   immobilization.  Improved initially with Fentanyl boluses and lidocaine
   patch.   Was given morphine and ativan but this made him apneic.
   - continue lidocaine patch
   - currently on fentanyl gtt
   Acute Renal Failure: Will restart CVVH today.
   - plan to restart CVVH today
   - given minimal UOP, straight cath 2x/weekly
   - two more doses of aluminum hydroxide today for hyperphophatemia
   - increase sevalamer to 1600 mg TID w/meals
   - unable to pursue tunneled line today because of new fevers, will
   continue to monitor cultures
   Atrial fibrillation / atrial flutter: Aflutter with rates in 100s.
   - holding beta blocker for now given hypotension
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.  Received one unit on [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Holding TF for trach/PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-14 11:19:00 Physician Attending Progress Note
Chief Complaint:
   HPI: Respiratory Failure, ARDS
   24 Hour Events:
   no events. tolerated PSV all day. received 1u prbc transfusion
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Meropenem - [**2143-8-12**] 05:17 PM
   Tobramycin - [**2143-8-13**] 04:50 PM
   Cefipime - [**2143-8-13**] 05:25 PM
   Vancomycin - [**2143-8-14**] 12:56 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2143-8-13**] 12:45 PM
   Pantoprazole (Protonix) - [**2143-8-13**] 10:13 PM
   Dextrose 50% - [**2143-8-14**] 05:35 AM
   Insulin - Regular - [**2143-8-14**] 05:36 AM
   Other medications:
   po vanco, FeSO4, lidocaine patch, aluminum hydroxide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-14**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.8
C (98.3
   HR: 104 (96 - 118) bpm
   BP: 98/57(71) {90/45(59) - 108/58(74)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.9 kg (admission): 84.5 kg
   Height: 70 Inch
           Total In:
                                                                  1,481 mL
                                                                    837 mL
   PO:
           TF:
                                                                    133 mL
                                                                     19 mL
   IVF:
                                                                  1,018 mL
                                                                    238 mL
   Blood products:
                                                                     60 mL
                                                                    290 mL
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,131 mL
                                                                    837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 737 (625 - 756) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.26/39/120/15/-8
   Ve: 10.7 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   401 K/uL
   123 mg/dL
   7.7 mg/dL
   15 mEq/L
   6.2 mEq/L
   99 mg/dL
   101 mEq/L
   136 mEq/L
   24.1 %
   10.7 K/uL
        [image002.jpg]
                             [**2143-8-13**]  04:23 AM
                             [**2143-8-13**]  04:43 AM
                             [**2143-8-13**]  09:09 AM
                             [**2143-8-13**]  10:31 AM
                             [**2143-8-13**]  11:46 AM
                             [**2143-8-13**]  02:08 PM
                             [**2143-8-13**]  07:50 PM
                             [**2143-8-13**]  08:15 PM
                             [**2143-8-14**]  03:31 AM
                             [**2143-8-14**]  03:51 AM
   WBC
   9.1
   10.7
   Hct
   24.3
   21.8
   24.1
   Plt
   379
   401
   Cr
   5.2
   7.7
   TCO2
   21
   21
   20
   20
   19
   18
   18
   Glucose
   136
   123
   Other labs: PT / PTT / INR:13.0/25.1/1.1, CK / CKMB / Troponin-T:26//,
   ALT / AST:36/23, Alk Phos / T Bili:285/1.8, Amylase / Lipase:123/52,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.0 mg/dL, Mg++:2.5 mg/dL, PO4:11.2 mg/dL
   Imaging: [**8-14**] CXR- RUL infiltrate, LLL infiltrate
   Microbiology: [**8-13**] Sputum- gm stain neg, cx pending
   [**8-12**] C diff- negative
   [**8-13**] urine and blood pending
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing.
   Hypoxemic respiratory failure- reintubated [**8-12**] for work of breathing
   and hypoxemia. Presuming either new sepsis perhaps due to a new pulm
   infection?
   -covering w/ vanco + cefepime + tobramycin (day 3 of 8) empiric course
   for VAP vs HAP; f/u vanco and tobra levels
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; held today for trach/PEG
   -to go for trach/PEG today
   Renal failure- with hyperkalemia and progressive AG met acidosis. HD
   today
   -needs re-siting HD line with a more permanent line once fevers
   resolved
   Transaminitis- now resolving and without a clear source. Were
   considering propofol gtt as a cause and this is now held
   -[**8-11**] CT torso unremarkable
   -continue to trend
   ? candidal sepsis will check fungal isolators
   Altered mental status- minimize sedatives and monitor
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds held for trach/ peg today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2143-08-15 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient received tracheostomy and PEG by interventional pulmonary,
   procedure was uncomplicated
   - started back on CVVH
   - received aluminum hydroxide for hyperphosphatemia and sevalemer was
   increased to 1600 mg TID
   History obtained from Patient
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Meropenem - [**2143-8-12**] 05:17 PM
   Tobramycin - [**2143-8-13**] 04:50 PM
   Cefipime - [**2143-8-14**] 06:30 PM
   Vancomycin - [**2143-8-15**] 01:10 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 2,550 units/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-14**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-15**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 100 (95 - 114) bpm
   BP: 87/52(65) {80/44(59) - 112/76(82)} mmHg
   RR: 17 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.9 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,295 mL
                                                                    679 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    696 mL
                                                                    559 mL
   Blood products:
                                                                    290 mL
   Total out:
                                                                    107 mL
                                                                    371 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 632 (632 - 835) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 12 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.33/44/157/19/-2
   Ve: 8.1 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, ET and NG tube
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: trace, Left: Trace
   Skin: Vesicles over left buttock
   Neurologic: Moves extremities spontaneously.
   Labs / Radiology
   401 K/uL
   7.7 g/dL
   164 mg/dL
   8.6 mg/dL
   19 mEq/L
   5.1 mEq/L
   107 mg/dL
   100 mEq/L
   138 mEq/L
   24.8 %
   10.7 K/uL
        [image002.jpg]
                             [**2143-8-13**]  02:08 PM
                             [**2143-8-13**]  07:50 PM
                             [**2143-8-13**]  08:15 PM
                             [**2143-8-14**]  03:31 AM
                             [**2143-8-14**]  03:51 AM
                             [**2143-8-14**]  12:38 PM
                             [**2143-8-14**]  01:44 PM
                             [**2143-8-14**]  09:58 PM
                             [**2143-8-14**]  10:15 PM
                             [**2143-8-15**]  02:22 AM
   WBC
   10.7
   Hct
   21.8
   24.1
   24.8
   Plt
   401
   Cr
   7.7
   8.6
   TCO2
   19
   18
   18
   18
   23
   24
   Glucose
   123
   122
   164
   Other labs: PT / PTT / INR:12.9/22.6/1.1, CK / CKMB / Troponin-T:26//,
   ALT / AST:36/23, Alk Phos / T Bili:285/1.8, Amylase / Lipase:123/52,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:12.5 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   fall in Hematocrit
 ALTERATION IN NUTRITION
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Assessment and Plan 65 year old male without clear PMH presenting with
   multifocal pneumonia secondary initially to influenza A now with
   respiratory failure c/b ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Had respiratory distress relieved by ETT
   change and subsequently extubated [**8-10**] but required reintubation [**2143-8-11**]
   for tachypnea and hypoxemic resp distress; may be [**3-11**] to mucous
   plugging in the setting of profound weakness. Repeat XRAY unchanged
   from priors.  ET tube in good position.  Sputum sample without
   microorganisms.   Currently on [**6-11**] at 40% FiO2 with repeat ABG
   improving. Unclear what precipitated this event.
   - Currently on vanc, tobramycin, cefepime (plan on 8 day course to end
   on [**2143-8-19**] for ventilator associated pneumonia versus HAP)
   - tobramycin and vanc levels today given starting CVVH
   - On versed and fentanyl for sedation; wean down as tolerated
   - scheduled for trach/PEG today
   - Hold heparin gtt for falling Hct and plan for trach/PEG.
   Hypotension/Shock: Improved.  Likely related to infection versus
   medication related in the setting of intubation.
   - Cont vanc, tobramycin, cefepime pending further micro data (if
   negative will plan for 8 day course for VAP vs. HAP)
   - Will restart CVVH with net goal even
   Fevers:  Afebrile overnight.  Previous sources include C. diff,
   medications, PE. New fever to 102 which may have been masked past few
   days by CVVH. Pan-scan unremarkable. Micro only with sparse Aspergillus
   in sputum, likely colonizer. LFTs/pancreatic enzymes stable to improved
   with neg HIDA scan. Urine cx neg.
   - vanc, tobramycin, cefepime per infectious disease pending further
   micro data
   - continue vancomycin po for c.diff for now as restarted on broad
   antibiotics
   - cont to trend fever curve and WBC
   - plan to resite HD line (placed [**2143-7-26**]) when he is afebrile for > 48
   hr
   - limit medications as much as possible
   Anion Gap Metabolic Acidosis:  Likely related to uremia.
   - CVVH today
   Elevated LFTs: Unclear source.   Slowly trending down.  [**Month (only) 51**] have been
   related to cholestatic medications.  No son[**Name (NI) 351**] evidence of
   cholecytsitis.  CT abdomen and pelvis without clear etiology. Does have
   subcentimeter post right hepatic lobe hypodensity thought to be
   hemangioma on prior imaging.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - will continue given restarting of broad abx
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt currently on hold for procedure and for falling Hct in
   setting of grossly guaiac positive stool.
   - will recheck hct now
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p reintubation and sedated.
   - On versed and fentanyl; wean down as tolerated
   - Consider EEG if no improvement noted over time off sedatives
   Weakness: [**Month (only) 51**] be secondary to critical illness myopathy versus central
   process.  EMG prelim read without clear evidence for ICU neuropathy but
   limited by positioning/cooperation
   - f/u EMG final read
   Back Pain:  Unclear etiology.  Appears musculoskeletal.  Likely from
   immobilization.  Improved initially with Fentanyl boluses and lidocaine
   patch.   Was given morphine and ativan but this made him apneic.
   - continue lidocaine patch
   - currently on fentanyl gtt
   Acute Renal Failure: Will restart CVVH today.
   - plan to restart CVVH today
   - given minimal UOP, straight cath 2x/weekly
   - two more doses of aluminum hydroxide today for hyperphophatemia
   - increase sevalamer to 1600 mg TID w/meals
   - unable to pursue tunneled line today because of new fevers, will
   continue to monitor cultures
   Atrial fibrillation / atrial flutter: Aflutter with rates in 100s.
   - holding beta blocker for now given hypotension
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.  Received one unit on [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: plan to restart tube feeds via PEG
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-15 10:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, ARDS, Renal failure
   24 Hour Events:
   underwent trach/PEG yest without problems. Started on CVVH.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Meropenem - [**2143-8-12**] 05:17 PM
   Tobramycin - [**2143-8-13**] 04:50 PM
   Vancomycin - [**2143-8-15**] 01:10 AM
   Cefipime - [**2143-8-15**] 06:03 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-14**] 08:06 PM
   Other medications:
   RISS, po vancomycin, FeSO4, Peridex, cefepime, Renagel, Vanco IV,
   Heparin gtt, lidocaine patch, [**Doctor Last Name **] hydroxide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-15**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 87 (87 - 114) bpm
   BP: 123/59(77) {80/44(59) - 123/76(82)} mmHg
   RR: 13 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.7 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,295 mL
                                                                  1,521 mL
   PO:
             TF:
                                                                     19 mL
   IVF:
                                                                    696 mL
                                                                  1,281 mL
   Blood products:
                                                                    290 mL
   Total out:
                                                                    107 mL
                                                                  1,087 mL
   Urine:
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,188 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 744 (632 - 835) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 12 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.36/40/136/19/-3
   Ve: 10.5 L/min
   PaO2 / FiO2: 272
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   347 K/uL
   164 mg/dL
   8.6 mg/dL
   19 mEq/L
   5.1 mEq/L
   107 mg/dL
   100 mEq/L
   138 mEq/L
   23.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-8-13**]  08:15 PM
                             [**2143-8-14**]  03:31 AM
                             [**2143-8-14**]  03:51 AM
                             [**2143-8-14**]  12:38 PM
                             [**2143-8-14**]  01:44 PM
                             [**2143-8-14**]  09:58 PM
                             [**2143-8-14**]  10:15 PM
                             [**2143-8-15**]  02:22 AM
                             [**2143-8-15**]  05:49 AM
                             [**2143-8-15**]  06:18 AM
   WBC
   10.7
   6.5
   Hct
   24.1
   24.8
   23.8
   Plt
   401
   347
   Cr
   7.7
   8.6
   TCO2
   18
   18
   18
   23
   24
   22
   Glucose
   123
   122
   164
   Other labs: PT / PTT / INR:14.2/87.8/1.2, CK / CKMB / Troponin-T:26//,
   ALT / AST:36/23, Alk Phos / T Bili:285/1.8, Amylase / Lipase:123/52,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:12.5 mg/dL
   Fluid analysis / Other labs: anion gap- 21
   Imaging: [**8-12**] EMG- absent sensory response. possibility of neuropathy
   but no motor neuropathy. critical illness neuropathy unlikely
   [**8-15**] CXR- RUL and LLL infiltrate
   Microbiology: [**8-13**] sputum- neg to date
   [**8-14**] fungal blood cx- pending
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing.
   Hypoxemic respiratory failure- reintubated [**8-12**] for work of breathing
   and hypoxemia. Presuming either new sepsis or new infection. s/p trach
   and PEG on [**8-14**]
   -now tolerating trach mask, continue to monitor
   -covering w/ vanco + cefepime (day 4 of 8) empiric course for VAP vs
   HAP; f/u vanco levels
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once procedure done
   Fevers- back when off CVVH, unclear source
   -fungal isolators and broad cx pending
   Renal failure- with hyperkalemia and progressive AG met acidosis. HD
   today
   -needs re-siting HD line with a more permanent line once fevers
   resolved; will ask IR to re-address tomorrow
   -touch base w/ Renal about transitioning to HD if hemodynamically
   stable
   Transaminitis- now resolving and without a clear source. Were
   considering propofol gtt as a cause and this is now held
   -[**8-11**] CT torso unremarkable
   -continue to trend
   A flutter/ fib- cautious resumption of metoprolol
   Altered mental status- minimize sedatives and monitor
   -may need EEG if still not clearing
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Disposition- as we plan for a LTAC or rehab, we would like to come up
   with a pain/ anxiety regimen that is noninvasive, and transition to
   intermit HD. Will involve SW/ Case Mgmt as well.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds when ok by IP to resume
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2143-08-16 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/c'ed tobra, continued on Vanc/Cefipime
   - Renal: If pressure continues to stay up, then may try HD when new
   line is placed. Okay to stop aluminum hydroxide and continued
   sevelamir.
   - Paged IR and they will see him this AM.
   - Patient continues to cough, minimal sputum with suctioning.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Tobramycin - [**2143-8-13**] 04:50 PM
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-15**] 05:04 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Fentanyl - [**2143-8-16**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-16**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 108 (83 - 113) bpm
   BP: 160/67(96) {101/57(71) - 162/70(97)} mmHg
   RR: 31 (11 - 31) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 77.7 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,669 mL
                                                                    833 mL
   PO:
             TF:
                                                                     57 mL
                                                                      6 mL
   IVF:
                                                                  3,132 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  3,413 mL
                                                                    799 mL
   Urine:
                                                                     10 mL
   NG:
                                                                    200 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 744 (744 - 744) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.46/32/102/20/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance:Trached, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Moves extremities spontaneously. Has been following
   commands intermittently
   Labs / Radiology
   318 K/uL
   7.5 g/dL
   130 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   96 mEq/L
   132 mEq/L
   24.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2143-8-15**]  11:24 AM
                             [**2143-8-15**]  12:07 PM
                             [**2143-8-15**]  12:42 PM
                             [**2143-8-15**]  02:32 PM
                             [**2143-8-15**]  05:46 PM
                             [**2143-8-15**]  06:01 PM
                             [**2143-8-15**]  10:51 PM
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
   WBC
   7.0
   Hct
   24.8
   24.0
   Plt
   318
   Cr
   3.9
   3.2
   2.9
   2.7
   TCO2
   24
   24
   23
   24
   23
   Glucose
   131
   127
   163
   130
   Other labs: PT / PTT / INR:17.1/121.2/1.5, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   PT: 17.1
   PTT: 121.2
   INR: 1.5
   ALT: 28
   AP: 247
   Tbili: 1.0
   Alb:
   AST: 25
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 354**]: 180
   Lip: 117
[**2143-8-13**] 1:58 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2143-8-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
      GRAM NEGATIVE ROD #2.
   BLOOD/FUNGAL CULTURE-PENDING
   BLOOD/AFB CULTURE-PENDING
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Had respiratory distress relieved by ETT
   change and subsequently extubated [**8-10**] but required reintubation [**2143-8-11**]
   for tachypnea and hypoxemic resp distress; may be [**3-11**] to mucous
   plugging in the setting of profound weakness.  Sputum sample without
   microorganisms.   Currently on [**6-11**] at 40% FiO2 with repeat ABG
   improving. Unclear what precipitated this event.  Trached and PEG on
   [**2143-8-14**].
   - Currently on vanc, tobramycin, cefepime (plan on 8 day course to end
   on [**2143-8-19**] for ventilator associated pneumonia versus HAP).  Given
   renal function will discontinue tobramycin.
   - vanc levels given CVVH
   - now off sedation
   - re-started heparin gtt for PE.
   Hypotension/Shock: Improved.  Likely related to infection versus
   medication related in the setting of intubation.
   - Cont vanc, tobramycin, cefepime pending further micro data (if
   negative will plan for 8 day course for VAP vs. HAP)
   - Continue CVVH with net goal even
   Fevers:  Afebrile overnight.  Previous sources include C. diff,
   medications, PE. New fever to 102 which may have been masked past few
   days by CVVH. Pan-scan unremarkable. Micro only with sparse Aspergillus
   in sputum, likely colonizer. LFTs/pancreatic enzymes stable to improved
   with neg HIDA scan. Urine cx neg.
   - vanc, cefepime for treatment of hospital acquired pneumonia
   - continue vancomycin po for c.diff for now as restarted on broad
   antibiotics
   - cont to trend fever curve and WBC
   - plan to resite HD line (placed [**2143-7-26**]) when he is afebrile for > 48
   hr
   - limit medications as much as possible
   Elevated LFTs: Unclear source.   Slowly trending down.  [**Month (only) 51**] have been
   related to cholestatic medications.  No son[**Name (NI) 351**] evidence of
   cholecytsitis.  CT abdomen and pelvis without clear etiology. Does have
   subcentimeter post right hepatic lobe hypodensity thought to be
   hemangioma on prior imaging.
   - continue to trend
   - limit medications that cause cholestasis as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until broad spectrum abx are completed.
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - Restarted heparin gtt.
   - monitor daily Hct
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p Trach/PEG and sedated.
   - now off sedation, will reassess mental status as sedation clears
   - Consider EEG if no improvement noted over time off sedatives
   Weakness: [**Month (only) 51**] be secondary to critical illness myopathy versus central
   process.  EMG suggests critical illness polyneuropathy is unlikely. Now
   consider deconditioning vs. medication induced.
   - continue to monitor
   Acute Renal Failure: Restarted on CVVH on [**2143-8-14**]. Was given aluminum
   hydroxide for hyperphophatemia
   - given minimal UOP, straight cath 2x/weekly
   - Continue sevalamer to 1600 mg TID w/meals
   - tunneled dialysis catheter when afebrile >48hrs
   - continue aluminum hydroxide x 6 more doses
   Atrial fibrillation / atrial flutter: Aflutter with rates in 100s.
   - will restart low dose beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.  Received one unit on [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-16 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, ARDS
   24 Hour Events:
   no overnight events
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Tobramycin - [**2143-8-13**] 04:50 PM
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-15**] 05:04 PM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-16**] 12:00 AM
   Fentanyl - [**2143-8-16**] 01:15 AM
   Other medications:
   po vanco, renagel, vanco IV, FeSO4, Lopressor
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-16**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 86 (83 - 113) bpm
   BP: 144/61(92) {119/54(73) - 162/70(97)} mmHg
   RR: 28 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  3,669 mL
                                                                  1,611 mL
   PO:
             TF:
                                                                     57 mL
                                                                      6 mL
   IVF:
                                                                  3,132 mL
                                                                  1,425 mL
   Blood products:
   Total out:
                                                                  3,413 mL
                                                                  1,453 mL
   Urine:
                                                                     10 mL
   NG:
                                                                    200 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 100%
   ABG: 7.46/32/102/20/0
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: diffusely but unchaged from prior
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   318 K/uL
   130 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   41 mg/dL
   96 mEq/L
   132 mEq/L
   24.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2143-8-15**]  11:24 AM
                             [**2143-8-15**]  12:07 PM
                             [**2143-8-15**]  12:42 PM
                             [**2143-8-15**]  02:32 PM
                             [**2143-8-15**]  05:46 PM
                             [**2143-8-15**]  06:01 PM
                             [**2143-8-15**]  10:51 PM
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
   WBC
   7.0
   Hct
   24.8
   24.0
   Plt
   318
   Cr
   3.9
   3.2
   2.9
   2.7
   TCO2
   24
   24
   23
   24
   23
   Glucose
   131
   127
   163
   130
   Other labs: PT / PTT / INR:17.1/121.2/1.5, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**8-13**] Sputum- Enterobacter cloacae ([**Last Name (un) 270**] pending)
   [**8-13**] Blood and urine pending
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**]
   Hypoxemic respiratory failure- reintubated [**8-12**] for work of breathing
   and hypoxemia. Presuming either new sepsis or new infection. s/p trach
   and PEG on [**8-14**]
   -now tolerating trach mask, continue to monitor
   -covering w/ vanco + cefepime (day 5 of 8) empiric course for VAP vs
   HAP; f/u vanco levels
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once HD cath re-siting done
   Fevers- back when off CVVH, unclear source
   -fungal isolators and broad cx pending
   Renal failure- with hyperkalemia and progressive AG met acidosis. HD
   today
   -needs re-siting HD line with a more permanent line once fevers
   resolved; will ask IR to re-address today
   -touch base w/ Renal about transitioning to HD since hemodynamically
   stable last 48h
   Transaminitis- now resolving and without a clear source. Were
   considering propofol gtt as a cause and this is now dc'd
   -[**8-11**] CT torso unremarkable
   -continue to trend
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Disposition- as we plan for a LTAC or rehab, we would like to come up
   with a pain/ anxiety regimen that is noninvasive, and transition to
   intermit HD. Will involve SW/ Case Mgmt as well.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds, needs circardian physiology restored possibly
   with hypnotic QHS
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   18 Gauge - [**2143-8-12**] 05:17 PM
   22 Gauge - [**2143-8-12**] 05:18 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2143-08-17 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sputum cx grew pansensitive enterobacter, unspeciated GNR
   - D/c'd sevelamer
   - CVVH stopped as filter clogged; Renal to restart HD in AM
   - IR rescheduled HD cath placement to Monday; tube feeds and heparin
   gtt restarted
   - Given ativan 0.25mg as agitated overnight and not responsive to
   fentanyl boluses
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-17**] 05:24 AM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-16**] 08:15 PM
   Lorazepam (Ativan) - [**2143-8-16**] 11:21 PM
   Fentanyl - [**2143-8-16**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-17**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 83 (82 - 110) bpm
   BP: 149/57(81) {108/55(74) - 163/74(101)} mmHg
   RR: 29 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,453 mL
                                                                    431 mL
   PO:
             TF:
                                                                     72 mL
                                                                    122 mL
   IVF:
                                                                  2,081 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  2,769 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     15 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -316 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.48/29/102/20/0
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance:Trached
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Bronchial breath sounds
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Moves extremities spontaneously. Following commands.
   Labs / Radiology
   278 K/uL
   7.5 g/dL
   169 mg/dL
   4.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   51 mg/dL
   100 mEq/L
   135 mEq/L
   24.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2143-8-15**]  02:32 PM
                             [**2143-8-15**]  05:46 PM
                             [**2143-8-15**]  06:01 PM
                             [**2143-8-15**]  10:51 PM
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
   WBC
   7.0
   5.2
   Hct
   24.8
   24.0
   24.6
   Plt
   318
   278
   Cr
   3.2
   2.9
   2.7
   2.5
   4.0
   TCO2
   23
   24
   23
   22
   Glucose
   127
   163
   130
   130
   169
   Other labs: PT / PTT / INR:20.1/92.7/1.9, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE. Had respiratory distress relieved by ETT
   change and subsequently extubated [**8-10**] but required reintubation [**2143-8-11**]
   for tachypnea and hypoxemic resp distress [**3-11**] enterobacter pneumonia.
   Now on trach.
   - Cont vanc (dosed by level) and cefepime  with plan for 8 day course
   to end on [**2143-8-19**] for VAP v. HAP
   - F/u sputum culture sensitivities, pending micro
   - now off sedation
   - cont heparin gtt for PE
   Hypotension/Shock: Improved.  Likely related to infection versus
   medication related in the setting of intubation.
   - Cont vanc, cefepime pending further micro data (if negative will plan
   for 8 day course for VAP vs. HAP)
   - Continue CVVH with net goal even
   Fevers:  Afebrile overnight.  Previous sources include C. diff,
   medications, PE. Pan-scan unremarkable. Micro only with sparse
   Aspergillus in sputum, likely colonizer. LFTs/pancreatic enzymes stable
   to improved with neg HIDA scan. Urine cx neg.
   - vanc/cefepime for treatment of VAP v. HAP
   - continue vancomycin po for c.diff for now as restarted on broad
   antibiotics
   - cont to trend fever curve and WBC
   - plan to resite HD line (placed [**2143-7-26**]), hopefully today
   - limit medications as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until broad spectrum abx are completed.
   Acute Renal Failure: Restarted on CVVH on [**2143-8-14**]. Was given aluminum
   hydroxide for hyperphophatemia
   - given minimal UOP, straight cath 2x/weekly
   - continue sevalamer to 1600 mg TID w/meals
   - likely tunneled dialysis catheter today as afebrile >48hrs
   - f/u renal recs
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt with plan to start coumadin after HD line placed
   - monitor daily Hct
   Atrial fibrillation / atrial flutter: Aflutter with rates in 100s.
   - treating pain with fentanyl boluses
   - uptitrate beta blocker (metoprolol 12.5 mg [**Hospital1 7**]) prn
   Pain: Unclear but apears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses for now
   - reassess more long-term needs after 24-48 hours
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p Trach/PEG.
   - cont to monitor neuro status
   - ativan prn to regulate sleep/wake cycle; may need to be placed on
   vent overnight
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - continue to monitor
   Anemia: Continuing to trend, no e/o active bleeding.  Frequent
   phelobotomy as well as renal failure, chronic illness, and iron
   deficiency (iron/ferritin <10). Also sensitive to fluid shifts when on
   HD.  Received one unit on [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   Elevated LFTs: Unclear source.   Slowly trending down.  [**Month (only) 51**] have been
   related to cholestatic medications.  No son[**Name (NI) 351**] evidence of
   cholecytsitis.  CT abdomen and pelvis without clear etiology. Does have
   subcentimeter post right hepatic lobe hypodensity thought to be
   hemangioma on prior imaging.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-16**] 06:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-17 09:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ARDS, critical illness polyneuropathy
   24 Hour Events:
   CVVH clogged. IR HD cath not re-sited, put back on heparin gtt. got
   50mcg fentanyl and one-time Ativan dose overnight for ?pain and
   insomnia.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-17**] 05:24 AM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2143-8-16**] 11:21 PM
   Fentanyl - [**2143-8-16**] 11:58 PM
   Pantoprazole (Protonix) - [**2143-8-17**] 08:00 AM
   Other medications:
   RISS, peridex, lidocaine patch, FeSO4, lopressor,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-17**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 92 (82 - 103) bpm
   BP: 135/61(83) {108/57(74) - 163/74(101)} mmHg
   RR: 31 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,453 mL
                                                                    704 mL
   PO:
             TF:
                                                                     72 mL
                                                                    246 mL
   IVF:
                                                                  2,081 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,769 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     15 mL
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -316 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.48/29/102/20/0
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed, less responsive today than yesterday
   Labs / Radiology
   7.5 g/dL
   278 K/uL
   169 mg/dL
   4.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   51 mg/dL
   100 mEq/L
   135 mEq/L
   24.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2143-8-15**]  02:32 PM
                             [**2143-8-15**]  05:46 PM
                             [**2143-8-15**]  06:01 PM
                             [**2143-8-15**]  10:51 PM
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
   WBC
   7.0
   5.2
   Hct
   24.8
   24.0
   24.6
   Plt
   318
   278
   Cr
   3.2
   2.9
   2.7
   2.5
   4.0
   TCO2
   23
   24
   23
   22
   Glucose
   127
   163
   130
   130
   169
   Other labs: PT / PTT / INR:20.1/92.7/1.9, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**8-15**] sputum- pan-[**Last Name (un) 270**] enterobacter
   79
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**]
    Hypoxemic respiratory failure- reintubated [**8-12**] for work of breathing
   and hypoxemia. Presuming either new sepsis or new infection. s/p trach
   and PEG on [**8-14**]
   -now tolerating trach mask, continue to monitor
   -covering w/ vanco + cefepime (day 5 of 8) empiric course for VAP vs
   HAP; f/u vanco levels
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once HD cath re-siting done
   Fevers- back when off CVVH, unclear source
   -fungal isolators and broad cx pending
   Renal failure- with hyperkalemia and progressive AG met acidosis. HD
   today
   -needs re-siting HD line with a more permanent line once fevers
   resolved; will ask IR to re-address today
   -off CVVH and trial of int HD today
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Disposition- as we plan for a LTAC or rehab, we would like to come up
   with a pain/ anxiety regimen that is noninvasive, and transition to
   intermit HD. Will involve SW/ Case Mgmt as well.
   Rest per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-16**] 06:00 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Comments: d/c a line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2143-08-18 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerated HD
   - over the afternoon had increased respiratory rate with respiratory
   alkalosis.  Did not respond to fentanyl boluses.  Ativan 0.25 mg IV
   attempted also without improvement.
   - Placed on pressure support overnight with mild improvement, ABG
   stable
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-17**] 08:25 PM
   Lorazepam (Ativan) - [**2143-8-17**] 09:33 PM
   Fentanyl - [**2143-8-18**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-18**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 117 (88 - 126) bpm
   BP: 92/82(87) {92/50(65) - 156/82(94)} mmHg
   RR: 34 (25 - 37) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,690 mL
                                                                    522 mL
   PO:
             TF:
                                                                    916 mL
                                                                    286 mL
   IVF:
                                                                    654 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,690 mL
                                                                    522 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (429 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.48/35/155/20/3
   Ve: 17.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance:Trached, awake, nods to questions appropriately and
   follows simple commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Moves extremities to painful stimuli. Follows simple
   commands, nods to questions appropriately.
   Labs / Radiology
   276 K/uL
   7.6 g/dL
   262 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   49 mg/dL
   105 mEq/L
   141 mEq/L
   23.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
   WBC
   7.0
   5.2
   4.8
   Hct
   24.0
   24.6
   23.7
   Plt
   [**Telephone/Fax (3) 8710**]
   Cr
   2.7
   2.5
   4.0
   4.2
   TCO2
   24
   23
   22
   27
   26
   27
   Glucose
   130
   130
   169
   262
   Other labs: PT / PTT / INR:18.9/80.2/1.7, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.5 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Microbiology: No new data
   Imaging: No new imaging
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   fall in Hematocrit
 ALTERATION IN NUTRITION
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   enterobacter PNA (VAP v. HAP), now s/p trach.
   - HD dosing of vanc and cefepime  with plan for 8 day course to end on
   [**2143-8-19**] for VAP v. HAP
   - F/u pending micro
   - now off sedation, using fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt for PE
   Tachypnea:  Since tracheostomy patient has been noticed to have
   tachypnea with irregular respirations.  ABG with respiratory
   alkalosis.  Fentanyl and ativan were attempted without improvement in
   his tachypnea.  He was placed on CPAP overnight with mild improvement.
   - avoid sedating medications for tachypnea
   - will rest on CPAP and give sleep aids at night for now
   - will check CXR this morning
   - given low grade fevers will culture today
   Fevers:  Low grade fever this morning. Currently treating C. diff, PE,
   and pneumonia. Likely also had drug fever during hospital course. No
   evidence of abdominal process including cholecystitis and
   pancreatitis.
   - vanc/cefepime for treatment of VAP v. HAP
   - continue vancomycin po for c.diff for 7 days post completion of
   antibiotic course for HAP
   - cont to trend fever curve and WBC
   - will resend cultures today (blood, urine, sputum)
   - plan to resite HD line (placed [**2143-7-26**]) on [**Last Name (LF) 1088**], [**First Name3 (LF) **] discontinue
   temporary HD line today
   - limit medications as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course
   Acute Renal Failure: Trasitioned to HD [**2143-8-17**].
   -  f/u renal recs
   - sevelamer discontinued for now given normalization of phos
   - given minimal UOP, straight cath 2x/weekly
   - tunneled dialysis catheter on Mon
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt with plan to start coumadin after HD line placed
   - monitor daily Hct
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**]) prn
   Pain: Unclear but apears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses for now
   - reassess more long-term needs after 24-48 hours
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p Trach/PEG.
   - cont to monitor neuro status
   - will schedule trazodone for sleep
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - continue to monitor
   Anemia: Stable, no e/o active bleeding.  Frequent phelobotomy as well
   as renal failure, chronic illness, and iron deficiency (iron/ferritin
   <10). Also sensitive to fluid shifts when on HD.  Received one unit on
   [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-18**] 12:23 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT: therapeutic heparin
   Stress ulcer: PPI
   VAP: oral care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-18 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated successfully in AM
   - Clarified that patient will be DNR but okay to intubate.  Discussed
   with patient and his ex-wife
   - Health care proxy forms signed with ex-wife
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-17**] 08:25 PM
   Lorazepam (Ativan) - [**2143-8-17**] 09:33 PM
   Fentanyl - [**2143-8-18**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-18**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 117 (88 - 126) bpm
   BP: 92/82(87) {92/50(65) - 156/82(94)} mmHg
   RR: 34 (25 - 37) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,690 mL
                                                                    534 mL
   PO:
             TF:
                                                                    916 mL
                                                                    293 mL
   IVF:
                                                                    654 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,690 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (429 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.48/35/155/20/3
   Ve: 17.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   7.6 g/dL
   262 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   49 mg/dL
   105 mEq/L
   141 mEq/L
   23.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
   WBC
   7.0
   5.2
   4.8
   Hct
   24.0
   24.6
   23.7
   Plt
   [**Telephone/Fax (3) 8710**]
   Cr
   2.7
   2.5
   4.0
   4.2
   TCO2
   24
   23
   22
   27
   26
   27
   Glucose
   130
   130
   169
   262
   Other labs: PT / PTT / INR:18.9/80.2/1.7, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.5 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
Microbiology:
  [**2143-8-16**] 11:11 am BRONCHIAL WASHINGS
   GRAM STAIN (Final [**2143-8-16**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   Imaging:
   Portable CXR [**2143-8-17**]:
   The NG tube has been removed in the interim. Cardiomediastinal
   silhouette is
   unchanged. There is interval improvement in the aeration of the right
   lower
   lobe as well at the left lung base, most likely due to decrease in
   vascular
   engorgement. Bilateral pleural effusions are unchanged. The patient is
   after
   vertebroplasty of the mid thoracic vertebra.
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   fall in Hematocrit
 ALTERATION IN NUTRITION
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-18**] 12:23 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-18 09:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A/H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**]
   24 Hour Events:
   tolerated HD yest. Incr RR yest pm. Fever to 100.8 yest pm
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-15**] 12:13 PM
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2143-8-17**] 09:33 PM
   Fentanyl - [**2143-8-18**] 12:40 AM
   Pantoprazole (Protonix) - [**2143-8-18**] 08:00 AM
   Other medications:
   lidocaine patch, metoprolol, FeSO4, trazodone, prn fentanyl, prn Ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-18**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 102 (88 - 126) bpm
   BP: 136/66(88) {92/50(65) - 156/82(94)} mmHg
   RR: 36 (25 - 37) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,687 mL
                                                                    768 mL
   PO:
             TF:
                                                                    916 mL
                                                                    395 mL
   IVF:
                                                                    651 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,687 mL
                                                                    768 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (429 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.48/35/155/20/3
   Ve: 19.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, tach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: diffusely, no rebound or guarding
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   276 K/uL
   262 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.1 mEq/L
   49 mg/dL
   105 mEq/L
   141 mEq/L
   23.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-8-15**]  11:09 PM
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
   WBC
   7.0
   5.2
   4.8
   Hct
   24.0
   24.6
   23.7
   Plt
   [**Telephone/Fax (3) 8710**]
   Cr
   2.7
   2.5
   4.0
   4.2
   TCO2
   24
   23
   22
   27
   26
   27
   Glucose
   130
   130
   169
   262
   Other labs: PT / PTT / INR:18.9/68.1/1.7, CK / CKMB / Troponin-T:26//,
   ALT / AST:28/25, Alk Phos / T Bili:247/1.0, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.5 mg/dL, Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: stool Guaiac +
   Imaging: [**8-18**] CXR- pending
   Microbiology: no new cx- all current data as before (Enterobacter pan
   [**Last Name (un) 270**] in last positive sputum)
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A /H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**]
   Chronic respiratory failure- s/p trach and PEG on [**8-14**], treating for
   Enterobacter pna, tachypnea of unclear source
   -covering w/ vanco + cefepime (day 7 of 8) empiric course for VAP vs
   HAP; vanc dosed post HD by protocol.
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once HD cath re-siting done
   -repeat CXR this am and consider repeat pan-culture
   -treat for anxiety and pain
   - plan for bronch to r/o mucus plugging given right sided volume loss.
   I
   Fevers- back when off CVVH, unclear source
   -fungal isolators and pancx pending
   -CXR and possible repeat pan-culture
   -dc aline today
   -dc temp HD line today
   Renal failure- tolerated HD yest, next session planned for tues
    A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Disposition- LTAC/ rehab planning
   Rest per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-18**] 12:23 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-1**] 05:45 PM
   Arterial Line - [**2143-8-13**] 12:15 AM
   Comments: dc aline and HD line today
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-19 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2143-8-18**] 10:00 AM
 BRONCHOSCOPY - At [**2143-8-18**] 01:08 PM
 ARTERIAL LINE - STOP [**2143-8-18**] 04:00 PM
 DIALYSIS CATHETER - STOP [**2143-8-18**] 05:00 PM
 FEVER - 101.1
F - [**2143-8-19**] 12:00 AM
   - Pan cultured for fevers off CVVH.
   - Bronch with patent trach and airways
   - Renal: next HD for Tues [**8-20**], placed tunnelled line when able, okay
   to d/c temp HD line.
   - started on scheduled trazodone for sleep.
   - Pulled A-line.  Pulled temp dialysis catheter and sent tip for
   culture -> restarted heparin after.
   - AM on [**8-19**] patient awake, asking questions and lifting arms to
   command.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Fentanyl - [**2143-8-18**] 01:09 PM
   Pantoprazole (Protonix) - [**2143-8-18**] 08:00 PM
   Heparin Sodium - [**2143-8-19**] 01:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-19**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.7
   HR: 89 (88 - 119) bpm
   BP: 118/57(72) {102/49(63) - 143/73(90)} mmHg
   RR: 27 (23 - 38) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,709 mL
                                                                    172 mL
   PO:
             TF:
                                                                  1,018 mL
   IVF:
                                                                    621 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,168 mL
                                                                      0 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
                                                                  2,150 mL
   Drains:
   Balance:
                                                                   -459 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (451 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 15.4 L/min
   Physical Examination
   General Appearance:Trached, awake, nods to questions appropriately and
   follows simple commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Moves extremities to painful stimuli. Follows simple
   commands, nods to questions appropriately.
   Labs / Radiology
   243 K/uL
   6.8 g/dL
   300 mg/dL
   6.7 mg/dL
   20 mEq/L
   3.1 mEq/L
   79 mg/dL
   104 mEq/L
   142 mEq/L
   21.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
   WBC
   7.0
   5.2
   4.8
   4.7
   Hct
   24.0
   24.6
   23.7
   21.9
   Plt
   [**Telephone/Fax (3) 8725**]43
   Cr
   2.7
   2.5
   4.0
   4.2
   6.7
   TCO2
   23
   22
   27
   26
   27
   Glucose
   130
   130
   169
   262
   300
   Other labs: PT / PTT / INR:21.8/150.0/2.0, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   enterobacter PNA (VAP v. HAP), now s/p trach.
   - HD dosing of vanc and cefepime  with plan for 8 day course to end on
   [**2143-8-19**] for VAP v. HAP
   - F/u pending micro
   - now off sedation, using fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt for PE
   Tachypnea:  Since tracheostomy patient has been noticed to have
   tachypnea with irregular respirations.  ABG with respiratory
   alkalosis.  Fentanyl and ativan were attempted without improvement in
   his tachypnea.  He was placed on CPAP overnight with mild improvement.
   - avoid sedating medications for tachypnea
   - will rest on CPAP and give sleep aids at night for now
   - will check CXR this morning
   - given low grade fevers will culture today
   Fevers:  Low grade fever this morning. Currently treating C. diff, PE,
   and pneumonia. Likely also had drug fever during hospital course. No
   evidence of abdominal process including cholecystitis and
   pancreatitis.
   - vanc/cefepime for treatment of VAP v. HAP
   - continue vancomycin po for c.diff for 7 days post completion of
   antibiotic course for HAP
   - cont to trend fever curve and WBC
   - will resend cultures today (blood, urine, sputum)
   - plan to resite HD line (placed [**2143-7-26**]) on [**Last Name (LF) 1088**], [**First Name3 (LF) **] discontinue
   temporary HD line today
   - limit medications as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course
   Acute Renal Failure: Trasitioned to HD [**2143-8-17**].
   -  f/u renal recs
   - sevelamer discontinued for now given normalization of phos
   - given minimal UOP, straight cath 2x/weekly
   - tunneled dialysis catheter on Mon
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt with plan to start coumadin after HD line placed
   - monitor daily Hct
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**]) prn
   Pain: Unclear but apears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses for now
   - reassess more long-term needs after 24-48 hours
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation CT
   head without acute process. Now s/p Trach/PEG.
   - cont to monitor neuro status
   - will schedule trazodone for sleep
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - continue to monitor
   Anemia: Stable, no e/o active bleeding.  Frequent phelobotomy as well
   as renal failure, chronic illness, and iron deficiency (iron/ferritin
   <10). Also sensitive to fluid shifts when on HD.  Received one unit on
   [**2143-8-14**] with appropriate hematocrit bump.
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-19 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:ARDS, Critical Care polyneuropathy
   24 Hour Events:
   febrile to [**Age over 90 516**] [**Age over 90 **]. aline and HD line pulled.  trazodone without much
   help w/ sleep overnight.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Fentanyl - [**2143-8-18**] 01:09 PM
   Heparin Sodium - [**2143-8-19**] 01:01 AM
   Pantoprazole (Protonix) - [**2143-8-19**] 08:00 AM
   Other medications:
   RISS, Vanco IV, lidocaine patch, Peridex, Protonix, heparin gtt, FeSO4,
   Lopressor, Cefepime, vanco po, trazodone 25 qhs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-19**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.1
   HR: 86 (86 - 119) bpm
   BP: 120/50(66) {102/49(63) - 143/72(89)} mmHg
   RR: 29 (21 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,774 mL
                                                                    816 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    434 mL
   IVF:
                                                                    621 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  2,168 mL
                                                                    900 mL
   Urine:
                                                                     18 mL
   NG:
   Stool:
                                                                  2,150 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                   -394 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (468 - 544) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 15.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   243 K/uL
   300 mg/dL
   6.7 mg/dL
   20 mEq/L
   3.1 mEq/L
   79 mg/dL
   104 mEq/L
   142 mEq/L
   21.9 %
   4.7 K/uL
        [image002.jpg]
                             [**2143-8-16**]  04:07 AM
                             [**2143-8-16**]  04:20 AM
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
   WBC
   7.0
   5.2
   4.8
   4.7
   Hct
   24.0
   24.6
   23.7
   21.9
   Plt
   [**Telephone/Fax (3) 8725**]43
   Cr
   2.7
   2.5
   4.0
   4.2
   6.7
   TCO2
   23
   22
   27
   26
   27
   Glucose
   130
   130
   169
   262
   300
   Other labs: PT / PTT / INR:21.8/77.2/2.0, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.2 mg/dL
   Microbiology: [**8-14**], [**8-18**] Blood pending
   [**8-18**] urine pending
   [**8-18**] HD cath line tip cx pending
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A /H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**]
   Chronic respiratory failure- s/p trach and PEG on [**8-14**], treating for
   Enterobacter pna
   -covering w/ vanco + cefepime empiric course for VAP vs HAP; last day
   today
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once HD cath re-siting done
   -treat for anxiety and pain
   -trach mask by day, rest on PSV overnight
   Fevers- back when off CVVH, unclear source
   -fungal isolators and pancx pending
   -CXR and possible repeat pan-culture
   -Hd line pulled [**Last Name (LF) **], [**First Name3 (LF) **] need to place another temp line tomorrow
   -treating for C.diff as below
   Renal failure- tolerated HD sat, next session planned for tues
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   long-term po vancomycin for prior infection.
   Disposition- LTAC/ rehab planning
   -physical therapy consult
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-20 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Completed abx course for PNA
   - Seen by PT; OOB to chair
   - Renal: Plan for HD today
   - Slept overnight with increased dose of trazodone and on pressure
   support
   - Remained afebrile overnight. Tube feeds and heparin gtt held.
   - Consult ordered for Passy-Muir valve evaluation
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-20**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.5
   HR: 88 (84 - 91) bpm
   BP: 104/47(61) {93/44(57) - 127/69(79)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,042 mL
                                                                    213 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                    749 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,675 mL
   Drains:
   Balance:
                                                                    367 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (473 - 1,457) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 9 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: Trached, awake, making effort to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   233 K/uL
   7.3 g/dL
   166 mg/dL
   8.8 mg/dL
   17 mEq/L
   3.7 mEq/L
   107 mg/dL
   109 mEq/L
   147 mEq/L
   23.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
   WBC
   5.2
   4.8
   4.7
   4.7
   Hct
   24.6
   23.7
   21.9
   22.7
   23.2
   Plt
   [**Telephone/Fax (3) 8746**]33
   Cr
   2.5
   4.0
   4.2
   6.7
   8.8
   TCO2
   22
   27
   26
   27
   Glucose
   130
   169
   262
   300
   166
   Other labs: PT / PTT / INR:15.4/73.9/1.4, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:9.3 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach.
   - HD dosing of vanc and cefepime  with plan for 8 day course to end
   today
   - now off sedation, using fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt for PE
   - PT consult today
   Tachypnea:  Since tracheostomy, noted to have tachypnea with irregular
   respirations.  ABG with respiratory alkalosis.  No improvement with
   fentanyl and ativan. Placed on CPAP with improvement, now back on trach
   mask.
   - avoid sedating medications for tachypnea
   - observe on trach mask; may need to revert to CPAP if recurs
   Fevers:  Febrile overnight with no new micro data yet. HD line and
   a-line pulled. Currently treating C. diff, PE, and pneumonia. Likely
   also had drug fever during hospital course. No evidence of abdominal
   process including cholecystitis and pancreatitis.
   - cont to trend fever curve and WBC; f/u pending cx
   - vanc/cefepime for treatment of VAP v. HAP to end today
   - continue vancomycin po for c.diff for 7 days post completion of
   antibiotic course for HAP
   - limit medications as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course
   Acute Renal Failure: Trasitioned to HD [**2143-8-17**].
   - d/w IR plan for HD tunneled line (likely when afebrile x 24 h) with
   plan to resume HD tmrw
   - f/u renal recs
   - given minimal UOP, straight cath 2x/weekly
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt with plan to start coumadin after HD line placed
   - monitor daily Hct
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**]) prn
   Pain: Unclear but apears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses for now
   - reassess more long-term needs after 24-48 hours
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. Overall alertness improved with weaning of sedation. CT
   head without acute process. Now s/p Trach/PEG.
   - cont to monitor neuro status
   - will increase trazodone for sleep
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - continue to monitor
   Anemia: Stable, no e/o active bleeding.  Frequent phelobotomy as well
   as renal failure, chronic illness, and iron deficiency (iron/ferritin
   <10). Also sensitive to fluid shifts when on HD.  Received one unit on
   [**2143-8-14**] with appropriate hematocrit bump.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds (holding for now)
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT: heparin gtt (holding for now)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-20 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Completed abx course for PNA
   - Seen by PT; OOB to chair
   - Renal: Plan for HD today
   - Slept overnight with increased dose of trazodone and on pressure
   support
   - Remained afebrile overnight. Tube feeds and heparin gtt held.
   - Consult ordered for Passy-Muir valve evaluation
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-20**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.5
   HR: 88 (84 - 91) bpm
   BP: 104/47(61) {93/44(57) - 127/69(79)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,042 mL
                                                                    213 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                    749 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,675 mL
   Drains:
   Balance:
                                                                    367 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (473 - 1,457) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 9 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: Trached, awake, making effort to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   233 K/uL
   7.3 g/dL
   166 mg/dL
   8.8 mg/dL
   17 mEq/L
   3.7 mEq/L
   107 mg/dL
   109 mEq/L
   147 mEq/L
   23.2 %
   4.7 K/uL
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
   WBC
   5.2
   4.8
   4.7
   4.7
   Hct
   24.6
   23.7
   21.9
   22.7
   23.2
   Plt
   [**Telephone/Fax (3) 8746**]33
   Cr
   2.5
   4.0
   4.2
   6.7
   8.8
   TCO2
   22
   27
   26
   27
   Glucose
   130
   169
   262
   300
   166
   Other labs: PT / PTT / INR:15.4/73.9/1.4, Ca++:8.3 mg/dL, Mg++:2.5
   mg/dL, PO4:9.3 mg/dL
   [**8-14**], [**2143-8-18**] Bcx pending
   [**8-14**] Fungal cx pending
   [**8-18**] Urine cx: Yeast ~4000/mL
   [**8-18**] Sputum cx contaminated
   [**8-18**] Temp HD line tip cx (prelim): No sig growth.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Multifocal pneumonia/Respiratory failure:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach.
   - now completed a course of vancomycin and cefepime for 8 day course
   - now off sedation, using fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt for PE once line is placed
   - cont PT
   - Seen by Speech and now has Passy-Muir valve
   Tachypnea:  Since tracheostomy, noted to have tachypnea with irregular
   respirations.  ABG with respiratory alkalosis.  No improvement with
   fentanyl and ativan.
   - avoid sedating medications for tachypnea
   - cont trach mask during day; rest on CPAP at night
   Fevers:  Afebrile overnight with no new micro data. HD line and a-line
   pulled. Currently treating C. diff, PE. Antibiotics for pneumonia now
   completed.  Likely also had drug fever during hospital course. No
   evidence of abdominal process including cholecystitis and
   pancreatitis.
   - cont to trend fever curve and WBC; f/u pending cx
   - continue vancomycin po for c.diff for 7 days post completion of
   antibiotic course for HAP (to end [**2143-8-27**])
   - limit medications as much as possible
   C.difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course until
   [**2143-8-27**]
   Acute Renal Failure: Trasitioned to HD [**2143-8-17**].
   - plan for new temp line today given temp 100 today
   - f/u renal recs
   - given minimal UOP, straight cath 2x/weekly
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - heparin gtt with plan to start coumadin after HD line placed
   - monitor daily Hct
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**]) prn
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses for now
   - reassess more long-term needs after 24-48 hours
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy.   Signiticantly improved over past 48 hours. CT head
   without acute process. Now s/p Trach/PEG.
   - cont to monitor neuro status
   - will increase trazodone for sleep
   Depression:
   - Start celexa 10mg daily
   - SW consult
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - continue to monitor
   Anemia: Stable, no e/o active bleeding.  Frequent phelobotomy as well
   as renal failure, chronic illness, and iron deficiency (iron/ferritin
   <10). Also sensitive to fluid shifts when on HD.  Received one unit on
   [**2143-8-14**] with appropriate hematocrit bump.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   ICU Care
   Nutrition: Tube feeds (holding for now)
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT: heparin gtt (holding for now)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-20 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ARDS, Critical illness polyneuropathy
   24 Hour Events:
   worked w/ PT yest.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-20**] 08:30 AM
   Other medications:
   RISS, vanco po, lidocaine patch, heparin gtt held, FeSO4, lopressor,
   trazodone,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-20**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 86 (84 - 91) bpm
   BP: 107/51(64) {93/44(56) - 126/69(79)} mmHg
   RR: 28 (25 - 34) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,042 mL
                                                                    433 mL
   PO:
             TF:
                                                                  1,083 mL
   IVF:
                                                                    749 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,675 mL
   Drains:
   Balance:
                                                                    367 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (473 - 1,457) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 9 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed,
   somewhat flatter affect today
   Labs / Radiology
   7.3 g/dL
   233 K/uL
   166 mg/dL
   8.8 mg/dL
   17 mEq/L
   3.7 mEq/L
   107 mg/dL
   109 mEq/L
   147 mEq/L
   23.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2143-8-16**]  10:11 AM
                             [**2143-8-16**]  10:41 AM
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
   WBC
   5.2
   4.8
   4.7
   4.7
   Hct
   24.6
   23.7
   21.9
   22.7
   23.2
   Plt
   [**Telephone/Fax (3) 8746**]33
   Cr
   2.5
   4.0
   4.2
   6.7
   8.8
   TCO2
   22
   27
   26
   27
   Glucose
   130
   169
   262
   300
   166
   Other labs: PT / PTT / INR:15.4/73.9/1.4, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:9.3 mg/dL
   Microbiology: cx all neg to date or contaminated
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A /H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**].
   Chronic respiratory failure- s/p trach and PEG on 7/8Enterobacter pna
   s/p completed ABX course
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will need transition to
   coumadin in the next few days once HD cath re-siting done
   -treat for anxiety and pain
   -trach mask by day, rest on PSV overnight
   Renal failure- tolerated HD sat, next session planned for tues
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   po vanco for 6 more days
   Disposition- LTAC/ rehab planning
   -physical therapy consult
   -speech therapy consult
   -SW to see for flat affect
   Rest per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds per peg tube held for ir line today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-21 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2143-8-20**] 12:30 PM
   - received temporary HD line with IR
   - received hemodialysis
   - received Passy Muir valve
   - spiked to 101 and blood and sputum cultures were sent
   - ordered for one unit of blood for hematocrit of 20
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-18**] 06:00 AM
   Vancomycin - [**2143-8-20**] 12:30 PM
   Infusions:
   Heparin Sodium - 2,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-20**] 08:30 AM
   Insulin - Regular - [**2143-8-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-21**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 87 (84 - 91) bpm
   BP: 105/50(62) {87/44(55) - 117/63(75)} mmHg
   RR: 17 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,356 mL
                                                                    226 mL
   PO:
             TF:
                                                                    405 mL
                                                                     95 mL
   IVF:
                                                                    391 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 521 (482 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: Trached, awake, making effort to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   285 K/uL
   5.2 g/dL
   168 mg/dL
   4.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   42 mg/dL
   102 mEq/L
   144 mEq/L
   20.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
   WBC
   5.2
   4.8
   4.7
   4.7
   5.9
   Hct
   24.6
   23.7
   21.9
   22.7
   23.2
   16.4
   20.0
   Plt
   [**Telephone/Fax (3) 8746**]33
   285
   Cr
   4.0
   4.2
   6.7
   8.8
   4.1
   TCO2
   27
   26
   27
   Glucose
   169
   262
   300
   166
   168
   Other labs: PT / PTT / INR:15.9/58.4/1.4, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Images: None
   Microbiology:
   Sputum [**2143-8-18**]
 contaminated
   Blood [**2143-8-18**]
 no growth to date
   Urine [**2143-8-18**]
  yeast
   HD cath tip [**2143-8-18**]
  no significant growth
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**]
   - on trach mask during day, CPAP overnight
   - now off sedation, on fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt when hct stable
   - start coumadin
   - has Passy-Muir valve, and continued speech therapy
   - continue PT
   Fevers:  Febrile overnight. S/p placement of new temp HD line.
   Currently treating C. diff, PE. Antibiotics for pneumonia now
   completed.  Likely also had drug fever during hospital course. No
   evidence of abdominal process including cholecystitis and
   pancreatitis.
   - cont to trend fever curve and WBC; f/u pending blood and sputum cx
   - continue vancomycin po for c.diff for 7 days post completion of
   antibiotic course for HAP (to end [**2143-8-27**])
   - limit medications as much as possible
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course until
   [**2143-8-27**]
   Acute Renal Failure: Transitioned to HD [**2143-8-17**].
   - s/p new temp HD line placement yesterday
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs
   Anemia: Acute drop in Hct to 20 today, receiving 1U pRBC.  Is on
   heparin gtt with persistently guaiac positive stools attributed to C.
   diff colitis; no other evidence of bleed or hemolysis. Had received 1 U
   pRBC on [**2143-8-14**] with appropriate Hct bump. Anemia likely [**3-11**] frequent
   phelobotomy, renal failure, chronic illness, iron deficiency
   (iron/ferritin <10), and fluid shifts on HD.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   Tachypnea:  Noted to have tachypnea with irregular respirations s/p
   trach with ABG c/w respiratory alkalosis.  No improvement with fentanyl
   and ativan. Now improved.
   - avoid sedating medications for tachypnea
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - start coumadin
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses prn
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. CT head without acute process. Now s/p Trach/PEG with
   significant improvement for past few days.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, CPAP to rest overnight
   - OOB to chair, PT
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   - SW consult
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for Rehab

2143-08-21 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ARDS, Critical Illness Polyneuropathy
   24 Hour Events:
   fever to 101 this am. temp HD cath placed earlier in the day yest. For
   downtrending Hct transfused 1uprbc
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2143-8-21**] 06:00 AM
   Other medications:
   RISS, po vanco, Lidocaine patch, Protonix, heparin gtt, FesO4,
   Lopressor, Trazodone, Celexa, Peridex
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-21**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.1
   HR: 86 (32 - 91) bpm
   BP: 130/63(79) {87/45(55) - 130/63(79)} mmHg
   RR: 33 (17 - 33) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
           Total In:
                                                                  1,357 mL
                                                                  1,138 mL
   PO:
           TF:
                                                                    406 mL
                                                                    446 mL
   IVF:
                                                                    391 mL
                                                                    152 mL
   Blood products:
   350 mL
   Total out:
                                                                  1,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                  1,138 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 521 (482 - 521) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i; R IJ temp HD
   cath site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   5.2 g/dL
   285 K/uL
   168 mg/dL
   4.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   42 mg/dL
   102 mEq/L
   144 mEq/L
   20.0 %
   5.9 K/uL
        [image002.jpg]
                             [**2143-8-17**]  03:45 AM
                             [**2143-8-17**]  04:50 PM
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
   WBC
   5.2
   4.8
   4.7
   4.7
   5.9
   Hct
   24.6
   23.7
   21.9
   22.7
   23.2
   16.4
   20.0
   Plt
   [**Telephone/Fax (3) 8746**]33
   285
   Cr
   4.0
   4.2
   6.7
   8.8
   4.1
   TCO2
   27
   26
   27
   Glucose
   169
   262
   300
   166
   168
   Other labs: PT / PTT / INR:15.9/58.4/1.4, CK / CKMB / Troponin-T:26//,
   ALT / AST:[**1-15**], Alk Phos / T Bili:270/0.2, Amylase / Lipase:180/117,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Microbiology: all neg or contaminated
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A /H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**].
    Chronic respiratory failure- s/p trach and PEG on 7/8Enterobacter pna
   s/p completed ABX course
   -f/u culture data, chronically colonized w/ Aspergillus
   -cont heparin gtt for RLL segmental PE; will transition to coumadin
   starting tonight
   -treat for anxiety and pain
   -trach mask by day, rest on PSV overnight
   [**Name (NI) 8776**] unclear source, re-culture. Might be noninfectious given
   extensive negative workup
   -trend WBC count and monitor vigilantly for infxn, has multiple
   possible sources, may need to D/ C PICC Line if cultures positive and
   place PIV
   Anemia- known prior GIB, likely that plus anemia of chronic disease and
   poss renal failure
   -epo w/ HD
   -Fe supp
   -PRBC transfusion today, transfusion treshold of Hct < 21
   Renal failure- HD TTS vis new R IJ temp HD cath
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Cdiff colitis- does not appear to be a current active infection but on
   po vanco for 5 more days
   Disposition- LTAC/ rehab planning
   -physical therapy consult
   -speech therapy consult
   -SW to see for flat affect; started Celexa yesterday
   Rest per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-21**] 02:05 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-22 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received 1 unit pRBC
   - CXR checked for fever 101 prior night. Showed new LLL infiltrate so
   started on vanc and cefipime.
   - LFTs and amylase trending up again.
   - Had brief vagal episode with bradycardia but nothing significant was
   suctioned and pt awoke within seconds and was back to baseline.
   - Coumadin started.
   - Renal with no new recs; will get dialysis tomorrow.
   - Both lumens of PICC working.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-21**] 05:30 PM
   Cefipime - [**2143-8-21**] 08:00 PM
   Infusions:
   Heparin Sodium - 2,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-21**] 09:00 AM
   Coumadin (Warfarin) - [**2143-8-21**] 05:00 PM
   Insulin - Regular - [**2143-8-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-22**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.1
C (97
   HR: 86 (32 - 87) bpm
   BP: 106/47(61) {103/47(61) - 134/71(80)} mmHg
   RR: 27 (20 - 34) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,900 mL
                                                                    500 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    257 mL
   IVF:
                                                                    880 mL
                                                                    183 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    830 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,070 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Trached, awake, making effort to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   266 K/uL
   7.5 g/dL
   161 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.7 mEq/L
   80 mg/dL
   106 mEq/L
   142 mEq/L
   22.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
   WBC
   4.8
   4.7
   4.7
   5.9
   6.7
   Hct
   23.7
   21.9
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   Plt
   [**Telephone/Fax (3) 8783**]85
   266
   Cr
   4.2
   6.7
   8.8
   4.1
   6.9
   TCO2
   26
   27
   Glucose
   [**Telephone/Fax (3) 8784**]68
   161
   Other labs: PT / PTT / INR:17.7/109.6/1.6, Ca++:9.1 mg/dL, Mg++:3.1
   mg/dL, PO4:6.3 mg/dL
[**2143-8-21**] 4:24 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2143-8-21**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
[**2143-8-18**], [**2143-8-21**] Blood cx: Pending
[**2143-8-14**] 9:58 pm BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      Source: Line-arterial.
   BLOOD/FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   BLOOD/AFB CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED.
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach. Restarted on abx for new
   LLL infiltrate, VAP v. HAP.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**], now
   restarted on same abx with plan for 14-day course to end [**2143-9-4**]
   - on trach mask during day, CPAP overnight
   - fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt, holding coumadin with plans for possible tunneled
   line prior to discharge
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   Fevers: Evidence of new pneumonia but afebrile x 24 hrs with stable WBC
   on abx. Also currently treating C. diff, PE. LFTs and amylase now
   increasing; unclear etiology although prior work-up 2 weeks ago with no
   evidence of abdominal process including cholecystitis and pancreatitis.
   Likely also had drug fever to zosyn in past.
   - cont to trend fever curve and WBC; f/u pending blood and sputum cx
   - vanc/cefepime as above pending culture data
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for PNA
   - limit medications as much as possible
   - will discuss with PICC nurse whether could get new PICC today
   - will repeat RUQ ultrasound
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course, now
   [**2143-9-11**]
   Vagal episode:  Had been secondary to ETT plugging in past. Had brief
   episode yesterday, likely in setting of mucous plug
   - treating new pneumonia
   - suction prn
   Acute Renal Failure: Transitioned to HD [**2143-8-17**] and s/p new temp HD
   line placement [**2143-8-20**].
   - transition to HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs
   - will start sodium bicarbonate for acidosis per renal
   Anemia: Received 1U pRBC with Hct today likely reflecting appropriate
   bump although decreased from yesterday PM. Is on heparin gtt with
   persistently guaiac positive stools attributed to C. diff colitis; no
   other evidence of bleed or hemolysis. Anemia likely [**3-11**] frequent
   phelobotomy, renal failure, chronic illness, iron deficiency
   (iron/ferritin <10), and fluid shifts on HD.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt while bridging to coumadin
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses prn
   Altered mental status: Likely large component from toxic metabolic
   encephalopathy. CT head without acute process. Now s/p Trach/PEG with
   significant improvement for past few days.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, CPAP to rest overnight
   - OOB to chair, PT
   Weakness:  EMG suggests critical illness polyneuropathy is unlikely.
   Likely [**3-11**] deconditioning vs. medication induced.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   - wjll ask SW to see pt
   ICU [**Name (NI) 81**]
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-22**] 12:12 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-22 10:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ARDS, Critical Illness Polyneuropathy
   24 Hour Events:
   last night while sleeping, noted to brady to 30s. resolved when woken
   up.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-21**] 05:30 PM
   Cefipime - [**2143-8-21**] 08:00 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2143-8-21**] 05:00 PM
   Insulin - Regular - [**2143-8-22**] 06:00 AM
   Other medications:
   vanco po, lidocainte patch, peridex, protonix, heparin gtt, FeSO4,
   lopressor, trazodone, Citalopram, NaHCO3 [**Hospital1 **], vanco IV, cefepime IV,
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-22**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 90 (85 - 90) bpm
   BP: 106/57(71) {103/47(61) - 134/71(80)} mmHg
   RR: 30 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,900 mL
                                                                    922 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    445 mL
   IVF:
                                                                    880 mL
                                                                    297 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    830 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,070 mL
                                                                    922 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name and year, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   266 K/uL
   161 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.7 mEq/L
   80 mg/dL
   106 mEq/L
   142 mEq/L
   22.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2143-8-18**]  01:32 AM
                             [**2143-8-18**]  03:36 AM
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
   WBC
   4.8
   4.7
   4.7
   5.9
   6.7
   Hct
   23.7
   21.9
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   Plt
   [**Telephone/Fax (3) 8783**]85
   266
   Cr
   4.2
   6.7
   8.8
   4.1
   6.9
   TCO2
   26
   27
   Glucose
   [**Telephone/Fax (3) 8784**]68
   161
   Other labs: PT / PTT / INR:17.7/109.6/1.6, CK / CKMB / Troponin-T:26//,
   ALT / AST:49/45, Alk Phos / T Bili:293/0.9, Amylase / Lipase:311/601,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:9.1 mg/dL, Mg++:3.1 mg/dL, PO4:6.3 mg/dL
   Imaging: [**8-21**] CXR- LLL infiltrate
   [**8-22**] CXR- unchanged
   Microbiology: [**8-21**] sputum- gm stain neg, cx pending
   [**8-18**] blood, [**8-21**] blood pending
   [**8-14**] fungal blood pending
   Assessment and Plan
   65 year old male presenting with multifocal pneumonia secondary
   initially to influenza A /H1N1 now with respiratory failure c/b ARDS,
   PE, ARF and c. diff infection.  Extubated [**8-10**], reintubated [**8-12**] for work
   of breathing. s/p trach/peg on [**8-14**].
    Chronic respiratory failure- s/p trach and PEG on 7/8Enterobacter pna
   s/p completed ABX course. New fever and LLL infiltrate on [**8-21**],
   treating now empirically for HAP
   -vanco + cefepime, f/u culture data, chronically colonized w/
   Aspergillus
   -cont heparin gtt for RLL segmental PE; will transition to coumadin
   after HD cath addressed
   -trach mask by day, rest on PSV overnight
   Fevers- presuming possible pna vs line vs GI pathology
   -tx for pna as above
   -consider changing PICC
   -repeat RUQ U/S
   -covering for persistent C diff w/ po vanco for 7d past last IV ABX
   Anemia- known prior GIB, likely that plus anemia of chronic disease and
   poss renal failure
   -hct w/ appropriate bump after transfusion
   -epo w/ HD
   -Fe supp
   Renal failure- HD TTS vis new R IJ temp HD cath
   -start NaHCO3 per Renal
   -ask Renal to transition to MWF HD
   -ask IR to place perm HD cath now that pt is afebrile
   A flutter/ fib- cautious resumption of metoprolol
   -full anticoag as above
   Disposition- LTAC/ rehab planning
   -physical therapy consult
   -speech therapy consult
   -SW to see for flat affect; started Celexa and trazodone for depression
   and sleep
   Rest per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-22**] 12:12 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2143-08-23 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on sodium bicarb per Renal recs. Will transition to M/W/F HD
   schedule.
   - Plan for changing out PICC and IR guided tunnelled cath tmrw.
   Coumadin discontinued.
   - RUQ u/s with persistent gallbladder sludge without gallbladder wall
   edema or pericholecystic fluid. No intrahepatic or extrahepatic biliary
   dilatation.
   - Hepatitis panel sent.
   - Hematocrit stable
   - Trach sutures removed.
   - SW reconsulted and again spoke w/ wife.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-22**] 10:27 AM
   Cefipime - [**2143-8-22**] 12:27 PM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.5
C (97.7
   HR: 85 (85 - 92) bpm
   BP: 122/65(79) {93/43(60) - 136/70(84)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.3 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,242 mL
                                                                    287 mL
   PO:
             TF:
                                                                    973 mL
                                                                     32 mL
   IVF:
                                                                    969 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -258 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Trached, awake, making effort to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Tachypneic, using abdominal muscles, bronchial
   breath sounds, no wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   246 K/uL
   7.5 g/dL
   153 mg/dL
   4.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   37 mg/dL
   100 mEq/L
   140 mEq/L
   23.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2143-8-18**]  03:56 AM
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
   WBC
   4.7
   4.7
   5.9
   6.7
   7.2
   Hct
   21.9
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   25.3
   23.4
   Plt
   243
   233
   285
   266
   246
   Cr
   6.7
   8.8
   4.1
   6.9
   4.2
   TCO2
   27
   Glucose
   300
   166
   168
   161
   153
   Other labs: PT / PTT / INR:23.9/66.8/2.3, CK / CKMB / Troponin-T:26//,
   ALT / AST:54/37, Alk Phos / T Bili:346/1.0, Amylase / Lipase:338/467,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Imaging: RUQ Ultrasound: 1. Persistent gallbladder sludge without
   gallbladder wall edema or
   pericholecystic fluid. No intrahepatic or extrahepatic biliary
   dilatation.
   Portable CXR: As compared to the previous radiograph, there is no
   relevant change. The monitoring and support devices are in constant
   position. The pre-existing right upper lobe, right lower lobe and the
   left lower lobe changes, including a small left basal pleural effusion,
   do neither show an increase nor a decrease in severity. Also unchanged
   is the size of the
   cardiac silhouette. There is no evidence of pneumothorax.
   Microbiology: [**2143-8-21**] 4:24 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2143-8-21**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   Blood cultures [**2143-8-21**] - pending
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach. Restarted on abx for new
   LLL infiltrate, VAP v. HAP.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**], now
   restarted on same abx with plan for 8-day course to end [**2143-8-28**]
   - on trach mask during day, CPAP overnight
   - fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt, holding coumadin with plans for possible tunneled
   line prior to discharge
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   Fevers:  Low grade fever again yesterday.  RUQ ultrasound again
   negative.  Being treated for possible new pneumonia.  Would like to
   remove PICC line but unable to obtain new access yesterday.  Also
   currently treating previous clostridium difficile infection.
   - cont to trend fever curve and WBC; f/u pending blood and sputum cx
   - vanc/cefepime as above pending culture data
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for PNA
   - limit medications as much as possible
   - obtained new PICC, will d/c prior and send tip for cx
   - hepatitis serologies are pending given elevated LFTs
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course, now
   [**2143-9-11**]
   Acute Renal Failure: Transitioned to HD [**2143-8-17**] and s/p new temp HD
   line placement [**2143-8-20**].  Will ultimately need new tunneled line which
   likely will not be able to happen today given low grade fevers
   overnight.
   - transition to HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs
   - continue start sodium bicarbonate for acidosis
   Anemia:  Stable over past 24 hours.  Does have persistently guaiac
   positive stools in the setting of heparin gtt.  No evidence of frank
   bleeding.  Anemia likely multifactorial secondary to  frequent
   phelobotomy, renal failure, chronic illness, iron deficiency
   (iron/ferritin <10), and fluid shifts on HD.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt
   - currently holding coumadin given plans for tunneled line
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses prn
   Altered mental status: Significantly improved.  Likely large component
   from toxic metabolic encephalopathy. CT head without acute process.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, CPAP to rest overnight
   - OOB to chair, PT
   Weakness:  Likely [**3-11**] deconditioning vs. medication induced. Improving.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-22**] 12:12 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-7-31**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He appears more lucid today and clearly has improving strength in his
   extremities. His secretions have decreased and he remains afebrile on
   new course of antibiotics.
   He will have a tunneled HD catheter today as well as a new PICC line
   placed. Hopefully this will allow transition to an LTAC early next week
   if there are no setbacks hemodynamically over the weekend. He will an
   8-10 days course of antibiotics for his VAP
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2143-8-23**] 12:47 ------

2143-08-24 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2143-8-23**] 10:33 AM
 PICC LINE - STOP [**2143-8-24**] 12:24 AM
   - Received dialysis
   - Had video swallow study.  Noted to aspirate with thin liquids.
   Placed on diet of nectar thickened liquids and ground solids
   - GGT elevated at 553
   - AMA, [**Doctor First Name **] ordered to assess for causes of hepatitis
   - Received new PICC line with IR
   - Old PICC line discontinued and tip cultured
   - Unable to receive new tunelled line secondary to elevated INR
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-22**] 10:27 AM
   Cefipime - [**2143-8-22**] 12:27 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2143-8-23**] 06:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-24**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (83 - 87) bpm
   BP: 139/61(80) {114/45(62) - 168/106(111)} mmHg
   RR: 29 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 71 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                    695 mL
                                                                    120 mL
   PO:
             TF:
                                                                     73 mL
                                                                     59 mL
   IVF:
                                                                    312 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    270 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Trached, awake, able to speak softly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Breathing comfortably, bronchial breath sounds, no
   wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   246 K/uL
   7.4 g/dL
   145 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   100 mEq/L
   138 mEq/L
   23.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
   WBC
   4.7
   4.7
   5.9
   6.7
   7.2
   9.5
   Hct
   21.9
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   Plt
   243
   233
   285
   266
   246
   246
   Cr
   6.7
   8.8
   4.1
   6.9
   4.2
   3.7
   Glucose
   300
   166
   168
   161
   153
   145
   Other labs: PT / PTT / INR:26.5/30.6/2.6, CK / CKMB / Troponin-T:26//,
   ALT / AST:54/37, Alk Phos / T Bili:346/1.0, Amylase / Lipase:338/467,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   AMA: Pnd
   [**Doctor First Name **]: Pnd
   Imaging: Video Swallow:
   1. Suggest initiating a PO diet of nectar thick liquids and moist,
   ground solids.
   2. 1:1 supervision for the following aspiration precautions:
        a) sit fully upright (propped with pills if needed)
        b) No thin liquids, no ice cream
        c) Pt MUST have PMV (green speaking cap) on for all POs
        d) give liquids by straw - single sips only
        e) use slow rate of intake to allow pt to take 2 swallows
           for each bite and sip
        f) Yankauer suction the oral cavity after meals.
   3. Pills crushed with purees
   4. Nutrition consult to monitor PO intake and alter tube feeds as
   appropriate.
   Microbiology: Catheter tip [**2143-8-23**] - pending
   Blood cultures x 2 [**2143-8-21**] - pending
   Sputum culture [**2143-8-21**] - yeast
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 ANEMIA, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   fall in Hematocrit
 ALTERATION IN NUTRITION
 ACUTE PAIN
 HERPES ZOSTER
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ATRIAL FLUTTER (AFLUTTER)
 PULMONARY EMBOLISM (PE), ACUTE
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach. Restarted on abx for new
   LLL infiltrate, VAP v. HAP.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**], now
   restarted on same abx with plan for 8-day course to end [**2143-8-28**]
   - on trach mask tolerating well 24 hours a day
   - fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt, holding coumadin with plans for possible tunneled
   line prior to discharge
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   Fevers:  Low grade fever again yesterday.  RUQ ultrasound again
   negative.  Being treated for possible new pneumonia.  Would like to
   remove PICC line but unable to obtain new access yesterday.  Also
   currently treating previous clostridium difficile infection.
   - cont to trend fever curve and WBC; f/u pending blood and sputum cx
   - vanc/cefepime as above until [**2143-8-28**]
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for PNA
   - limit medications as much as possible
   - obtained new PICC [**2143-8-23**]
   - hepatitis serologies are negative
   - consider hepatology curbside for elevated transaminases
   Elevated transaminases/pancreatic enzymes:   Unclear etiology.  No
   abdominal pain.  Hepatitis serologies negative.  Multiple RUQ
   ultrasounds and HIDA scan negative.  Likely related to medications
   versus feedings.
   - review medication list
   - discuss with nutrition
   - trend
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course, now
   [**2143-9-11**]
   Acute Renal Failure: Transitioned to HD [**2143-8-17**] and s/p new temp HD
   line placement [**2143-8-20**].  Will ultimately need new tunneled line.
   - transition to HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs
   Anemia:  Stable over past 24 hours.  Does have persistently guaiac
   positive stools in the setting of heparin gtt.  No evidence of frank
   bleeding.  Anemia likely multifactorial secondary to  frequent
   phelobotomy, renal failure, chronic illness, iron deficiency
   (iron/ferritin <10), and fluid shifts on HD.
   - [**Hospital1 **] Hct
   - transfusion threshold <21
   - cont iron supplements
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt
   - currently holding coumadin given plans for tunneled line
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - cont fentanyl boluses prn
   Altered mental status: Significantly improved.  Likely large component
   from toxic metabolic encephalopathy. CT head without acute process.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, no longer receiving CPAP
   overnight
   - OOB to chair, PT
   Weakness:  Likely [**3-11**] deconditioning vs. medication induced. Improving.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-22**] 12:12 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line
 [**2143-8-23**] 10:45 AM
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Therapeutic INR
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-24 10:31:00 Physician Attending Progress Note
Chief Complaint: chronic respiratory failure
   HPI:
   65 m w/ a h/o H1N1, CAP c/b ARDS, s/p tracheostomy, tolerating trach
   mask.
   24 Hour Events:
 PICC LINE - START [**2143-8-23**] 10:33 AM
 PICC LINE - STOP [**2143-8-24**] 12:24 AM
   Failed video swallow
   PICC placed
   2L neg yesterday
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-22**] 10:27 AM
   Cefipime - [**2143-8-22**] 12:27 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2143-8-23**] 06:25 PM
   Pantoprazole (Protonix) - [**2143-8-24**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-24**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 84 (83 - 87) bpm
   BP: 148/54(72) {117/39(62) - 168/73(92)} mmHg
   RR: 27 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 71 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,070 mL
                                                                  1,150 mL
   PO:
             TF:
                                                                    448 mL
                                                                    979 mL
   IVF:
                                                                    312 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                     15 mL
   Urine:
   15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    645 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: Well appearing, NAD
   HEENT: PERRL.  Trach in place.  Speaking with valve.
   Heart: Regular S1,S2. No m/r/g
   Lungs:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   246 K/uL
   145 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   100 mEq/L
   138 mEq/L
   23.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2143-8-19**]  04:00 AM
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
   WBC
   4.7
   4.7
   5.9
   6.7
   7.2
   9.5
   Hct
   21.9
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   Plt
   243
   233
   285
   266
   246
   246
   Cr
   6.7
   8.8
   4.1
   6.9
   4.2
   3.7
   Glucose
   300
   166
   168
   161
   153
   145
   Other labs: PT / PTT / INR:26.5/30.6/2.6, CK / CKMB / Troponin-T:26//,
   ALT / AST:54/37, Alk Phos / T Bili:346/1.0, Amylase / Lipase:338/467,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   65 yo male admitted with H1N1 flu, secondary superinfection,
   respiratory failure. Hospitalization also notable for VAP x 2, PE on
   anticoagulation.
   Respiratory failure
 [**3-11**] ARDS c/bEnterobacter VAP- completed course of
   antibiotics previously.   On trach mask.   Afebrile x 36h.
   VAP -now on day 4 of 8 for empiric therapy.  If evidence of treatment
   failure would consider resistance to cephalosporins given prior
   enterobacter isolate.
   PE
 INR currently elevated.  Plan to bridge on heparin when
   subtherapeutic.
   Transaminitis
 s/p four RUQ u/s, CT abd, and HIDA all neg.  Now
   trending
    down, w/ remnant alk phos elevation.
   Pancreatitis
 No clear etiology from review of meds.  Enzymes remain
   elevated but do not seem to be consistently increasing.  No abd pain.
   Plan to discuss TFs w/ nutrition.  Continue to trend.
   C. diff colitis
 p.o. vancomycin, plan to complete 7 days post
   cefepime
   ARF
 dense ATN. On HD.   Intermittently needs bicarb replacement but
   now HCO3.  Awaiting tunneled HD line.
   Afib/aflutter
 TSH nl.  No pericardial effusion on CT chest [**8-10**].
   Stable on rate control.  Anticoagulation as above.
   Critical care myopathy
 improving.  Awaiting PT
   Depression
 celexa.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-24**] 01:16 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   PICC Line - [**2143-8-23**] 10:33 AM (new)
   Prophylaxis:
   DVT:  anticoagulated
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Addendum to Exam
   General: Well appearing, NAD.
   HEENT: PERRL.  Trach in place.  Site c/d/i.  Speaking with valve.
   Heart: Regular S1,S2. No m/r/g
   Lungs: CTA anteriorly
   Abd: PEG in place.  Soft, NT, ND.
   Trace LE edema.
    Neuro: alert and oriented x3.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 8860**], MD
   on:[**2143-8-25**] 11:41 ------

2143-08-25 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2143-8-24**] 12:49 PM
   - Patient sitting in chair requesting to go home - states he will come
   right back if anything goes wrong
   - Renal: dialysis on Monday, hopefully after tunnelled line.
   - Still  holding heparin gtt as INR therapeutic
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-22**] 10:27 AM
   Cefipime - [**2143-8-24**] 11:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-24**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-25**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 85 (83 - 88) bpm
   BP: 162/49(75) {138/39(68) - 174/67(89)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 69 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,998 mL
                                                                    439 mL
   PO:
                                                                    680 mL
             TF:
                                                                  1,608 mL
                                                                    253 mL
   IVF:
                                                                    300 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                    120 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,983 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Trached, awake, able to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Breathing comfortably, bronchial breath sounds, no
   wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   203 K/uL
   7.1 g/dL
   161 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   52 mg/dL
   98 mEq/L
   136 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
   WBC
   4.7
   5.9
   6.7
   7.2
   9.5
   11.2
   Hct
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   Plt
   233
   285
   266
   [**Telephone/Fax (3) 8854**]
   Cr
   8.8
   4.1
   6.9
   4.2
   3.7
   5.7
   Glucose
   166
   168
   161
   153
   145
   161
   Other labs: PT / PTT / INR:16.4/26.1/1.5, CK / CKMB / Troponin-T:26//,
   ALT / AST:75/39, Alk Phos / T Bili:485/0.6, Amylase / Lipase:338/467,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   [**8-21**] bcx pending
   [**8-23**] PICC tip cx: no sig growth to date
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach. Restarted on abx for new
   LLL infiltrate, VAP v. HAP.  Given persistant low grade fevers would
   add FQ for double coverage.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**],
   - new infiltrate on [**8-20**] re-started on Vanc/cefepime
   - Start Ciprofloxacin for double coverage
   - CXR and if worsening infiltrate would get MINI BAL vs BRONCH
   - tolerating trach mask x 24 hr/d
   - fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt, holding coumadin given plan for possible tunneled
   line prior to discharge
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   Fevers: Cont to have low-grade fever; on abx for pneumonia given CXR
   infiltrate. Cont treatment for C. diff while on abx.  Tunnelled line
   changed [**8-19**] and PICC changed [**8-23**].
   - cont to trend fever curve and WBC; f/u pending cx
   - vanc/cefepime/Cipro as above
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for PNA
   - CXR and mini BAL vs bronch as above.
   - limit medications as much as possible
   - hepatitis serologies are negative
   Elevated transaminases/pancreatic enzymes:   Unclear etiology.  No
   abdominal pain.  Hepatitis serologies negative.  Multiple RUQ
   ultrasounds and HIDA scan negative.  Likely related to medications
   versus feedings.
   - review medication list
   - discuss tube feeds with nutrition
   - trend labs
   - hepatitis serologies are negative, iron labs nl
   - f/u AMA, [**Doctor First Name **], cerruloplasmin
   - consider hepatology curbside for elevated transaminases
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course, now
   [**2143-9-11**]
   Acute Renal Failure: Transitioned to HD [**2143-8-17**] and s/p new temp HD
   line placement [**2143-8-20**].  Will ultimately need new tunneled line.
   - transition to HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs
   Anemia:  Stable.  Does have persistently guaiac positive stools in the
   setting of heparin gtt.  No evidence of frank bleeding.  Anemia likely
   multifactorial secondary to  frequent phelobotomy, renal failure,
   chronic illness, iron deficiency (iron/ferritin <10), and fluid shifts
   on HD.
   - daily Hct
   - transfusion threshold <21
   - cont iron supplements
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt
   - currently holding coumadin given plans for tunneled line
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - transition to PO regimen for pain
   Altered mental status: Significantly improved.  Likely large component
   from toxic metabolic encephalopathy. CT head without acute process.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, no longer receiving CPAP
   overnight
   - OOB to chair, PT
   Weakness:  Likely [**3-11**] deconditioning vs. medication induced. Improving.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-24**] 11:29 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   PICC Line - [**2143-8-23**] 10:33 AM
   Prophylaxis:
   DVT: Boots, therapeutic heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-08-25 09:26:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   65 yo male admitted with H1N1 flu, secondary superinfection,
   respiratory failure. Hospitalization also notable for VAP x 2, PE on
   anticoagulation.
   24 Hour Events:
   Low grade T last night 100.4
 INVASIVE VENTILATION - STOP [**2143-8-24**] 12:49 PM
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Vancomycin - [**2143-8-22**] 10:27 AM
   Cefipime - [**2143-8-24**] 11:35 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-25**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-25**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 91 (83 - 91) bpm
   BP: 165/61(83) {138/49(68) - 174/67(89)} mmHg
   RR: 25 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,998 mL
                                                                    881 mL
   PO:
                                                                    680 mL
             TF:
                                                                  1,608 mL
                                                                    412 mL
   IVF:
                                                                    300 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                    120 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,983 mL
                                                                    761 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Well appearing.  Speaking w/ PMV
   HEENT: PERRL. OP clr.  Trach site c/d.
   Heart: Regular s1,s2. No m/r/g
   Lungs: CTA b/l
   Abd: +bs. Soft. Nt. Mildly distended.
   1+ LE edema.
   Labs / Radiology
   7.1 g/dL
   203 K/uL
   161 mg/dL
   5.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   52 mg/dL
   98 mEq/L
   136 mEq/L
   22.7 %
   11.2 K/uL
        [image002.jpg]
   CXR: initial read
 increasing LLL opacity.
                             [**2143-8-19**]  01:51 PM
                             [**2143-8-20**]  04:06 AM
                             [**2143-8-21**]  12:57 AM
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
   WBC
   4.7
   5.9
   6.7
   7.2
   9.5
   11.2
   Hct
   22.7
   23.2
   16.4
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   Plt
   233
   285
   266
   [**Telephone/Fax (3) 8854**]
   Cr
   8.8
   4.1
   6.9
   4.2
   3.7
   5.7
   Glucose
   166
   168
   161
   153
   145
   161
   Other labs: PT / PTT / INR:16.4/26.1/1.5, CK / CKMB / Troponin-T:26//,
   ALT / AST:75/39, Alk Phos / T Bili:485/0.6, Amylase / Lipase:338/467,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   65 yo male admitted with H1N1 flu, secondary superinfection,
   respiratory failure. Hospitalization also notable for VAP x 2, PE on
   anticoagulation.  Now w/ low grade fevers, mild leukocytosis, new LLL
   infiltrate.
   1. Respiratory failure
 [**3-11**] ARDS c/bEnterobacter VAP- completed course
   of antibiotics previously.   On trach mask.   Afebrile x 36h.
   2. VAP -now on day 5 of 8 for empiric therapy.  If evidence of
   treatment failure would consider resistance to cephalosporins given
   prior enterobacter isolate.  Will discuss w/ ID rates of fourth
   generation cephalosporin resistance of enterobacter.  Also, only on
   vanc/cefepime.  Given CXR progression may need bronch.  Send blood
   cultures
   4. PE
 INR currently elevated.  Plan to bridge on heparin when
   subtherapeutic.
   5. Transaminitis
 s/p four RUQ u/s, CT abd, and HIDA all neg. Now
   trending, down, w/ remnant alk phos elevation.
   6. Pancreatitis
  Enzymes continue to oscillate in the 300s range
   (amylase) and 600s (lipase).  No clear etiology from review of meds.
   No abd pain.  Plan to discuss TFs w/ nutrition.  Continue to trend.
   7. C. diff colitis
 p.o. vancomycin, plan to complete 7 days post
   cefepime
   8. ARF/ESRD
 dense ATN. On HD.   Intermittently needs bicarb
   replacement but now HCO3.  Awaiting tunneled HD line, planned for
   Monday.
   9. Afib/aflutter
 TSH nl. Stable on low dose BB. No pericardial
   effusion on CT chest [**8-10**].   Stable on rate control.  Anticoagulation as
   above.
   10.  Critical care myopathy
 improving.  Awaiting PT
   11. Depression
 celexa.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-24**] 11:29 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   PICC Line - [**2143-8-23**] 10:33 AM
   Prophylaxis:
   DVT:  PP
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I was physically present with the resident team on this date and
   performed an independent physical exam.  I would agree with the
   findings above and would add the following comments.
   Pt is a 65 yo male  with H1N1 influenza now s/p trach with hospital
   course complicated by acute renal failure.
   Recently
Patient has had persistent fevers and diagnosed [**8-19**] with
   VAP
Enterobacter on BAL and Vanco/Cefepime Rx in place patient has had
   continued improvement in fever curve over past days.
   Exam-
   T=100.0
   Labs-
   WBC-11
   In summary
Pt is 65 yo male with prolonged hospitalization now with
   tracheostomy and off of mechanical ventilation support with trach
   mask.
   1)Renal Failure-
   -Await placement of dialysis access with tunneled line
   2)Fever-Multiple possible sources, fever, clinical status has improved
   but patient with increase in WBC count across time.
   -Continue Antibiotics
   -CVL
s are new since ABX
   -No evidence of DVT on exam and is with anticoagulation
   -No evidence of sinus discharge
   -Will have to follow fever curve trend across time on restart of
   antibiotics
   -Will resend U/A
   -Re-check LFT
s and Amylase, Lipase
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-25**] 15:39 ------

2143-08-26 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-25**] 04:15 PM
   - WBC rising. Pancultured (ucx when next straight-cathed). CXR with LLL
   infiltrate, relatively stable. Kept on vanc/cefepime as GNR do not
   typically develop resistence to 4th gen cephalosporins.
   - Nutrition: Lipids with tube feeds already at lower end of
   requirement.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-25**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies, asking for lemonade.
   Flowsheet Data as of  [**2143-8-26**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.6
   HR: 85 (82 - 91) bpm
   BP: 159/59(79) {136/45(66) - 173/65(87)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 74 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,357 mL
                                                                    141 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,080 mL
                                                                     17 mL
   IVF:
                                                                    517 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                     30 mL
   Urine:
   30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,037 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Trached, awake, able to speak
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site intact
   Cardiovascular: RRR, S1-S2 nl, no murmurs, rubs, gallops
   Respiratory / Chest: Breathing comfortably, bronchial breath sounds, no
   wheezing
   Abdominal: Soft, distended, Bowel sounds present, PEG tube in place
   Extremities: Right: trace, Left: Trace
   Neurologic: Alert, awake. Follows commands. Moves all extremities
   purposefully.
   Labs / Radiology
   183 K/uL
   6.7 g/dL
   107 mg/dL
   7.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   73 mg/dL
   98 mEq/L
   135 mEq/L
   20.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
                             [**2143-8-25**]  12:33 PM
                             [**2143-8-25**]  09:00 PM
                             [**2143-8-26**]  04:25 AM
   WBC
   6.7
   7.2
   9.5
   11.2
   8.9
   Hct
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   21.7
   20.7
   20.5
   Plt
   266
   246
   246
   203
   183
   Cr
   6.9
   4.2
   3.7
   5.7
   7.1
   Glucose
   161
   153
   145
   161
   107
   Other labs: PT / PTT / INR:13.7/46.1/1.2, CK / CKMB / Troponin-T:26//,
   ALT / AST:63/29, Alk Phos / T Bili:460/0.5, Amylase / Lipase:303/626,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   65 year old male without clear PMH presenting with multifocal pneumonia
   secondary initially to influenza A now with respiratory failure c/b
   ARDS.
   Respiratory failure/multifocal pneumonia:  Secondary to influenza A,
   ARDS, fluid overload, RLL PE, ETT crusting. Tolerated couple of days
   extubated but reintubated for hypoxemic resp distress in setting of
   Enterobacter PNA (VAP v. HAP), now s/p trach. Restarted on abx for new
   LLL infiltrate, VAP v. HAP.  Given persistant low grade fevers would
   add FQ for double coverage.
   - completed an 8-day course of vancomycin and cefepime on [**2143-8-19**],
   - new infiltrate on [**8-20**] re-started on Vanc/cefepime
   - Start Ciprofloxacin for double coverage
   - CXR and if worsening infiltrate would get MINI BAL vs BRONCH
   - tolerating trach mask x 24 hr/d
   - fentanyl boluses and ativan PRN for agitation
   - cont heparin gtt, holding coumadin given plan for possible tunneled
   line prior to discharge
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   Fevers: Cont to have low-grade fever; on abx for pneumonia given CXR
   infiltrate. Cont treatment for C. diff while on abx.  Tunnelled line
   changed [**8-19**] and PICC changed [**8-23**].
   - cont to trend fever curve and WBC; f/u pending cx
   - vanc/cefepime/Cipro as above
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for PNA
   - CXR and mini BAL vs bronch as above.
   - limit medications as much as possible
   - hepatitis serologies are negative
   Elevated transaminases/pancreatic enzymes:   Unclear etiology.  No
   abdominal pain.  Hepatitis serologies negative.  Multiple RUQ
   ultrasounds and HIDA scan negative.  Likely related to medications
   versus feedings.
   - review medication list
   - discuss tube feeds with nutrition
   - trend labs
   - hepatitis serologies are negative, iron labs nl
   - f/u AMA, [**Doctor First Name **], cerruloplasmin
   - consider hepatology curbside for elevated transaminases.
   .
   #UTI-seen on u/a. Will start Cipro. Will await urine cx to determine
   any abx change.
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course
   Acute Renal Failure: Transitioned to HD [**2143-8-17**] and s/p new temp HD
   line placement [**2143-8-20**].  Will ultimately need new tunneled line.
   - transition to HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs, will d/w renal and IR whether to place tunneled cath
   today, in setting of recent low grade fever.
   Anemia:  Stable.  Does have persistently guaiac positive stools in the
   setting of heparin gtt.  No evidence of frank bleeding.  Anemia likely
   multifactorial secondary to  frequent phelobotomy, renal failure,
   chronic illness, iron deficiency (iron/ferritin <10), and fluid shifts
   on HD.
   - daily Hct
   - transfusion threshold <21, will transfuse 1 unit prbcs today.
   - cont iron supplements
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt
   - currently holding coumadin given plans for tunneled line
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - transition to PO regimen for pain
   Altered mental status: Significantly improved.  Likely large component
   from toxic metabolic encephalopathy. CT head without acute process.
   - cont to monitor neuro status
   - cont trazodone to regulate sleep cycle, no longer receiving CPAP
   overnight
   - OOB to chair, PT
   Weakness:  Likely [**3-11**] deconditioning vs. medication induced. Improving.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   ICU Care
   Nutrition: Holding  tube feeds for now pending procedurel
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   PICC Line - [**2143-8-23**] 10:33 AM
   Prophylaxis:
   DVT: holding heparin gtt for now, will resume once procedure over.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2143-08-26 09:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   fever yest pm w/ incr wbc noted and CXR w/ LLL infiltrate
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-26**] 08:00 AM
   Other medications:
   vanco po, lidocaine patch, FeSO4, metoprolol, trazodone, Celexa, Vanco
   IV w/ HD, RISS, Cefepime, heparin gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-26**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.4
   HR: 87 (82 - 90) bpm
   BP: 133/68(83) {133/31(59) - 173/68(87)} mmHg
   RR: 21 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 74 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,357 mL
                                                                    243 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,080 mL
                                                                     17 mL
   IVF:
                                                                    517 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                     30 mL
   Urine:
   30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,037 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) OG tube, trach site
   c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   183 K/uL
   107 mg/dL
   7.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   73 mg/dL
   98 mEq/L
   135 mEq/L
   20.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2143-8-21**]  04:57 AM
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
                             [**2143-8-25**]  12:33 PM
                             [**2143-8-25**]  09:00 PM
                             [**2143-8-26**]  04:25 AM
   WBC
   6.7
   7.2
   9.5
   11.2
   8.9
   Hct
   20.0
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   21.7
   20.7
   20.5
   Plt
   266
   246
   246
   203
   183
   Cr
   6.9
   4.2
   3.7
   5.7
   7.1
   Glucose
   161
   153
   145
   161
   107
   Other labs: PT / PTT / INR:13.7/46.1/1.2, CK / CKMB / Troponin-T:26//,
   ALT / AST:63/29, Alk Phos / T Bili:460/0.5, Amylase / Lipase:303/626,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:386 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:5.7 mg/dL
   Imaging: [**8-26**] CXR- LLL infiltrate
   Microbiology: UA- dirty, cx pending
   [**8-25**] sputum and blood- pending
   Assessment and Plan
   65 yo male admitted with H1N1 flu, secondary superinfection,
   respiratory failure. Hospitalization also notable for VAP x 2, PE on
   anticoagulation.  Now w/ low grade fevers, mild leukocytosis, new LLL
   infiltrate.
   1. Chronic respiratory failure
 [**3-11**] H1N1 influenza initially c/b
   multiple VAP episodes. S/p trach on [**8-14**].
   -stable on trach mask
   -pulm toilet
   2. Presumed VAP on day [**7-15**] empiric therapy w/ prior Enterobacter
   -given new LLL infiltrate broaden to ciprofloxacin for extended GNR
   coverage
   -consider bronch
   -follow CXR
   3. Probable UTI- f/u cultures
   -adding Cipro today as above
   4. Transaminitis- repeated workup neg for anything but sludging
   -downtrending now, continue to trend
   5. RLL segmental PE
 INR currently elevated.  Plan to bridge on
   heparin when subtherapeutic.
   6. C. diff colitis
 p.o. vancomycin, plan to complete 7 days post
   broad ABX
   7. ARF/ESRD
 dense ATN. On HD.   Awaiting tunneled HD line,
   potentially deferred now due to fevers
   8. Afib/aflutter
 TSH nl. Stable on low dose BB. No pericardial
   effusion on CT chest [**8-10**].   Stable on rate control.  Anticoagulation as
   above.
   9.  Critical care myopathy
 improving.  Awaiting PT
   10. Depression
 celexa.
   11. Anemia- chronic disease
   -transfuse 1u prbc for goal Hct 21
   ICU Care
   Nutrition:
   Comments: resume tube feeds pending Ir HD cath placement
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2143-8-20**] 12:30 PM
   PICC Line - [**2143-8-23**] 10:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2143-08-27 07:27:00 Physician Resident Progress Note
Chief Complaint: respiratory failure secondary to influenza with
   bacterial superinfection
   24 Hour Events:
   - wbc back to 8 today, no growth in cultures yet
   - UA positive, started cipro (day 1 [**8-26**]), still on vanc/cefepime for
   [**Month/Year (2) 3396**] (day [**7-15**])
   - vanco level high at 26.7, no vanco given at HD
   - afebrile for 24 + hours
   - got HD cath today
   - restarted heparin gtt after HD cath placement
   - had HD today (on MWF schedule), no new renal recs
   - received 1 u PRBCs due to slow drift downward, on epo and Fe
   - Hct bump appropriate from 20.5 to 23.3
   - failed speech and swallow eval and was made NPO for now, continue
   tube feeds through PEG for nutrition
   History obtained from Patient
   Allergies:
   History obtained from PatientZosyn (Intraven) (Piperacillin
   Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-26**] 12:00 PM
   Ciprofloxacin - [**2143-8-26**] 02:00 PM
   Vancomycin - [**2143-8-27**] 05:30 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-26**] 08:30 PM
   Heparin Sodium - [**2143-8-27**] 06:45 AM
   Other medications:
   Zofran PRN
   ** Cipro d1 [**8-26**])
   Dilaudid prn
   Heparin drip
   ISS
   Vanco HD protocol d1 [**2143-8-21**]
   Cefepime d1 = [**2143-8-21**]
   Celexa 10 mg daily
   Trazodone 50 mg qhs
   Atrovent
   Ativan PRN
   Robitussin
   Metoprolol 12.5 [**Hospital1 7**]
   Pantoprazole IV q12 hours
   Ferrous sulfate 300 mgd daily
   Lidaocaine patch
   Vanco 500 mg PO q6 hours
   Senna/colac/bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 85 (82 - 91) bpm
   BP: 122/64(75) {115/51(66) - 148/72(83)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 73.2 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,380 mL
                                                                    609 mL
   PO:
             TF:
                                                                     74 mL
                                                                    248 mL
   IVF:
                                                                    691 mL
                                                                    186 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,830 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   188 K/uL
   7.7 g/dL
   177 mg/dL
   4.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   35 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
                             [**2143-8-25**]  12:33 PM
                             [**2143-8-25**]  09:00 PM
                             [**2143-8-26**]  04:25 AM
                             [**2143-8-27**]  04:56 AM
   WBC
   6.7
   7.2
   9.5
   11.2
   8.9
   6.5
   Hct
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   21.7
   20.7
   20.5
   23.3
   Plt
   266
   246
   246
   [**Telephone/Fax (3) 8919**]
   Cr
   6.9
   4.2
   3.7
   5.7
   7.1
   4.4
   Glucose
   161
   153
   145
   161
   107
   177
   Other labs: PT / PTT / INR:14.3/47.3/1.2, CK / CKMB / Troponin-T:26//,
   ALT / AST:46/22, Alk Phos / T Bili:428/0.4, Amylase / Lipase:303/626,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:180 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   65 year old male without clear PMH admitted to MICU >1 mo ago for
   respiratory failure secondary to influenza with bacterial pneumonia,
   complicated by ARDS and [**Telephone/Fax (3) 3396**], now s/p trach and PEG.
   * Respiratory failure/multifocal pneumonia.  Patient with respiratory
   failure secondary to influenza A, ARDS, fluid overload, RLL PE,. S/p an
   8-day course of vancomycin and cefepime on [**2143-8-19**], but then developed
   a new [**Last Name (LF) 3396**], [**First Name3 (LF) **] vanc/cefepime was resume.  Now on day 7 of 8 second
   course for [**First Name3 (LF) 3396**] with vanco/cefepime and tolerating trach [**Last Name (un) 6792**] mask for
   several days.
   - Continue Vanc/cefepime (from [**8-20**] to [**8-27**])
   - continue Ciprofloxacin for double coverage ([**8-26**] - ?)
   - cont heparin gtt for PE and can initiate coumadin today
   - has Passy-Muir valve; cont speech therapy
   - cont PT
   * Fevers: Afebrile for two days.  Currently on Vanc/Cefepime for [**Month/Year (2) 3396**]
   ([**8-20**] to [**8-27**] for 8 day course.  On PO vanco for C. diff until 7 days
   post completion of abx.  Tunnelled line changed [**8-19**] and PICC changed
   [**8-23**].
   - cont to trend fever curve and WBC; f/u pending cx
   - vanc/cefepime/Cipro as above
   - cont vancomycin po for c.diff for 7 days post completion of
   antibiotic course for UTI
   Elevated transaminases/pancreatic enzymes:   Unclear etiology.  No
   abdominal pain.  Hepatitis serologies negative.  Multiple RUQ
   ultrasounds and HIDA scan negative.  Likely related to medications
   versus feedings versus acalculous cholecystitis.
   - trend labs
   - f/u AMA, [**Doctor First Name **], cerruloplasmin
   .
   #UTI-seen on u/a [**8-26**], Cipro initiated on [**8-26**] , will be completed
   [**9-2**].
   - f/u urine culture and sensitiviteis
   C. difficile colitis: On po vancomycin since [**2143-7-28**]
   - continue until 7 days post completion of antibiotic course
   ESRD on HD.  Initiated  on  HD [**2143-8-17**] and s/p new temp HD line
   placement [**2143-8-20**]. Tunneled line placed [**8-26**].
   - HD on M/W/F
   - given minimal UOP, straight cath 2x/weekly
   - f/u renal recs,
   Anemia:  Stable.  Does have persistently guaiac positive stools in the
   setting of heparin gtt.  No evidence of frank bleeding.  Anemia likely
   multifactorial secondary to frequent phelobotomy, renal failure,
   chronic illness, iron deficiency (iron/ferritin <10), and fluid shifts
   on HD.
   - daily Hct
   - transfusion threshold <21 s/p 1 unit PRBCs on [**8-26**]
   - cont iron supplements and epo with HD
   Sub-segmental PE: noted on CT Chest on [**8-4**].
   - cont heparin gtt
   - initated coumadin today
   Atrial fibrillation / atrial flutter: Rate more controlled
   - treating pain with fentanyl boluses (minimal requirement)
   - continue beta blocker (metoprolol 12.5 mg [**Hospital1 7**])
   Pain: Unclear but appears to be complaining of back pain, likely
   musculoskeletal
   - transition to PO regimen for pain
   Weakness:  Likely [**3-11**] deconditioning vs. medication induced. Improving.
   - Minimize sedating meds
   - PT
   Depression:
   - cont celexa 10mg daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-26**] 09:44 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2143-8-23**] 10:33 AM
   Dialysis Catheter - [**2143-8-26**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: IV PPI [**Hospital1 7**]
   [**Hospital1 3396**]: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2143-08-27 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   IR HD cath placed yest pm. Transfused 1u PRBC yest. this am c/o crampy
   abd pain
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash; fever;
   Ativan (Injection) (Lorazepam)
   periods of apne
   Last dose of Antibiotics:
   Cefipime - [**2143-8-26**] 12:00 PM
   Ciprofloxacin - [**2143-8-26**] 02:00 PM
   Vancomycin - [**2143-8-27**] 05:30 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2143-8-26**] 08:30 PM
   Heparin Sodium - [**2143-8-27**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-27**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 86 (82 - 91) bpm
   BP: 120/62(75) {115/51(66) - 135/72(82)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 73.2 kg (admission): 84.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,380 mL
                                                                    928 mL
   PO:
             TF:
                                                                     74 mL
                                                                    339 mL
   IVF:
                                                                    691 mL
                                                                    255 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,830 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                    928 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   188 K/uL
   177 mg/dL
   4.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   35 mg/dL
   102 mEq/L
   140 mEq/L
   23.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2143-8-21**]  02:32 PM
                             [**2143-8-22**]  03:51 AM
                             [**2143-8-22**]  03:26 PM
                             [**2143-8-23**]  04:34 AM
                             [**2143-8-24**]  04:07 AM
                             [**2143-8-25**]  04:14 AM
                             [**2143-8-25**]  12:33 PM
                             [**2143-8-25**]  09:00 PM
                             [**2143-8-26**]  04:25 AM
                             [**2143-8-27**]  04:56 AM
   WBC
   6.7
   7.2
   9.5
   11.2
   8.9
   6.5
   Hct
   25.3
   22.9
   25.3
   23.4
   23.8
   22.7
   21.7
   20.7
   20.5
   23.3
   Plt
   266
   246
   246
   [**Telephone/Fax (3) 8919**]
   Cr
   6.9
   4.2
   3.7
   5.7
   7.1
   4.4
   Glucose
   161
   153
   145
   161
   107
   177
   Other labs: PT / PTT / INR:14.3/47.3/1.2, CK / CKMB / Troponin-T:26//,
   ALT / AST:46/22, Alk Phos / T Bili:428/0.4, Amylase / Lipase:245/344,
   Differential-Neuts:50.0 %, Band:2.0 %, Lymph:34.0 %, Mono:10.0 %,
   Eos:1.0 %, Fibrinogen:489 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1
   g/dL, LDH:180 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**8-25**] Sputum and blood- pending
   [**8-25**] urine cx- yeast
   Assessment and Plan
   65 yo male admitted with H1N1 flu, secondary superinfection,
   respiratory failure. Hospitalization also notable for VAP x 2, PE on
   anticoagulation.  Recent dx of repeated VAP.
   1. Chronic respiratory failure
 [**3-11**] H1N1 influenza initially c/b
   multiple VAP episodes. S/p trach on [**8-14**].
   -stable on trach mask
   -pulm toilet
   2. Presumed VAP on day [**9-14**] empiric therapy w/ prior Enterobacter
   3. Probable UTI- f/u cultures
   -tx w/ Cipro
   4. Transaminitis- repeated workup neg for anything but sludging
   -downtrending now, continue to trend
   5. RLL segmental PE
 on heparin gtt
   -resume coumadin today at reduced dose
   6. C. diff colitis
 p.o. vancomycin, plan to complete 7 days post
   broad ABX
   7. ARF/ESRD
 dense ATN. On HD.   s/p tunneled IR cath placement yest
   -MWF HD
   8. Afib/aflutter
 rate controlled, on anticoag as above
   9.  Critical illness myopathy
 improving.  Awaiting PT. Boots for
   preventing flexion contractures
   10. Depression
 Zoloft.
   11. Anemia- chronic disease
   -goal Hct 21
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2143-8-26**] 09:44 PM 35 mL/hour
   Repeat speech and swallow eval today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2143-8-23**] 10:33 AM
   Dialysis Catheter - [**2143-8-26**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments: 65 yo male admitted with H1N1 flu /PNA complicated
   by secondary infection, ARDS, respiratory failure now s/p trach,
   multiorgan failure including ARF, several VAP's, PE's. He underwent
   placement of a tunneled line yesterday. Issues include:
   1. Acute respiratory failure: improving, pt on Trach collar without
   mech.ventilation for the past several days, has PMV.
   2. VAP- To complete a course of Cefipime  and Cipro today for
   Enterobacter
   3.  PE- on Coumadin, INR adjusted as needed
   4. ARF: receiving HD with tunneled line placed yesterday.
   Appears appropriate for transfer to long term facility.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2143-8-27**] 13:59 ------